2154-07-01 10:32:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo man with h/o CAD with stent.  Presents with hiccups, dry heaves,
   vomitting for a few days.  Saw PCP, c/o dysphagia.  Admitted to OSH for
   hiccups.  EGD and barium swallow with mild reflux and hiatal hernia.
   Then could no longer swallow his own saliva and slept sleeping up.
   Developed right facial droop and tongue deviation.  MRI with only small
   vessel changes.  Myasthenia w/u started, [**Doctor First Name **]/lyme negative.  Then
   developed diplopia.  Also with periods of SOB and desaturation.
   Transferred hear to floor.  By report VC there was 1.2L.  On floor was
   hypertensive with 200/104.  Got lopressor, hydral, and nitro past.
   Neurology sees him - LP and MRI.  Wife and patient refuse LP.  Then on
   floor SOB, AMS, sat to mid 80s.  Respiratory code called.  Intubated.
   BP 250/120. HR 40s after intubation.  Settled down with propofol.
   Telemetry showed ST elevations in MICU.  ST elevations on EKG II, II, F
   and ST depressions V2-V4.  Repeat EKG with inmproved ST changes.
   Cardiac enzymes with Trop 0.07.  Overnight unable to get LP.   With
   high WBC wtih Vanco/Cefepime and acyclovir.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2154-6-30**] 11:30 PM
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2154-7-1**] 01:26 AM
   Acyclovir - [**2154-7-1**] 02:45 AM
   Vancomycin - [**2154-7-1**] 06:00 AM
   Ampicillin - [**2154-7-1**] 08:30 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-7-1**] 08:00 AM
   Other medications:
   SSI
   flagyl
   ampicillin
   acyclovir
   vanco
   hydralizine
   sertraline
   baclofen
   plavix
   asa
   atrovent
   simvastatin
   propofol
   colace
   lopressor 12.5mg [**Hospital1 **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-1**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.4
C (97.5
   HR: 67 (64 - 88) bpm
   BP: 151/89(68) {72/47(53) - 160/100(112)} mmHg
   RR: 17 (14 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                      9 mL
                                                                  2,459 mL
   PO:
             TF:
   IVF:
                                                                      9 mL
                                                                  2,459 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,575 mL
   Urine:
   1,575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      9 mL
                                                                    884 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.48/36/112/25/4
   Ve: 8.9 L/min
   PaO2 / FiO2: 224
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, Tone: Not assessed, moving all
   extremeties but agitated
   Labs / Radiology
   13.7 g/dL
   258 K/uL
   176 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.2 mEq/L
   19 mg/dL
   94 mEq/L
   133 mEq/L
   38.2 %
   21.1 K/uL
        [image002.jpg]
                             [**2154-6-30**]  11:35 PM
                             [**2154-7-1**]  12:07 AM
                             [**2154-7-1**]  06:33 AM
   WBC
   17.3
   21.1
   Hct
   42.8
   38.2
   Plt
   236
   258
   Cr
   0.7
   0.8
   TropT
   0.07
   0.42
   TCO2
   28
   Glucose
   191
   176
   Other labs: PT / PTT / INR:13.1/30.3/1.1, CK / CKMB /
   Troponin-T:346/20/0.42, Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   Respiratory failure:  Aspiration event leading to respiratory failure.
   Evidence of dysphagia before intubation.  PSV as needed
   ACS:  acute coronary syndrome, will start heparin.  Increase
   beta-blocker.  ST elevation inferiorly last night, now with evolving Q
   waves.
   Cardiology consult
   Neurologic syndrome:  evidence of cranial nerve dysfunction before
   intubation.  Meningitis less likely a cause.  Could be
   autoimmune/vasculitis or paraneoplastic,
   but no evidence of cancer.    Will check TSH and B12.  Will try to get
   LP and MRI as per neurology
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2154-7-1**] 09:45 AM
   18 Gauge - [**2154-7-1**] 09:45 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2154-07-02 05:43:00 Physician Resident Progress Note
24 Hour Events:
 TRANSTHORACIC ECHO - At [**2154-7-1**] 02:00 PM
   - Cards: continue med managment, heparin IV gtt x 24 hours, serial
   EKGs, echo (showed regional wall motion abnormality in basal-inferior
   LV)
   - Neuro: send vasculitis studies, MRI/MRA of head, LP (consented wife)
   - increased BB to 37.5 TID
   - vent to PS 5/5 and FiO2 50%
   - TF ordered, waiting for MRI to start TF
   - LCx 95% stenosis --> got cypher stent from [**Hospital 7735**]
   - Neuro attempted LP but unsuccessful --> to get IR guided LP (holding
   heparin gtt at 6 AM)
   - TTE: mild regional left ventricular systolic dysfunction with
   hypokinesis of the inferior wall. The remaining segments contract
   normally (LVEF = 55 %).
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2154-7-1**] 02:30 PM
   Vancomycin - [**2154-7-1**] 06:00 PM
   Acyclovir - [**2154-7-1**] 08:00 PM
   Ampicillin - [**2154-7-2**] 12:00 AM
   Metronidazole - [**2154-7-2**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Heparin Sodium - 1,250 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-7-1**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-2**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 75 (60 - 87) bpm
   BP: 158/83(102) {93/54(65) - 158/89(102)} mmHg
   RR: 14 (9 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  4,972 mL
                                                                    402 mL
   PO:
             TF:
   IVF:
                                                                  4,702 mL
                                                                    402 mL
   Blood products:
   Total out:
                                                                  2,686 mL
                                                                    790 mL
   Urine:
                                                                  2,686 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,286 mL
                                                                   -388 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 477 (419 - 693) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 23
   PIP: 11 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese, large ecchymosis abdominal wall
   Extremities: Right: 1+, Left: 1+
   Skin:  no rash
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Neuro: opens eyes to name. upgoing toes on right, downgoing on left, 3+
   patellar/biceps/BR reflex on right, 2+ on left.
   Labs / Radiology
   237 K/uL
   14.3 g/dL
   130 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.5 mEq/L
   14 mg/dL
   100 mEq/L
   137 mEq/L
   41.7 %
   18.7 K/uL
        [image002.jpg]
                             [**2154-6-30**]  11:35 PM
                             [**2154-7-1**]  12:07 AM
                             [**2154-7-1**]  06:33 AM
                             [**2154-7-1**]  02:29 PM
                             [**2154-7-1**]  10:41 PM
                             [**2154-7-2**]  04:04 AM
   WBC
   17.3
   21.1
   18.7
   Hct
   42.8
   38.2
   41.7
   Plt
   [**Telephone/Fax (3) 8362**]
   Cr
   0.7
   0.8
   0.7
   TropT
   0.07
   0.42
   0.27
   0.15
   TCO2
   28
   Glucose
   191
   176
   130
   Other labs: PT / PTT / INR:13.2/104.3/1.1, CK / CKMB /
   Troponin-T:248/15/0.15, Differential-Neuts:80.4 %, Lymph:12.7 %,
   Mono:5.2 %, Eos:1.5 %, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   65 year old male with acute neurologic decline now s/p aspiration event
   and intubation.
   # Aspiration/respiratory failure: per family, has had difficulty with
   secretions and airway management for days. Thick/copious secretions
   aspirated from ETT on the floor.  Has been in the hospital since
   [**2154-6-20**]. Will need coverage for aspiration pneumonia
   -Cefepime/Vanc/Flagyl
   -protected airway with intubation
   -Sputum sample for culture
   # ECG changes: ECG changes concerning for STEMI, but improved with BP
   control.  Discussed ECG with cardiology. Patient has positive CE. Will
   treat for ACS and continue to trend enzymes.  Aspirin, statin, beta
   blocker for HR goal ~60.
   -trend enzymes
   -if trend up, will anticoagulate
   # Neurologic decline: neurology following. Workup to-date has been
   negative. Patient refused LP. Has different neurologic examination than
   previous, mostly significant for loss of upgoing toes and now
   asymmetric reflexes--but in the setting of sedation/acute insult.  Per
   verbal report, unlikely myasthenia with negative aldolase. Had good VC
   earlier today at 1.8 L and NIF of 54. ? Paraneoplastic, he had CT chest
   at OSH performed, as most-likely tumor would be small cell lung cancer.
   -MRI per Neurology recommendation, focus on brainstem
   -Discuss LP with family again, may be easier procedure with
   intubation/sedation
   -Continue coverage for meningitis
low likelihood this is bacterial
   meningitis given protracted course.  Change ceftriaxone to cefepime.
   Continue acyclovir and ampicillin.
   # Leukocytosis:  probably related to recurrent aspiration at OSH. No
   evidence of UTI.
   -Blood and urine cultures pending
   -Antibiotics as above
   # Hypertension: BP much improved on sedation and patient with
   significant anxiety history.  Also, may reflect ongoing brainstem
   process.
   -MRI brain
   -Autoregulation as able
   # Hyponatremia: poor po intake over last several days, likely to be
   hypovolemic hyponatremia. Given possible paraneoplastic process, can
   consider this may be SIADH.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2154-7-1**] 09:45 AM
   18 Gauge - [**2154-7-1**] 09:45 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2154-07-02 10:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo man with CAD, h/o L.Cx stent.  Presented with facial droop and
   dysphagia.  Aspirated on floor, intubated and brought to MICU.  Also
   with EKG changes consiten with MI.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2154-7-1**] 02:00 PM
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2154-7-1**] 08:00 PM
   Cefipime - [**2154-7-2**] 02:00 AM
   Vancomycin - [**2154-7-2**] 06:00 AM
   Ampicillin - [**2154-7-2**] 08:20 AM
   Metronidazole - [**2154-7-2**] 08:21 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-2**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 72 (60 - 87) bpm
   BP: 152/67(90) {64/41(47) - 158/85(102)} mmHg
   RR: 14 (9 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  4,972 mL
                                                                  1,223 mL
   PO:
             TF:
   IVF:
                                                                  4,702 mL
                                                                  1,073 mL
   Blood products:
   Total out:
                                                                  2,686 mL
                                                                    990 mL
   Urine:
                                                                  2,686 mL
                                                                    990 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,286 mL
                                                                    233 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 531 (419 - 693) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 23
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///28/
   Ve: 5.8 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm, Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   14.3 g/dL
   237 K/uL
   130 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.5 mEq/L
   14 mg/dL
   100 mEq/L
   137 mEq/L
   41.7 %
   18.7 K/uL
        [image002.jpg]
                             [**2154-6-30**]  11:35 PM
                             [**2154-7-1**]  12:07 AM
                             [**2154-7-1**]  06:33 AM
                             [**2154-7-1**]  02:29 PM
                             [**2154-7-1**]  10:41 PM
                             [**2154-7-2**]  04:04 AM
   WBC
   17.3
   21.1
   18.7
   Hct
   42.8
   38.2
   41.7
   Plt
   [**Telephone/Fax (3) 8362**]
   Cr
   0.7
   0.8
   0.7
   TropT
   0.07
   0.42
   0.27
   0.15
   0.12
   TCO2
   28
   Glucose
   191
   176
   130
   Other labs: PT / PTT / INR:13.2/104.3/1.1, CK / CKMB /
   Troponin-T:248/14/0.12, Differential-Neuts:80.4 %, Lymph:12.7 %,
   Mono:5.2 %, Eos:1.5 %, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI):  enzymes trending
   down.  heparin for 1 more day.  Continue to titrate up beta-blocker,
   asa, plavix, simvastatin
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH):  Likely aspirated in setting of dysphagia.
   Will
   try and extubate after MRI.
   Cranial nerve neurologic syndrome:  Will review LP results and
   determine further need for antibiotics.  Will also get MRI to further
   w/u syndrome.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2154-7-1**] 09:45 AM
   18 Gauge - [**2154-7-1**] 09:45 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2154-07-03 06:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FLUOROSCOPY - At [**2154-7-2**] 11:39 AM
   LP under fluoro at IR.
 PICC LINE - START [**2154-7-2**] 04:43 PM
 MAGNETIC RESONANCE IMAGING - At [**2154-7-2**] 06:00 PM
   - OSH records sent: NSTEMI in [**1-16**].  R dominant, LMCA normal, LAD
   normal, LCx mid 95%, RCA normal.  Cypher stent to LCx.
   - PICC line placed
   - LP performed under IR- 3 WBCs, gram stain negative, normal prot /
   glucose, opening pressure 30
   - MRI head performed
   - beta blocker needed to be reduced to 12.5mg po tid as pt hypotensive
   w/ sedation for LP / MRI, normotensive and off pressors when sedation
   is lightened
   - agitated, HR and BP up then O2 sats acutely dropped- initially
   thought possible pulm edema given 2L + today and HTN / tachycardia so
   gave 10mg IV lasix; CXR more c/w worsening RML infiltrate /
   aspiration.  Had to increase PEEP to 12 and FiO2 to 70% and turn pt on
   R side to improve sats from 88% to 96%.
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2154-7-3**] 12:56 AM
   Cefipime - [**2154-7-3**] 02:13 AM
   Acyclovir - [**2154-7-3**] 04:00 AM
   Ampicillin - [**2154-7-3**] 04:00 AM
   Vancomycin - [**2154-7-3**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 150 mcg/hour
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2154-7-3**] 12:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-3**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 97 (63 - 107) bpm
   BP: 118/63(75) {64/41(46) - 177/90(107)} mmHg
   RR: 12 (12 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  4,325 mL
                                                                    900 mL
   PO:
             TF:
   IVF:
                                                                  4,175 mL
                                                                    900 mL
   Blood products:
   Total out:
                                                                  2,230 mL
                                                                  1,340 mL
   Urine:
                                                                  2,230 mL
                                                                  1,340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,095 mL
                                                                   -440 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 560 (481 - 592) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 15
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 16 cmH2O
   SpO2: 98%
   ABG: 7.35/56/65/29/3
   Ve: 9.1 L/min
   PaO2 / FiO2: 130
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin.
   Wakes to name, follows commands
   Eyes / Conjunctiva: PERRL, disconjugate gaze
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), Coarse breath
   sounds/ronchi bilaterally
[**Month (only) **] on right flank
   Abdominal: Soft, Non-tender, Obese, large ecchymosis abdominal wall
   Extremities: Right: 1+, Left: 1+
   Skin:  no rash
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Neuro: opens eyes to name. upgoing toes on right, downgoing on left, 3+
   patellar/biceps/BR reflex on right, 2+ on left.
   Labs / Radiology
   229 K/uL
   11.4 g/dL
   111 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.5 mEq/L
   11 mg/dL
   102 mEq/L
   138 mEq/L
   33.3 %
   12.6 K/uL
        [image002.jpg]
                             [**2154-6-30**]  11:35 PM
                             [**2154-7-1**]  12:07 AM
                             [**2154-7-1**]  06:33 AM
                             [**2154-7-1**]  02:29 PM
                             [**2154-7-1**]  10:41 PM
                             [**2154-7-2**]  04:04 AM
                             [**2154-7-3**]  12:41 AM
                             [**2154-7-3**]  12:54 AM
                             [**2154-7-3**]  04:45 AM
   WBC
   17.3
   21.1
   18.7
   12.6
   Hct
   42.8
   38.2
   41.7
   33.3
   Plt
   [**Telephone/Fax (3) 8385**]29
   Cr
   0.7
   0.8
   0.7
   0.6
   TropT
   0.07
   0.42
   0.27
   0.15
   0.12
   TCO2
   28
   35
   32
   Glucose
   191
   176
   130
   111
   Other labs: PT / PTT / INR:13.8/69.9/1.2, CK / CKMB /
   Troponin-T:80/14/0.12, Differential-Neuts:80.4 %, Lymph:12.7 %,
   Mono:5.2 %, Eos:1.5 %, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   65 year old male with acute neurologic decline now s/p aspiration event
   and intubation.
   # Aspiration/respiratory failure:
   -continue w/ cefepime / vanc / flagyl x 8 days
   -attempt to wean vent settings after procedure, plan for extubation in
   next 1 day or so
   -RLL collapse vs. consolidation- repeat CXR following MRI / LP
   -f/u sputum cx speciation
   # ACS: per cards NSTEMI, enzymes trending down
   -preserved EF with regional inferior hypokinesis at the basal / mid
   level
   -no further cycling of enzymes
   -medial management w/ statin, beta blocker, heparin IV, aspirin and
   plavix
   # Neurologic decline:
   -f/u neuro recs
   -continue meningitis amp / acyclovir, f/u LP
 unlikely bacterial
   meningitis, taper abx regimen if LP does not reveal bacterial
   meningitis
   -MRI head
   # Leukocytosis:  probably related to recurrent aspiration at OSH. No
   evidence of UTI.
   -Blood and urine cultures pending
   -Antibiotics as above
   # Hypertension: BP much improved on sedation and patient with
   significant anxiety history.  Also, may reflect ongoing brainstem
   process.
   -MRI brain
   -Autoregulation as able
    # Hyponatremia: poor po intake over last several days, likely to be
   hypovolemic hyponatremia. Given possible paraneoplastic process, can
   consider this may be SIADH.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2154-7-2**] 02:20 PM
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2154-07-03 10:58:00 Physician Attending Progress Note
Chief Complaint: Resp failure, progressive neuro decline, aspiration
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FLUOROSCOPY - At [**2154-7-2**] 11:39 AM
   LP under fluoro at IR.
 PICC LINE - START [**2154-7-2**] 04:43 PM
 MAGNETIC RESONANCE IMAGING - At [**2154-7-2**] 06:00 PM
   Required pressors with bolus sedation
   O2 sats dropped with agitation, tachycardia, responded to diuresis
   CXR: worsening infiltrates, aspiration. Peep increased, R side down
   + + secretions, cuff re-inflated
   Patient unable to provide history: Sedated
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2154-7-3**] 02:13 AM
   Acyclovir - [**2154-7-3**] 04:00 AM
   Vancomycin - [**2154-7-3**] 06:00 AM
   Ampicillin - [**2154-7-3**] 08:12 AM
   Metronidazole - [**2154-7-3**] 08:12 AM
   Infusions:
   Heparin Sodium - 950 units/hour
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2154-7-3**] 12:35 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-3**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.4
C (99.3
   HR: 100 (63 - 107) bpm
   BP: 104/64(73) {65/41(46) - 177/90(107)} mmHg
   RR: 12 (12 - 19) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  4,323 mL
                                                                  1,356 mL
   PO:
             TF:
   IVF:
                                                                  4,173 mL
                                                                  1,276 mL
   Blood products:
   Total out:
                                                                  2,230 mL
                                                                  1,680 mL
   Urine:
                                                                  2,230 mL
                                                                  1,680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,093 mL
                                                                   -324 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 586 (481 - 592) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 13
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 16 cmH2O
   SpO2: 95%
   ABG: 7.35/56/65/29/3
   Ve: 8.3 L/min
   PaO2 / FiO2: 130
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: disconjugate gaze
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: ronchorous
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands. Toes: withdrawal to
   stimulation
   Labs / Radiology
   11.4 g/dL
   229 K/uL
   111 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.5 mEq/L
   11 mg/dL
   102 mEq/L
   138 mEq/L
   33.3 %
   12.6 K/uL
        [image002.jpg]
                             [**2154-6-30**]  11:35 PM
                             [**2154-7-1**]  12:07 AM
                             [**2154-7-1**]  06:33 AM
                             [**2154-7-1**]  02:29 PM
                             [**2154-7-1**]  10:41 PM
                             [**2154-7-2**]  04:04 AM
                             [**2154-7-3**]  12:41 AM
                             [**2154-7-3**]  12:54 AM
                             [**2154-7-3**]  04:45 AM
   WBC
   17.3
   21.1
   18.7
   12.6
   Hct
   42.8
   38.2
   41.7
   33.3
   Plt
   [**Telephone/Fax (3) 8385**]29
   Cr
   0.7
   0.8
   0.7
   0.6
   TropT
   0.07
   0.42
   0.27
   0.15
   0.12
   0.07
   TCO2
   28
   35
   32
   Glucose
   191
   176
   130
   111
   Other labs: PT / PTT / INR:13.8/69.9/1.2, CK / CKMB /
   Troponin-T:80/14/0.07, Differential-Neuts:80.4 %, Lymph:12.7 %,
   Mono:5.2 %, Eos:1.5 %, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   LP: all neg so far
   Spu: cx  pend
   CXR: RML infiltrate
   MRI brain: read pend
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH):
   - Neuro: LP cxs neg so far, d/c Ampicillin. Continue Acyclovir till HSV
   PCR neg. MRI read pend. F/u neuro recs. ? anything reversible.
   Vasculitis w/u neg do far.
   - CVS: consitnue ASA, plavix, low dose beta blocker, statin, comppleted
   heparin gtt. TTE with WMA. Cards following, rec med mgmt.
   - Resp: aspiration in the setting of dysphagia, stepwise wean vent,
   daily extubation attempts. Daily diuresis. Cont Vanc, Cefepime x 8. D/c
   Flagyl. Scopalamine patch after extubation
    - Hct drop: likely dilutional
   - Rest per housestaff note
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:
   Lines:
   18 Gauge - [**2154-7-2**] 02:20 PM
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: ppi
   VAP: bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 691**] and housestaff MICU team.
   Reviewed above note with which I agree.  Would add/emphasize:  65 yo
   man, h/o CAD, admitted with cranial nerve palsy, and aspiration PNA,
   respiratory failure:  Patient with increased oxygen requirement.
   O/E:  Tm 99.7
   Awake, responsive, following commands.  Moving all extremities
   Lungs:  b/l rhonchi
   CV:  RRR
   Abd:  soft
   Ext:  1+ edema
   CXR:  RML infiltrate
   A/P:
   Neuro:  LP unremarkable, will was for HSV PCR to stop acyclovir.
   Follow up on MRI results.
   Respiratory failure:  Continue Vanco/Cefepime for aspiration PNA.  Try
   and wean ventilator as tolerated and diuresed.
   Acute MI:  Stable on lopressor, ASA, plavix
   CC40 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2154-7-3**] 12:15 ------

2154-07-04 06:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Neuro: ID/stroke consults, additional labs ordered. EMG ordered.
   -ID consult: additional serologies added to CSF and blood. Stool
   specimen ordered
   -Given 10 mg IV Lasix with ~700 cc UOP. Brief period of hypotension,
   given 250 cc NS back--remains negative
   -Decreased vent settings, tolerated well with expectation of extubation
   in am. Did desat/required suctioning around 5 pm.
   -Cr elevated this am, gave 500 cc NS
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Ampicillin - [**2154-7-3**] 08:12 AM
   Metronidazole - [**2154-7-3**] 08:12 AM
   Vancomycin - [**2154-7-3**] 05:43 PM
   Cefipime - [**2154-7-4**] 02:04 AM
   Acyclovir - [**2154-7-4**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2154-7-3**] 12:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-4**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.8
   HR: 91 (80 - 109) bpm
   BP: 102/54(66) {69/40(47) - 171/85(104)} mmHg
   RR: 12 (11 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,549 mL
                                                                    399 mL
   PO:
             TF:
   IVF:
                                                                  2,329 mL
                                                                    339 mL
   Blood products:
   Total out:
                                                                  2,705 mL
                                                                    260 mL
   Urine:
                                                                  2,705 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -156 mL
                                                                    139 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 650 (493 - 707) mL
   PS : 10 cmH2O
   RR (Spontaneous): 13
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 29
   PIP: 19 cmH2O
   SpO2: 97%
   ABG: ///26/
   Ve: 9 L/min
   Physical Examination
   General Appearance: Well nourished, Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   240 K/uL
   11.7 g/dL
   129 mg/dL
   1.9 mg/dL
   26 mEq/L
   3.7 mEq/L
   21 mg/dL
   99 mEq/L
   136 mEq/L
   34.4 %
   14.2 K/uL
        [image002.jpg]
                             [**2154-6-30**]  11:35 PM
                             [**2154-7-1**]  12:07 AM
                             [**2154-7-1**]  06:33 AM
                             [**2154-7-1**]  02:29 PM
                             [**2154-7-1**]  10:41 PM
                             [**2154-7-2**]  04:04 AM
                             [**2154-7-3**]  12:41 AM
                             [**2154-7-3**]  12:54 AM
                             [**2154-7-3**]  04:45 AM
                             [**2154-7-4**]  03:27 AM
   WBC
   17.3
   21.1
   18.7
   12.6
   14.2
   Hct
   42.8
   38.2
   41.7
   33.3
   34.4
   Plt
   [**Telephone/Fax (3) 8385**]29
   240
   Cr
   0.7
   0.8
   0.7
   0.6
   1.9
   TropT
   0.07
   0.42
   0.27
   0.15
   0.12
   0.07
   TCO2
   28
   35
   32
   Glucose
   191
   176
   130
   111
   129
   Other labs: PT / PTT / INR:13.8/69.9/1.2, CK / CKMB /
   Troponin-T:80/14/0.07, Differential-Neuts:80.4 %, Lymph:12.7 %,
   Mono:5.2 %, Eos:1.5 %, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   65 year old male with acute neurologic decline now s/p aspiration event
   and intubation.
   # Aspiration/respiratory failure:
   -continue w/ cefepime / vanc x 8 days
   -f/u sputum culture
   -aggressive suctioning
   -wean vent settings
   -diurese w/ goal I/O negative 500cc to negative 1 liter
   # ACS:  NSTEMI
   -d/c IV heparin
   -cont ASA, plavix, statin, beta blocker
   # Neurologic decline:
   -f/u neuro recs
   -f/u MRI head
   -f/u final LP studies
   -d/c ampicillin, continue acyclovir until HSV PCR is negative
   # Leukocytosis:  improving, abx as above
   # Hypertension: improved, in the setting of sedation.
    # Hyponatremia: poor po intake over last several days, likely to be
   hypovolemic hyponatremia. Given possible paraneoplastic process, can
   consider this may be SIADH.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2154-7-2**] 02:20 PM
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2154-07-04 10:02:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo man presented with cranial nerve palsy and respiratory failure
   after aspiration.   Has been on PSV and one desaturation that responded
   to suctioning.
   24 Hour Events:
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Ampicillin - [**2154-7-3**] 08:12 AM
   Metronidazole - [**2154-7-3**] 08:12 AM
   Vancomycin - [**2154-7-3**] 05:43 PM
   Cefipime - [**2154-7-4**] 02:04 AM
   Acyclovir - [**2154-7-4**] 04:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2154-7-3**] 12:30 PM
   Other medications:
   zoloft
   asa
   SSI
   zocor
   plavix
   cefepime
   lopressor
   doxycycline
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-4**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.3
C (99.1
   HR: 89 (80 - 109) bpm
   BP: 105/61(72) {69/40(47) - 171/85(104)} mmHg
   RR: 12 (11 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,549 mL
                                                                  1,123 mL
   PO:
             TF:
   IVF:
                                                                  2,329 mL
                                                                    913 mL
   Blood products:
   Total out:
                                                                  2,705 mL
                                                                    305 mL
   Urine:
                                                                  2,705 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -156 mL
                                                                    818 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,040 (493 - 1,040) mL
   PS : 10 cmH2O
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 29
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///26/
   Ve: 7.3 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, moving all
   extremities
   Labs / Radiology
   11.7 g/dL
   240 K/uL
   129 mg/dL
   1.9 mg/dL
   26 mEq/L
   3.7 mEq/L
   21 mg/dL
   99 mEq/L
   136 mEq/L
   34.4 %
   14.2 K/uL
        [image002.jpg]
                             [**2154-6-30**]  11:35 PM
                             [**2154-7-1**]  12:07 AM
                             [**2154-7-1**]  06:33 AM
                             [**2154-7-1**]  02:29 PM
                             [**2154-7-1**]  10:41 PM
                             [**2154-7-2**]  04:04 AM
                             [**2154-7-3**]  12:41 AM
                             [**2154-7-3**]  12:54 AM
                             [**2154-7-3**]  04:45 AM
                             [**2154-7-4**]  03:27 AM
   WBC
   17.3
   21.1
   18.7
   12.6
   14.2
   Hct
   42.8
   38.2
   41.7
   33.3
   34.4
   Plt
   [**Telephone/Fax (3) 8385**]29
   240
   Cr
   0.7
   0.8
   0.7
   0.6
   1.9
   TropT
   0.07
   0.42
   0.27
   0.15
   0.12
   0.07
   TCO2
   28
   35
   32
   Glucose
   191
   176
   130
   111
   129
   Other labs: PT / PTT / INR:13.8/69.9/1.2, CK / CKMB /
   Troponin-T:80/14/0.07, Differential-Neuts:80.4 %, Lymph:12.7 %,
   Mono:5.2 %, Eos:1.5 %, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Respiratory failure:  breathing well on minimal vent support.
   Unclear if he will be able to protect his airway.  Will try a
   scopolamine patch to decreased secretions.
   CN palsy:  Will follow up with neurology on MRI findings.
   Acute renal failure:  increased creatinine consistent with dense renal
   failure, but still making urine.  Will recheck creatinine.  stop
   acyclovir
   check urine eos
   ACS:  of heparin/medical management
   Dobhoff feeding tube.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2154-7-2**] 02:20 PM
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2154-07-05 06:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ID recs: nothing new
   - Neuro recs: start IVIG (got overnight) given EMG that supported early
   demyelinating polyneuropathy, would like renal consult
   - Stroke recs: none
   - placed Dobhoff post-pyloric, but [**Name8 (MD) **] RN not flushing
   - d/c baclofen, acyclovir
   - Cr 1.9 --> 2.6 --> 3.1 over 24 hours
   - started scopolamine for secretions
   - urine lytes c/w intrarenal cause of ARF
   - added on Ig levels
   - noted to have frequent apneic episodes and ABG improved
   - stat head CT for R sided hyperreflexia worse this evening with worse
   L sided facial weakness and L sided "shaking" but somewhat following
   commands --> ED wet read no change from prior
   - increased metoprolol to 25 [**Hospital1 7**]
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Ampicillin - [**2154-7-3**] 08:12 AM
   Metronidazole - [**2154-7-3**] 08:12 AM
   Vancomycin - [**2154-7-3**] 05:43 PM
   Acyclovir - [**2154-7-4**] 04:00 AM
   Cefipime - [**2154-7-5**] 02:21 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-7-5**] 04:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-5**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.7
   HR: 97 (72 - 100) bpm
   BP: 166/81(101) {104/44(57) - 166/91(107)} mmHg
   RR: 16 (7 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
           Total In:
                                                                  2,621 mL
                                                                    573 mL
   PO:
           TF:
                                                                    110 mL
                                                                    181 mL
   IVF:
                                                                  1,795 mL
                                                                    218 mL
   Blood products:
                                                                    176 mL
                                                                    174 mL
   Total out:
                                                                  1,315 mL
                                                                    785 mL
   Urine:
                                                                  1,315 mL
                                                                    785 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,306 mL
                                                                   -212 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 428 (221 - 1,040) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: 7.33/53/118/25/1
   Ve: 7.7 L/min
   PaO2 / FiO2: 236
   Physical Examination
   General Appearance: Well nourished, Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal) no m/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to verbal stimuli, neuro exam unchanged
   Labs / Radiology
   253 K/uL
   11.2 g/dL
   122 mg/dL
   3.6 mg/dL
   25 mEq/L
   3.9 mEq/L
   35 mg/dL
   102 mEq/L
   139 mEq/L
   32.9 %
   11.6 K/uL
        [image002.jpg]
                             [**2154-7-1**]  10:41 PM
                             [**2154-7-2**]  04:04 AM
                             [**2154-7-3**]  12:41 AM
                             [**2154-7-3**]  12:54 AM
                             [**2154-7-3**]  04:45 AM
                             [**2154-7-4**]  03:27 AM
                             [**2154-7-4**]  10:03 AM
                             [**2154-7-4**]  05:02 PM
                             [**2154-7-4**]  09:27 PM
                             [**2154-7-5**]  03:35 AM
   WBC
   18.7
   12.6
   14.2
   11.6
   Hct
   41.7
   33.3
   34.4
   32.9
   Plt
   237
   229
   240
   253
   Cr
   0.7
   0.6
   1.9
   2.6
   3.1
   3.6
   TropT
   0.15
   0.12
   0.07
   TCO2
   35
   32
   29
   Glucose
   130
   111
   129
   103
   111
   122
   Other labs: PT / PTT / INR:13.8/69.9/1.2, CK / CKMB /
   Troponin-T:80/14/0.07, Differential-Neuts:80.4 %, Lymph:12.7 %,
   Mono:5.2 %, Eos:1.5 %, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   65 year old male with acute neurologic decline now s/p aspiration event
   and intubation.
   # Aspiration/respiratory failure:
   -significant oral secretions as well as lower airway tract secretions
   -d/c scop patch, attempt hyoscamine
   -wean sedation, bolus sedation for now
   -renally dose cefepime
   # ARF: non oliguric renal failure, possibly having post ATN diuresis
   -renal ultrasound
   -using IVIG for below cautiously
   -renal c/s if not improving, likely ATN though as in the setting of
   hypotension
   # ACS:  NSTEMI
   -cont ASA, plavix, statin, beta blocker
   # Neurologic decline:
   -f/u neuro recs
   -f/u MRI head final read
   -f/u final LP studies
   -d/c ampicillin, d/c acyclovir and f/u HSV PCR
   -IVIG for possible [**Last Name (un) **] encephalitis
   # Leukocytosis:  improving, abx as above
   # Hypertension: improved, in the setting of sedation.
    # Hyponatremia: resolved
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-5**] 04:05 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2154-07-05 10:32:00 Physician Attending Progress Note
Chief Complaint: respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo man with neurologic sydrome (likely [**Last Name (un) 8426**] encephalitis)
   and respiratory failure from aspiration.  Getting IVIG last night.
   24 Hour Events:
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Ampicillin - [**2154-7-3**] 08:12 AM
   Metronidazole - [**2154-7-3**] 08:12 AM
   Vancomycin - [**2154-7-3**] 05:43 PM
   Acyclovir - [**2154-7-4**] 04:00 AM
   Cefipime - [**2154-7-5**] 02:21 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-7-5**] 04:23 AM
   Other medications:
   sertraline
   plavix
   asa
   atrovent
   SSI
   simvastatin
   cefepime
   chlorhexidine
   doxycline
   thiamine
   hep s/q
   IVIG
   lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-5**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 84 (72 - 99) bpm
   BP: 149/70(89) {104/44(57) - 166/91(107)} mmHg
   RR: 14 (7 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
           Total In:
                                                                  2,621 mL
                                                                    888 mL
   PO:
           TF:
                                                                    110 mL
                                                                    290 mL
   IVF:
                                                                  1,795 mL
                                                                    284 mL
   Blood products:
                                                                    176 mL
                                                                    174 mL
   Total out:
                                                                  1,315 mL
                                                                    985 mL
   Urine:
                                                                  1,315 mL
                                                                    985 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,306 mL
                                                                    -97 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 924 (221 - 1,018) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 12 cmH2O
   SpO2: 96%
   ABG: 7.33/53/118/25/1
   Ve: 7.7 L/min
   PaO2 / FiO2: 236
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, No(t) Sedated, Tone: Not
   assessed
   Labs / Radiology
   11.2 g/dL
   253 K/uL
   122 mg/dL
   3.6 mg/dL
   25 mEq/L
   3.9 mEq/L
   35 mg/dL
   102 mEq/L
   139 mEq/L
   32.9 %
   11.6 K/uL
        [image002.jpg]
                             [**2154-7-1**]  10:41 PM
                             [**2154-7-2**]  04:04 AM
                             [**2154-7-3**]  12:41 AM
                             [**2154-7-3**]  12:54 AM
                             [**2154-7-3**]  04:45 AM
                             [**2154-7-4**]  03:27 AM
                             [**2154-7-4**]  10:03 AM
                             [**2154-7-4**]  05:02 PM
                             [**2154-7-4**]  09:27 PM
                             [**2154-7-5**]  03:35 AM
   WBC
   18.7
   12.6
   14.2
   11.6
   Hct
   41.7
   33.3
   34.4
   32.9
   Plt
   237
   229
   240
   253
   Cr
   0.7
   0.6
   1.9
   2.6
   3.1
   3.6
   TropT
   0.15
   0.12
   0.07
   TCO2
   35
   32
   29
   Glucose
   130
   111
   129
   103
   111
   122
   Other labs: PT / PTT / INR:13.8/69.9/1.2, CK / CKMB /
   Troponin-T:80/14/0.07, Differential-Neuts:80.4 %, Lymph:12.7 %,
   Mono:5.2 %, Eos:1.5 %, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Respiratory failure:  Seems oversedated likely due to accumulation of
   metabolites in setting of renal failure.  Continue MMV
   levasin for secretions.  [**Month (only) 51**] need tracheostomy depending upong rapidity
   of improvement of underlying disease.
   Acute renal failure:  ATN likely due to HOTNsive episodes in setting of
   sedation during MRI.  Creatinine has leveled off.
   [**Last Name (un) 8426**] encephalitis:  on IVIG
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2154-07-06 06:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2154-7-5**] 10:30 AM
 EEG - At [**2154-7-5**] 03:00 PM
   - pt very sedated and not following commands, relatively unresponsive,
   neuro rec EEG and MRI (L arm shaking).  EEG obtained, sedation
   discontinued (only using bolus sedation) and MS improving
   - renal curbsided and okay to use IVIG w/o sucrose
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Ampicillin - [**2154-7-3**] 08:12 AM
   Metronidazole - [**2154-7-3**] 08:12 AM
   Vancomycin - [**2154-7-3**] 05:43 PM
   Acyclovir - [**2154-7-4**] 04:00 AM
   Cefipime - [**2154-7-6**] 03:00 AM
   Infusions:
   Other ICU medications:
   Labetalol - [**2154-7-5**] 11:20 PM
   Fentanyl - [**2154-7-6**] 12:00 AM
   Midazolam (Versed) - [**2154-7-6**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2154-7-6**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-6**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.3
   HR: 101 (78 - 116) bpm
   BP: 165/74(98) {115/53(68) - 204/99(122)} mmHg
   RR: 12 (9 - 24) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
           Total In:
                                                                  2,398 mL
                                                                    957 mL
   PO:
           TF:
                                                                  1,131 mL
                                                                    496 mL
   IVF:
                                                                    528 mL
                                                                    116 mL
   Blood products:
                                                                    349 mL
                                                                    175 mL
   Total out:
                                                                  1,905 mL
                                                                    610 mL
   Urine:
                                                                  1,905 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    493 mL
                                                                    347 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 1,368 (151 - 1,368) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 21
   PIP: 18 cmH2O
   SpO2: 97%
   ABG: ///25/
   Ve: 8.9 L/min
   Physical Examination
   General Appearance: Well nourished, Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal) no m/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to verbal stimuli, neuro exam unchanged
   Labs / Radiology
   264 K/uL
   11.5 g/dL
   194 mg/dL
   3.3 mg/dL
   25 mEq/L
   3.8 mEq/L
   52 mg/dL
   105 mEq/L
   140 mEq/L
   33.0 %
   13.4 K/uL
        [image002.jpg]
                             [**2154-7-2**]  04:04 AM
                             [**2154-7-3**]  12:41 AM
                             [**2154-7-3**]  12:54 AM
                             [**2154-7-3**]  04:45 AM
                             [**2154-7-4**]  03:27 AM
                             [**2154-7-4**]  10:03 AM
                             [**2154-7-4**]  05:02 PM
                             [**2154-7-4**]  09:27 PM
                             [**2154-7-5**]  03:35 AM
                             [**2154-7-6**]  04:31 AM
   WBC
   18.7
   12.6
   14.2
   11.6
   13.4
   Hct
   41.7
   33.3
   34.4
   32.9
   33.0
   Plt
   237
   229
   240
   253
   264
   Cr
   0.7
   0.6
   1.9
   2.6
   3.1
   3.6
   3.3
   TropT
   0.12
   0.07
   TCO2
   35
   32
   29
   Glucose
   130
   111
   129
   103
   111
   122
   194
   Other labs: PT / PTT / INR:13.8/69.9/1.2, CK / CKMB /
   Troponin-T:80/14/0.07, Differential-Neuts:80.4 %, Lymph:12.7 %,
   Mono:5.2 %, Eos:1.5 %, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   65 year old male with acute neurologic decline now s/p aspiration event
   and intubation.
   # Aspiration/respiratory failure:
   -significant oral secretions as well as lower airway tract secretions
   -d/c scop patch, attempt hyoscamine
   -wean sedation, bolus sedation for now
   -renally dose cefepime
   # ARF: non oliguric renal failure, possibly having post ATN diuresis
   -renal ultrasound
   -using IVIG for below cautiously
   -renal c/s if not improving, likely ATN though as in the setting of
   hypotension
   # ACS:  NSTEMI
   -cont ASA, plavix, statin, beta blocker
   # Neurologic decline:
   -f/u neuro recs
   -f/u MRI head final read
   -f/u final LP studies
   -d/c ampicillin, d/c acyclovir and f/u HSV PCR
   -IVIG for possible [**Last Name (un) **] encephalitis
   # Leukocytosis:  improving, abx as above
   # Hypertension: improved, in the setting of sedation.
    # Hyponatremia: resolved
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-6**] 04:36 AM 75 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2154-07-06 10:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Concern for seizure activity - EEG done
   - Renal U/S for ARF
   - Febrile this am
   - Labile BPs to 220s/120s
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2154-7-3**] 05:43 PM
   Acyclovir - [**2154-7-4**] 04:00 AM
   Cefipime - [**2154-7-6**] 03:00 AM
   Infusions:
   Other ICU medications:
   Labetalol - [**2154-7-5**] 11:20 PM
   Fentanyl - [**2154-7-6**] 12:00 AM
   Midazolam (Versed) - [**2154-7-6**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2154-7-6**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-6**] 10:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 110 (78 - 116) bpm
   BP: 169/86(107) {130/63(84) - 204/99(122)} mmHg
   RR: 14 (9 - 24) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
           Total In:
                                                                  2,398 mL
                                                                  1,249 mL
   PO:
           TF:
                                                                  1,131 mL
                                                                    754 mL
   IVF:
                                                                    528 mL
                                                                    151 mL
   Blood products:
                                                                    349 mL
                                                                    175 mL
   Total out:
                                                                  1,905 mL
                                                                  1,080 mL
   Urine:
                                                                  1,905 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    493 mL
                                                                    169 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 809 (151 - 1,368) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 21
   PIP: 12 cmH2O
   SpO2: 96%
   ABG: ///25/
   Ve: 9.7 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL, Disconjugate gaze
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds:, Rhonchorous)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No edema
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.5 g/dL
   264 K/uL
   194 mg/dL
   3.3 mg/dL
   25 mEq/L
   3.8 mEq/L
   52 mg/dL
   105 mEq/L
   140 mEq/L
   33.0 %
   13.4 K/uL
        [image002.jpg]
                             [**2154-7-2**]  04:04 AM
                             [**2154-7-3**]  12:41 AM
                             [**2154-7-3**]  12:54 AM
                             [**2154-7-3**]  04:45 AM
                             [**2154-7-4**]  03:27 AM
                             [**2154-7-4**]  10:03 AM
                             [**2154-7-4**]  05:02 PM
                             [**2154-7-4**]  09:27 PM
                             [**2154-7-5**]  03:35 AM
                             [**2154-7-6**]  04:31 AM
   WBC
   18.7
   12.6
   14.2
   11.6
   13.4
   Hct
   41.7
   33.3
   34.4
   32.9
   33.0
   Plt
   237
   229
   240
   253
   264
   Cr
   0.7
   0.6
   1.9
   2.6
   3.1
   3.6
   3.3
   TropT
   0.12
   0.07
   TCO2
   35
   32
   29
   Glucose
   130
   111
   129
   103
   111
   122
   194
   Other labs: PT / PTT / INR:13.8/69.9/1.2, CK / CKMB /
   Troponin-T:80/14/0.07, Differential-Neuts:80.4 %, Lymph:12.7 %,
   Mono:5.2 %, Eos:1.5 %, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: ANCA negative
   HSV negative
   Many labs pending.
   Imaging: Renal U/S: No hydro
   Head CT: No bleed, persistent sinus opacification
   EEG: C/w encelopathy, no sz activity
   Assessment and Plan
   65 year old male with acute neurologic decline now s/p aspiration event
   and intubation.
   # Aspiration/respiratory failure: Remains intubated for airway
   protection
   -Significant oral secretions as well as lower airway tract secretions
   on hycosamine
   -On Cefepime x 10 days for HAP
   # Neurologic decline:
   - Neuro following
   - IVIG Day [**3-14**] for possible [**Last Name (un) **] (brainstem) encephalitis
   - F/U final LP studies and other pending neuro labs
   # ARF: non oliguric renal failure (UOP250-300cc/hr), possibly ATN [**2-11**]
   hypotension with post ATN diuresis
   -S/p unremarkable renal ultrasound
   -Using IVIG cautiously
   -Renal c/s if not improving
   - Goal I/O even
   #HTN: Possibly due to autonomic instability from ongoing neuro event
   - BP control with [**Last Name (LF) 8376**], [**First Name3 (LF) **] titrate
   - Increase sedation
 adding propofol
   # Fever:
   - Pan culture
   - Broaden abx if clinical worsens/unstable
   # ACS:  NSTEMI
   -Cont ASA, plavix, statin, beta blocker
   -Off heparin now
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-6**] 04:36 AM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2154-07-07 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2154-7-6**] 09:42 AM
   one set from PICC line
 SPUTUM CULTURE - At [**2154-7-6**] 09:42 AM
 URINE CULTURE - At [**2154-7-6**] 09:42 AM
   -Neuro: repeat MRI during the week
   -UOP stable, pm Cr: 2.8
   -Significant autonomic instability with high BP readings, restarted
   propofol and pt did well. Increased metoprolol to 50 tid, gave 10 IV
   Labetalol with little effect than increased metoprolol to 100 mg tid. ?
   Need for gtt.
   -Continued oral secretions, decreased over the course of the day
   -Temp to 101 in am, cultured
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2154-7-6**] 03:00 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Labetalol - [**2154-7-6**] 11:10 PM
   Heparin Sodium (Prophylaxis) - [**2154-7-7**] 04:27 AM
   Propofol - [**2154-7-7**] 05:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-7**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.2
C (99
   HR: 95 (75 - 114) bpm
   BP: 178/86(108) {111/64(74) - 212/114(138)} mmHg
   RR: 14 (11 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
           Total In:
                                                                  3,193 mL
                                                                    985 mL
   PO:
           TF:
                                                                  1,810 mL
                                                                    501 mL
   IVF:
                                                                    504 mL
                                                                    178 mL
   Blood products:
                                                                    349 mL
                                                                    176 mL
   Total out:
                                                                  2,560 mL
                                                                    900 mL
   Urine:
                                                                  2,560 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    633 mL
                                                                     85 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 192 (192 - 809) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 38
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///27/
   Ve: 9.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal, Widely split )
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   o/w clear, Rhonchorous: Right base)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   275 K/uL
   11.9 g/dL
   175 mg/dL
   2.4 mg/dL
   27 mEq/L
   4.2 mEq/L
   62 mg/dL
   109 mEq/L
   144 mEq/L
   34.7 %
   15.8 K/uL
        [image002.jpg]
                             [**2154-7-3**]  12:54 AM
                             [**2154-7-3**]  04:45 AM
                             [**2154-7-4**]  03:27 AM
                             [**2154-7-4**]  10:03 AM
                             [**2154-7-4**]  05:02 PM
                             [**2154-7-4**]  09:27 PM
                             [**2154-7-5**]  03:35 AM
                             [**2154-7-6**]  04:31 AM
                             [**2154-7-6**]  04:54 PM
                             [**2154-7-7**]  03:49 AM
   WBC
   12.6
   14.2
   11.6
   13.4
   15.8
   Hct
   33.3
   34.4
   32.9
   33.0
   34.7
   Plt
   [**Telephone/Fax (3) 8464**]64
   275
   Cr
   0.6
   1.9
   2.6
   3.1
   3.6
   3.3
   2.8
   2.4
   TropT
   0.07
   TCO2
   32
   29
   Glucose
   111
   129
   103
   111
   122
   194
   202
   175
   Other labs: PT / PTT / INR:13.8/69.9/1.2, CK / CKMB /
   Troponin-T:80/14/0.07, Differential-Neuts:80.4 %, Lymph:12.7 %,
   Mono:5.2 %, Eos:1.5 %, Ca++:8.2 mg/dL, Mg++:2.5 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   65 year old male with acute neurologic decline now s/p aspiration event
   and intubation.
   # Aspiration/respiratory failure:  likely [**2-11**] aspiration and pooling
   secretions
   -hyoscamine w/o much effect, continue for now
   -maintain intubation while treating underlying cause w/ IVIG
   -renally dosed cefepime x 10 days
   - hold propofol and daily wake-ups
   # Neurologic decline:
   - f/u neuro recs
   - f/u EEG
   - MRI later this week
   -IVIG for possible [**Last Name (un) **] encephalitis to complete 5 days
   # Autonomic instability: likely secondary to neurologic problem.
   - start hydralazine q6 hours
   - increase metoprolol to QID
   - consider esmolol gtt
   # ARF: non oliguric renal failure, possibly having post ATN diuresis
   -UOP improving, check 5 p.m. lytes
   -maintain I/O even
   # ACS:  NSTEMI
   -cont ASA, plavix, statin, beta blocker
   # Leukocytosis:  stable, slightly higher , follow fever curve
   # Hypertension: related to level of sedation, given recent NSTEMI will
   use propofol for better sedation
    # Thrush: nystatin
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-7**] 06:24 AM 75 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2154-07-07 10:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 year old male with an acute demyelinating neuropathy admitted to ICU
   for respiratory failure related to aspiration event.
   24 Hour Events:
   continues to have elevated BP despite titration of medication, started
   on propofol for concern that hypertension related to agitation.  also
   w/ copious secretions from ETT, decreased w/ anticholinergic therapy.
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2154-7-6**] 03:00 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Labetalol - [**2154-7-6**] 11:10 PM
   Heparin Sodium (Prophylaxis) - [**2154-7-7**] 04:27 AM
   Propofol - [**2154-7-7**] 05:11 AM
   Other medications:
   Zoloft, Plavix, ASA, RISS, Zocor, Colace, thiamine, heparin SC,
   Cefepime, IVIg, Lopressor 100 tid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-7**] 10:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 95 (75 - 114) bpm
   BP: 196/106(129) {111/64(74) - 212/114(138)} mmHg
   RR: 11 (11 - 20) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
           Total In:
                                                                  3,193 mL
                                                                  1,756 mL
   PO:
           TF:
                                                                  1,810 mL
                                                                    744 mL
   IVF:
                                                                    504 mL
                                                                    266 mL
   Blood products:
                                                                    349 mL
                                                                    176 mL
   Total out:
                                                                  2,560 mL
                                                                  1,230 mL
   Urine:
                                                                  2,560 mL
                                                                  1,230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    633 mL
                                                                    526 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 200 (192 - 543) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 38
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: ///27/
   Ve: 9.8 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, disconjugate gaze
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Bronchial: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   11.9 g/dL
   275 K/uL
   175 mg/dL
   2.4 mg/dL
   27 mEq/L
   4.2 mEq/L
   62 mg/dL
   109 mEq/L
   144 mEq/L
   34.7 %
   15.8 K/uL
        [image002.jpg]
                             [**2154-7-3**]  12:54 AM
                             [**2154-7-3**]  04:45 AM
                             [**2154-7-4**]  03:27 AM
                             [**2154-7-4**]  10:03 AM
                             [**2154-7-4**]  05:02 PM
                             [**2154-7-4**]  09:27 PM
                             [**2154-7-5**]  03:35 AM
                             [**2154-7-6**]  04:31 AM
                             [**2154-7-6**]  04:54 PM
                             [**2154-7-7**]  03:49 AM
   WBC
   12.6
   14.2
   11.6
   13.4
   15.8
   Hct
   33.3
   34.4
   32.9
   33.0
   34.7
   Plt
   [**Telephone/Fax (3) 8464**]64
   275
   Cr
   0.6
   1.9
   2.6
   3.1
   3.6
   3.3
   2.8
   2.4
   TropT
   0.07
   TCO2
   32
   29
   Glucose
   111
   129
   103
   111
   122
   194
   202
   175
   Other labs: PT / PTT / INR:13.8/69.9/1.2, CK / CKMB /
   Troponin-T:80/14/0.07, Differential-Neuts:80.4 %, Lymph:12.7 %,
   Mono:5.2 %, Eos:1.5 %, Ca++:8.2 mg/dL, Mg++:2.5 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: Neuro workup- pending or negative
   Imaging: CXR- RML infiltrate, posss LLL infiltrate
   Microbiology: no positive cultures
   Assessment and Plan
   # Aspiration/respiratory failure: Remains intubated for airway
   protection despite tolerating PSV. Still with poor gag and cough though
   secretions have decreased. Today also with sedation related to propofol
   which was started for agitation and hypertension
   -Significant oral secretions as well as lower airway tract secretions
   on hycosamine
   -sedation holiday daily
   -On Cefepime x 10 days for HAP
   # Neurologic decline: acute demyelinating neuropathy/ brainstem
   encephalitis
   - Neuro following
   - IVIG Day [**4-14**] for possible [**Last Name (un) **] (brainstem) encephalitis
   - F/U final LP studies and other pending neuro labs
   # ARF: non oliguric renal failure (UOP250-300cc/hr), possibly ATN [**2-11**]
   hypotension with post ATN diuresis
   -S/p unremarkable renal ultrasound
   -Using IVIG cautiously
   -Renal c/s if not improving
   - Goal I/O even
   #HTN: Possibly due to autonomic instability from ongoing neuro event
   - BP control with [**Last Name (LF) 8376**], [**First Name3 (LF) **] titrate; may need hydralazine or another
   [**Doctor Last Name **] as well.
   - Increase sedation
 adding propofol
   # ACS:  NSTEMI
   -Cont ASA, plavix, statin, beta blocker
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-7**] 06:24 AM 75 mL/hour
   Comments: at goal
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2154-07-08 05:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2154-7-7**] 04:33 PM
 SPUTUM CULTURE - At [**2154-7-7**] 04:33 PM
 BLOOD CULTURED - At [**2154-7-7**] 04:34 PM
   from PICC
 BLOOD CULTURED - At [**2154-7-7**] 09:40 PM
   - cultured for temp 101
   - EEG without sz activity
   - d/c propofol in AM for wake up --> agitated --> back on propofol
   - BP labile to 180s, started IV hydralazine 20 mg and increased
   metoprolol Tartrate 100 mg PO QID
   - started nystatin for thrush
   - Cr improving
   - Neuro: no new recs
   - large clots in mouth, found to still be wearing upper dentures and
   oozing from soft/hard palates, pressure dressing applied
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2154-7-6**] 03:00 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2154-7-7**] 11:00 AM
   Heparin Sodium (Prophylaxis) - [**2154-7-7**] 08:10 PM
   Hydralazine - [**2154-7-8**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-8**] 05:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.2
C (98.9
   HR: 89 (73 - 106) bpm
   BP: 157/81(100) {138/61(80) - 204/125(146)} mmHg
   RR: 15 (8 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
           Total In:
                                                                  3,642 mL
                                                                    980 mL
   PO:
           TF:
                                                                  1,800 mL
                                                                    436 mL
   IVF:
                                                                    624 mL
                                                                    154 mL
   Blood products:
                                                                    297 mL
                                                                    229 mL
   Total out:
                                                                  2,750 mL
                                                                    660 mL
   Urine:
                                                                  2,750 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    892 mL
                                                                    320 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 173 (173 - 965) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: ///27/
   Ve: 9.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal, Widely split )
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Rhonchorous: Right base)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   267 K/uL
   11.3 g/dL
   202 mg/dL
   1.7 mg/dL
   27 mEq/L
   4.0 mEq/L
   73 mg/dL
   110 mEq/L
   145 mEq/L
   32.9 %
   14.9 K/uL
        [image002.jpg]
                             [**2154-7-4**]  03:27 AM
                             [**2154-7-4**]  10:03 AM
                             [**2154-7-4**]  05:02 PM
                             [**2154-7-4**]  09:27 PM
                             [**2154-7-5**]  03:35 AM
                             [**2154-7-6**]  04:31 AM
                             [**2154-7-6**]  04:54 PM
                             [**2154-7-7**]  03:49 AM
                             [**2154-7-7**]  04:35 PM
                             [**2154-7-8**]  03:49 AM
   WBC
   14.2
   11.6
   13.4
   15.8
   14.9
   Hct
   34.4
   32.9
   33.0
   34.7
   32.9
   Plt
   [**Telephone/Fax (3) 8470**]75
   267
   Cr
   1.9
   2.6
   3.1
   3.6
   3.3
   2.8
   2.4
   1.9
   1.7
   TCO2
   29
   Glucose
   129
   103
   111
   122
   194
   202
   175
   202
   Other labs: PT / PTT / INR:12.8/44.9/1.1, CK / CKMB /
   Troponin-T:80/14/0.07, Differential-Neuts:80.4 %, Lymph:12.7 %,
   Mono:5.2 %, Eos:1.5 %, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   65 year old male with acute neurologic decline now s/p aspiration event
   and intubation.
   # Aspiration/respiratory failure: likely [**2-11**] aspiration and pooling
   secretions
   -repeat sputum cx
   -hyoscamine w/o much effect, continue for now
   -maintain intubation while treating underlying cause w/ IVIG
   -renally dosed cefepime x 10 days (D1=[**6-30**])
   - hold propofol and daily wake-ups
   - start low-dose diuretic given 8L pos LOS with goal net neg for day
   # Neurologic decline: AMS persists despite IVIG
   - f/u neuro recs, will ask re: use of antipsychotic for agitation
   - f/u EEG
   - MRI later this week
   -IVIG for possible [**Last Name (un) **] encephalitis to complete 5 days,
   considering plasmapheresis
   # Autonomic instability: likely secondary to neurologic problem.
   - start hydralazine q6 hours
   - increase metoprolol to QID
   - low dose diuretic as above
   # ARF: non oliguric renal failure, possibly having post ATN diuresis
   -maintain I/O net neg for day on lasix gtt above
   -UOP improving, check 5 p.m. lytes in setting of diuresis
   # ACS:  NSTEMI
   -cont ASA, plavix, statin, beta blocker
   # Leukocytosis:  stable, slightly higher , follow fever curve
   # Hypertension: related to level of sedation, given recent NSTEMI will
   use propofol for better sedation
    # Thrush: nystatin
   # Bloody secretions: Likely secondary to oral trauma in setting of
   intubation w/ dentures in place, may be coming from upper palate
   - Monitor for now but consider ENT c/s if sutures needed
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-7**] 06:23 PM 75 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: Hep SQ
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2154-07-08 09:37:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo man with [**Last Name (un) **] encephalitis, respiratory failure.
   Febrile overnight
   24 Hour Events:
 SPUTUM CULTURE - At [**2154-7-7**] 04:33 PM
 URINE CULTURE - At [**2154-7-7**] 04:33 PM
 BLOOD CULTURED - At [**2154-7-7**] 04:34 PM
   from PICC
 BLOOD CULTURED - At [**2154-7-7**] 09:40 PM
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2154-7-8**] 03:00 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2154-7-7**] 11:00 AM
   Heparin Sodium (Prophylaxis) - [**2154-7-7**] 08:10 PM
   Hydralazine - [**2154-7-8**] 06:00 AM
   Other medications:
   lopressor
   plavix
   asa
   simvastatin
   atrovent
   SSI
   docusate
   chlorhexidine
   thiamine
   heparin
   hyoscyanamine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-8**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.8
C (98.3
   HR: 107 (73 - 107) bpm
   BP: 169/80(101) {138/61(80) - 204/125(146)} mmHg
   RR: 15 (8 - 21) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
           Total In:
                                                                  3,643 mL
                                                                  1,553 mL
   PO:
           TF:
                                                                  1,801 mL
                                                                    698 mL
   IVF:
                                                                    624 mL
                                                                    297 mL
   Blood products:
                                                                    297 mL
                                                                    229 mL
   Total out:
                                                                  2,750 mL
                                                                  1,130 mL
   Urine:
                                                                  2,750 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    893 mL
                                                                    423 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 733 (173 - 965) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 50
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: ///27/
   Ve: 12.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, +gag
   today
   Labs / Radiology
   11.3 g/dL
   267 K/uL
   202 mg/dL
   1.7 mg/dL
   27 mEq/L
   4.0 mEq/L
   73 mg/dL
   110 mEq/L
   145 mEq/L
   32.9 %
   14.9 K/uL
        [image002.jpg]
                             [**2154-7-4**]  03:27 AM
                             [**2154-7-4**]  10:03 AM
                             [**2154-7-4**]  05:02 PM
                             [**2154-7-4**]  09:27 PM
                             [**2154-7-5**]  03:35 AM
                             [**2154-7-6**]  04:31 AM
                             [**2154-7-6**]  04:54 PM
                             [**2154-7-7**]  03:49 AM
                             [**2154-7-7**]  04:35 PM
                             [**2154-7-8**]  03:49 AM
   WBC
   14.2
   11.6
   13.4
   15.8
   14.9
   Hct
   34.4
   32.9
   33.0
   34.7
   32.9
   Plt
   [**Telephone/Fax (3) 8470**]75
   267
   Cr
   1.9
   2.6
   3.1
   3.6
   3.3
   2.8
   2.4
   1.9
   1.7
   TCO2
   29
   Glucose
   129
   103
   111
   122
   194
   202
   175
   202
   Other labs: PT / PTT / INR:12.8/44.9/1.1, CK / CKMB /
   Troponin-T:80/14/0.07, Differential-Neuts:80.4 %, Lymph:12.7 %,
   Mono:5.2 %, Eos:1.5 %, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Respiratory failure:  Respiring well on PSV 5/5.  Limitation to
   extubation continues to be mental status along with ability to control
   airway
   and control secretions.
   Neuro:  [**Last Name (un) **] encephalitis, getting IVIG.  Unclear if he is
   improving as mental status is limiting exam
   Acute renal failure:  creatinine now improving.
   Acute MI:  Has been stable
   fever/leukocytosis:  unclear source.  follow up cultures.
   HTN: on lopressor
   oral secretions/blood.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-8**] 07:41 AM 75 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2154-07-09 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - seen by neurology who recommended repeat LP to send for flow
   cytometry and cytology.  Most recent procedure needed to be done by
   IR.  Will discuss with wife tomorrow at family meeting.
   - SW involved spoke to wife who will come in for family meeting
   tomorrow
   - Neurology recommendations at this time do not include additional
   therapy including steroids or plasmapheresis.  For now will wait for
   improvement with IVIG
   - Started on low dose haldol
   - Received lasix 10 mg IV x 1
   - Started on famotidine for stress ulcer prophylaxis
   - Blood pressures in 80s on new antihypertensive regimen.  Decreased
   hydralazine back to 10 mg IV Q6H and 75 QID of metoprolol with
   persistent hypotension so blood pressure medications currently being
   held
   - Started on vancomycin for [**1-13**] positive blood cultures from [**7-6**] with
   gram positive cocci in clusters from PICC line
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2154-7-9**] 02:03 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2154-7-8**] 11:45 AM
   Furosemide (Lasix) - [**2154-7-8**] 11:52 AM
   Hydralazine - [**2154-7-8**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2154-7-9**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-9**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38
C (100.4
   HR: 105 (82 - 107) bpm
   BP: 152/64(85) {86/38(50) - 169/80(101)} mmHg
   RR: 14 (10 - 25) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
           Total In:
                                                                  3,503 mL
                                                                  1,041 mL
   PO:
           TF:
                                                                  1,801 mL
                                                                    514 mL
   IVF:
                                                                    683 mL
                                                                    237 mL
   Blood products:
                                                                    409 mL
                                                                    170 mL
   Total out:
                                                                  2,092 mL
                                                                    437 mL
   Urine:
                                                                  2,092 mL
                                                                    437 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,411 mL
                                                                    604 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 719 (317 - 733) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 118
   PIP: 15 cmH2O
   SpO2: 94%
   ABG: ///27/
   Ve: 9.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal, Widely split )
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Rhonchorous: Right base)
   Abdominal: Soft, Non-tender, Bowel sounds present, Mildly Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: pain, but does not follow commands. Upgoing
   toes. Moving all extremities.  Pupils 6mm and reactive
   Labs / Radiology
   252 K/uL
   9.3 g/dL
   167 mg/dL
   2.4 mg/dL
   27 mEq/L
   3.9 mEq/L
   102 mg/dL
   110 mEq/L
   145 mEq/L
   28.3 %
   11.6 K/uL
        [image002.jpg]
                             [**2154-7-4**]  05:02 PM
                             [**2154-7-4**]  09:27 PM
                             [**2154-7-5**]  03:35 AM
                             [**2154-7-6**]  04:31 AM
                             [**2154-7-6**]  04:54 PM
                             [**2154-7-7**]  03:49 AM
                             [**2154-7-7**]  04:35 PM
                             [**2154-7-8**]  03:49 AM
                             [**2154-7-8**]  03:05 PM
                             [**2154-7-9**]  04:22 AM
   WBC
   11.6
   13.4
   15.8
   14.9
   11.6
   Hct
   32.9
   33.0
   34.7
   32.9
   28.3
   Plt
   [**Telephone/Fax (3) 8498**]67
   252
   Cr
   3.1
   3.6
   3.3
   2.8
   2.4
   1.9
   1.7
   1.7
   2.4
   TCO2
   29
   Glucose
   111
   122
   194
   [**Telephone/Fax (3) 8499**]
   214
   167
   Other labs: PT / PTT / INR:12.8/95.5/1.1, CK / CKMB /
   Troponin-T:80/14/0.07, Differential-Neuts:80.4 %, Lymph:12.7 %,
   Mono:5.2 %, Eos:1.5 %, Ca++:8.6 mg/dL, Mg++:2.6 mg/dL, PO4:3.5 mg/dL
   EEG
   Abnormal portable EEG due to the disorganized and mildly
   slow background throughout. This suggests a widespread encephalopathy.
   Medications, metabolic disturbances, and infection are among the most
   common causes. There were no areas of prominent focal slowing (although
   encephalopathies can mask focal findings). There were no epileptiform
   features.
   Assessment and Plan
   65 year old male with acute neurologic decline now s/p aspiration event
   and intubation.
   # Aspiration/respiratory failure: likely [**2-11**] aspiration and pooling
   secretions
   -repeat sputum cx also contaminated; consider bronch for better sample
   -hyoscamine w/ limited effect on secretions but continue for now
   -maintain intubation while treating underlying cause w/ IVIG
   -renally dosed cefepime x 10 days (D1=[**6-30**])
   - hold propofol and daily wake-ups
   - start low-dose diuretic given 8L pos LOS with goal net neg for day
   - Family meeting today for ? trach
   # Neurologic decline: EEG c/w widespresad encephalopathy but no
   epileptiform features. ? [**Last Name (un) **] encephalitis. AMS persists despite
   IVIG.
   - f/u neuro recs
   - family mtg to discuss repeat LP today to include flow cytometry and
   cytology
   - complete 5-day course of IVIG and monitor for improvement with no
   plan for additional therapy with steroids or plasmapheresis at this
   time
   - haldol prn for agitation
   # Autonomic instability/Hypertension: likely secondary to neurologic
   problem.  Seems to drop UOP with lablile BPs and Hypotension with
   scheduled hydral and metoprolol
   - change hydralazine PRN
   - Change metoprolol to 50mg QID
   - treat systolic of 180
   # ARF: non oliguric renal failure. Waxing and [**Doctor Last Name 533**] likely related to
   blood pressure, but clearly not continuously improving.
   -maintain I/O even to net neg
   - renal consult today
   - PM lytes
   -UOP improving with increasing BP
   # ACS:  NSTEMI
   -cont ASA, plavix, statin, beta blocker
   # Leukocytosis:  stable, slightly higher , follow fever curve
   # Thrush: nystatin
   # Bloody secretions: Likely secondary to oral trauma in setting of
   intubation w/ dentures in place, may be coming from upper palate
   - repeat PM Hct
   - Monitor for now but consider ENT c/s if sutures needed
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-8**] 08:59 PM 75 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: Famotidine
   VAP:  mouthwash, HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2154-07-09 10:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo man with demyelinating polyneuropathy.  Some HOTN overnight
   24 Hour Events:
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2154-7-9**] 02:03 AM
   Vancomycin - [**2154-7-9**] 08:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2154-7-8**] 11:45 AM
   Furosemide (Lasix) - [**2154-7-8**] 11:52 AM
   Hydralazine - [**2154-7-8**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2154-7-9**] 04:00 AM
   Other medications:
   Insulin SS
   levsin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-9**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.8
C (100.1
   HR: 109 (82 - 109) bpm
   BP: 137/49(71) {86/38(50) - 162/80(100)} mmHg
   RR: 15 (10 - 25) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
           Total In:
                                                                  3,503 mL
                                                                  1,594 mL
   PO:
           TF:
                                                                  1,801 mL
                                                                    769 mL
   IVF:
                                                                    683 mL
                                                                    505 mL
   Blood products:
                                                                    409 mL
                                                                    170 mL
   Total out:
                                                                  2,092 mL
                                                                    647 mL
   Urine:
                                                                  2,092 mL
                                                                    647 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,411 mL
                                                                    947 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 680 (317 - 719) mL
   PS : 10 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 118
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: ///27/
   Ve: 8.5 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   252 K/uL
   167 mg/dL
   2.4 mg/dL
   27 mEq/L
   3.9 mEq/L
   102 mg/dL
   110 mEq/L
   145 mEq/L
   28.3 %
   11.6 K/uL
        [image002.jpg]
                             [**2154-7-4**]  05:02 PM
                             [**2154-7-4**]  09:27 PM
                             [**2154-7-5**]  03:35 AM
                             [**2154-7-6**]  04:31 AM
                             [**2154-7-6**]  04:54 PM
                             [**2154-7-7**]  03:49 AM
                             [**2154-7-7**]  04:35 PM
                             [**2154-7-8**]  03:49 AM
                             [**2154-7-8**]  03:05 PM
                             [**2154-7-9**]  04:22 AM
   WBC
   11.6
   13.4
   15.8
   14.9
   11.6
   Hct
   32.9
   33.0
   34.7
   32.9
   28.3
   Plt
   [**Telephone/Fax (3) 8498**]67
   252
   Cr
   3.1
   3.6
   3.3
   2.8
   2.4
   1.9
   1.7
   1.7
   2.4
   TCO2
   29
   Glucose
   111
   122
   194
   [**Telephone/Fax (3) 8499**]
   214
   167
   Other labs: PT / PTT / INR:12.8/95.5/1.1, CK / CKMB /
   Troponin-T:80/14/0.07, Differential-Neuts:80.4 %, Lymph:12.7 %,
   Mono:5.2 %, Eos:1.5 %, Ca++:8.6 mg/dL, Mg++:2.6 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Respiratory failure:  due to inability to protect airway.  Will likely
   need trach - will discuss with family
   polyneuropathy:  completed IVIG.
   acute renal failure:  worsening renal failure in setting of HOTN
   overnight.  Increasing BUN.  Will allow BP to range higher in order to
   preserve renal perfusion
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-8**] 08:59 PM 75 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2154-07-10 06:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2154-7-10**] 04:29 AM
 FEVER - 101.4
F - [**2154-7-10**] 04:00 AM
   - Family meeting: family consented to trach/PEG and repeat LP.  They
   were updated on the prognosis of [**Last Name (un) 8413**] encephalitis as likely
   monophasic and should recover although will take time.
   - IP consulted for Trach/PEG and they noticed PTT was 95 (not on
   heparin gtt) likely contaminant from PICC - recheck in AM
   - Neuro: Recommend LP with flow cytometry and cytology: samples need to
   be hand-delivered to heme-path ... located next door to the clinical
   core labs on [**Hospital Ward Name 8517**] 3.  He is scheduled for IR guided LP on [**7-10**]
   Also recommended to start IV methylprednisolone 1 gm daily x 5 days.
   - Renal consulted, but no recs found.
   - Hydral changed to PRN and Metoprolol reduced to 50 mg QID.
   - PM lytes likely diluted from PICC - resent from peripheral stick and
   was hypernatremic -> increased free water flushes to 200 cc q6 hrs.
   - Pt spiked to 101.4 -> pan cx sent
   - Hyperglycemic so SSI adjusted
   - Heparin SQ changed to [**Hospital1 7**] for elevated PTT
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2154-7-9**] 08:00 AM
   Cefipime - [**2154-7-10**] 02:09 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-7-10**] 04:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-10**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 104 (83 - 109) bpm
   BP: 170/80(102) {123/48(65) - 170/85(103)} mmHg
   RR: 21 (14 - 23) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 104.6 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  3,134 mL
                                                                    892 mL
   PO:
             TF:
                                                                  1,813 mL
                                                                    444 mL
   IVF:
                                                                    881 mL
                                                                    219 mL
   Blood products:
                                                                    170 mL
   Total out:
                                                                  2,402 mL
                                                                  1,020 mL
   Urine:
                                                                  2,352 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    732 mL
                                                                   -128 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 560 (560 - 858) mL
   PS : 8 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 13 cmH2O
   SpO2: 95%
   ABG: ///29/
   Ve: 11.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, does not open
   eyes to voice or follow commands
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: Regular rate and rhythm, normal s1 and s2, no murmurs,
   rubs, gallops
   Respiratory / Chest:  Coarse breath sounds bilaterally anteriorly, no
   clear wheezes, or ronchi
   Abdominal: Soft, Bowel sounds present, mildly distended
   Extremities: warm, well perfused, 1+ pulses, 1+ edema in both upper and
   lower extremities
   Skin:  No jaundice or rashes
   Neurologic: Actively resists opening eyes, pupils are equal and
   reactive, ocular muscles are intact, withdraws feet to pain but not
   arms
   Labs / Radiology
   322 K/uL
   9.9 g/dL
   290 mg/dL
   1.8 mg/dL
   29 mEq/L
   4.3 mEq/L
   101 mg/dL
   116 mEq/L
   154 mEq/L
   31.3 %
   11.6 K/uL
        [image002.jpg]
                             [**2154-7-6**]  04:31 AM
                             [**2154-7-6**]  04:54 PM
                             [**2154-7-7**]  03:49 AM
                             [**2154-7-7**]  04:35 PM
                             [**2154-7-8**]  03:49 AM
                             [**2154-7-8**]  03:05 PM
                             [**2154-7-9**]  04:22 AM
                             [**2154-7-9**]  02:31 PM
                             [**2154-7-9**]  06:31 PM
                             [**2154-7-10**]  03:47 AM
   WBC
   13.4
   15.8
   14.9
   11.6
   11.6
   Hct
   33.0
   34.7
   32.9
   28.3
   28.9
   31.3
   Plt
   [**Telephone/Fax (3) 8518**]52
   322
   Cr
   3.3
   2.8
   2.4
   1.9
   1.7
   1.7
   2.4
   1.9
   1.9
   1.8
   Glucose
   194
   202
   175
   [**Telephone/Fax (2) 8519**]96
   290
   Other labs: PT / PTT / INR:14.1/48.9/1.2, CK / CKMB /
   Troponin-T:80/14/0.07, Differential-Neuts:80.4 %, Lymph:12.7 %,
   Mono:5.2 %, Eos:1.5 %, Ca++:8.9 mg/dL, Mg++:2.6 mg/dL, PO4:2.8 mg/dL
   Portable CXR [**2154-7-9**]: Increased opacity in the right lung base which
   may be due to aspiration or pneumonia.  Left retrocardiac opacity is
   slightly increased.  There is probably small left pleural effusion.  ET
   but terminates 2.1 cm above the carina and the balloon is overexpanded
   beyond the confines of the trachea.
   Microbiology:
[**2154-7-6**]: Blood Culture, Routine (Preliminary):
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    ISOLATED FROM ONE SET ONLY.
   [**2154-7-9**]: sputum contaminated
   [**2154-7-10**]: sputum pending
   [**2154-7-9**]: blood and urine cultures pending
   Assessment and Plan
   65 year old male with acute neurologic decline currently attributed to
   [**Last Name (un) 8413**] encephalitis  now s/p aspiration event and intubation.
   Aspiration Pneumonia/Respiratory Failure:  Thought to be secondary to
   aspiration and pooling secretions although recent chest xrays actually
   appear worse with increasing opacification the right lower lobe.
   Continues to be febrile.  Has been on cefepime since [**2154-7-5**] for
   presumed aspiration pneumonia with plan to d/c today. Currently doing
   well from a respiratory perspective without significantly increased
   secretions.  Currently on pressure support [**8-14**].  Will attempt daily
   wakeup and RSBI today.
   - ? antibiotics
   - repeat sputum culture
   - continue hyoscamine
   - RSBI today
   - daily wakeups
   - currently making good urine and with acute renal failure so will hold
   on further diuresis
   - plan for tracheostomy and PEG placement this week secondary to poor
   neurologic status
   Fevers: Unclear etiology.  Continues to spike fevers daily for the past
   three days.  Initially concern for positive blood culture but
   speciation reveals coag negative staph and now off all antibiotics.
   Most likely etiology is pneumonia given the appearance of his chest
   xray.  Urine and blood cultures negative to date.  No recent stool
   cultures sent.  Drug fever (likely from cefepime) also considered in
   the differential.  [**Month (only) 51**] also have fevers from autonomic instability but
   this should be a diagnosis of exclusion.
   - ? antibiotics.
   - resend c. diff
   - follow cultures
   - LP today
   Neurologic decline: EEG c/w widespresad encephalopathy but no
   epileptiform features. Most likely diagnosis per neurology is
   [**Last Name (un) **] encephalitis. AMS persists despite IVIG.  Currently
   withdraws to painful stimuli in the legs but not  in the arms.
   - f/u neuro recs
   - plan for repeat LP today to include flow cytometry and cytology
   - now has completed a 5 day course of IVIG with no significant
   improvement noted at present
   - now also receiving high dose steroids
   - haldol prn for agitation
   Autonomic instability/Hypertension: likely secondary to neurologic
   disease.  Seems to drop UOP with lablile BPs and hypotension.  Urine
   output improved overnight with improved hypotension.
   - continue hydralazine PRN for SBPs > 180
   - continue metoprolol to 50mg QID
   - treat systolic of 180
   Acute Renal Failure:  Creatinine improved today, also with improved
   urine output.  Likely related to hypotension and fluctuating blood
   pressures.  Renal consulted yesterday.
   - more liberal blood pressure management
   - renal consult pending
   -UOP improving with increasing BP
   - renally dose medications, trend creatinine
   ACS:  NSTEMI
   -cont ASA, plavix, statin, beta blocker
   Leukocytosis:  stable, slightly higher , follow fever curve
   Thrush: nystatin
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-9**] 11:23 PM 75 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2154-07-10 09:15:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo man with demyelinating polyneuropathy.  Started steroids
   yesterday.  Awaiting trach and PEG.
   24 Hour Events:
 PAN CULTURE - At [**2154-7-10**] 04:29 AM
 FEVER - 101.4
F - [**2154-7-10**] 04:00 AM
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2154-7-9**] 08:00 AM
   Cefipime - [**2154-7-10**] 02:09 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-7-10**] 04:33 AM
   Other medications:
   ASA
   Plavix
   atrovent
   simvastatin
   SSI
   colace
   chlorhexidine
   thiamine
   hyocyamine
   propofol
   lopressor
   protonix
   medrol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-10**] 09:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.3
C (101
   HR: 103 (86 - 110) bpm
   BP: 173/82(104) {127/53(72) - 176/85(106)} mmHg
   RR: 19 (16 - 23) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 104.6 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  3,134 mL
                                                                  1,396 mL
   PO:
             TF:
                                                                  1,813 mL
                                                                    525 mL
   IVF:
                                                                    881 mL
                                                                    281 mL
   Blood products:
                                                                    170 mL
   Total out:
                                                                  2,402 mL
                                                                  1,530 mL
   Urine:
                                                                  2,352 mL
                                                                  1,530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    732 mL
                                                                   -134 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 381 (381 - 858) mL
   PS : 8 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 92
   RSBI Deferred: RR >35
   PIP: 13 cmH2O
   SpO2: 96%
   ABG: ///29/
   Ve: 6.7 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, was moving feet on command
   Labs / Radiology
   9.9 g/dL
   322 K/uL
   290 mg/dL
   1.8 mg/dL
   29 mEq/L
   4.3 mEq/L
   101 mg/dL
   116 mEq/L
   154 mEq/L
   31.3 %
   11.6 K/uL
        [image002.jpg]
                             [**2154-7-6**]  04:31 AM
                             [**2154-7-6**]  04:54 PM
                             [**2154-7-7**]  03:49 AM
                             [**2154-7-7**]  04:35 PM
                             [**2154-7-8**]  03:49 AM
                             [**2154-7-8**]  03:05 PM
                             [**2154-7-9**]  04:22 AM
                             [**2154-7-9**]  02:31 PM
                             [**2154-7-9**]  06:31 PM
                             [**2154-7-10**]  03:47 AM
   WBC
   13.4
   15.8
   14.9
   11.6
   11.6
   Hct
   33.0
   34.7
   32.9
   28.3
   28.9
   31.3
   Plt
   [**Telephone/Fax (3) 8518**]52
   322
   Cr
   3.3
   2.8
   2.4
   1.9
   1.7
   1.7
   2.4
   1.9
   1.9
   1.8
   Glucose
   194
   202
   175
   [**Telephone/Fax (2) 8519**]96
   290
   Other labs: PT / PTT / INR:14.1/48.9/1.2, CK / CKMB /
   Troponin-T:80/14/0.07, Differential-Neuts:80.4 %, Lymph:12.7 %,
   Mono:5.2 %, Eos:1.5 %, Ca++:8.9 mg/dL, Mg++:2.6 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Respiratory failure:  Aspiration PNA:  completed course of cefepime
   to get trach and PEG today
   [**Last Name (un) **] encephalitis:  To get repeat LP today
   acute renal failure:  creatinine improved with higher BP
   NSTEMI:  ASA and plavix
   fever:  unclear source.  susequent blood cultures all negative.  Will
   stop antibiotics and reassess
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2154-07-11 06:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Leukocytosis better but still elevated. Diff 93% polys, no bands in
   setting of steroids. C. diff ordered.
   - Neuro: F/u GQ1b Ab testing and CSF studies. No change in plan.
   - IR-guided LP done. Does note appear infectious. WBC 3, RBC 6, 0 poly,
   69 L, 0 M, 1 atyp, 25 macrophage, 5 other. Prot 28, Gluc 154.
   - Coffee ground emesis from NGT noted. Held tube feeds. Flushes changed
   to D5W IV. Placed back on IV PPI and lopressor changed to OR. 3pm
   Hct...
   - Renal: Hypernatremia likely [**2-11**] dehydration from decreased po,
   insensible losses and post-ATN diuresis (partial nephro DI). IV fluids
   increased to D5W @ 100cc/h. 3pm Na increased to 156 so added 100cc/h
   free water via NGT. Further increased to 200cc/h as 9pm Na 157. 3am Na
   153.
   - FSG elevated
   - Discontinued hyoscamine
   - Trach/PEG unable to be done as plavix needs to be held x 7 days;
   plavix held.
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2154-7-9**] 08:00 AM
   Cefipime - [**2154-7-10**] 02:09 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2154-7-11**] 01:06 AM
   Metoprolol - [**2154-7-11**] 01:58 AM
   Heparin Sodium (Prophylaxis) - [**2154-7-11**] 04:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-11**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.6
C (99.7
   HR: 86 (75 - 110) bpm
   BP: 154/71(91) {133/43(74) - 176/89(109)} mmHg
   RR: 12 (12 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.6 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  3,241 mL
                                                                  1,914 mL
   PO:
             TF:
                                                                    525 mL
   IVF:
                                                                  1,526 mL
                                                                    714 mL
   Blood products:
   Total out:
                                                                  3,580 mL
                                                                  1,310 mL
   Urine:
                                                                  3,580 mL
                                                                  1,310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -339 mL
                                                                    604 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 581 (381 - 855) mL
   PS : 8 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 93
   PIP: 13 cmH2O
   SpO2: 96%
   ABG: ///30/
   Ve: 7.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, does not open
   eyes to voice or follow commands
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: Regular rate and rhythm, normal s1 and s2, no murmurs,
   rubs, gallops
   Respiratory / Chest:  Coarse breath sounds bilaterally anteriorly, no
   clear wheezes, or ronchi
   Abdominal: Soft, Bowel sounds present, mildly distended
   Extremities: warm, well perfused, 1+ pulses, 1+ edema in both upper and
   lower extremities
   Skin:  No jaundice or rashes
   Neurologic: Actively resists opening eyes, pupils are equal and
   reactive, ocular muscles are intact, withdraws feet to pain but not
   arms
   Imaging:
   CXR Portable [**2154-7-10**]: Persistent bibasilar atelectasis.  Endotracheal
   tube is 2.5 cm from the carina.  NG tube cannot be adequately assessed.
   Microbiology:
GRAM STAIN (Final [**2154-7-10**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      NO MICROORGANISMS SEEN.
[**2154-7-10**] 4:03 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2154-7-10**]):
      >25 PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
   [**2154-7-10**] Blood and urine cultures no growth to date
   Labs / Radiology
   292 K/uL
   8.9 g/dL
   257 mg/dL
   1.6 mg/dL
   30 mEq/L
   4.0 mEq/L
   84 mg/dL
   115 mEq/L
   153 mEq/L
   28.1 %
   14.6 K/uL
        [image002.jpg]
                             [**2154-7-7**]  03:49 AM
                             [**2154-7-7**]  04:35 PM
                             [**2154-7-8**]  03:49 AM
                             [**2154-7-8**]  03:05 PM
                             [**2154-7-9**]  04:22 AM
                             [**2154-7-9**]  02:31 PM
                             [**2154-7-9**]  06:31 PM
                             [**2154-7-10**]  03:47 AM
                             [**2154-7-10**]  03:37 PM
                             [**2154-7-11**]  02:39 AM
   WBC
   15.8
   14.9
   11.6
   11.6
   14.6
   Hct
   34.7
   32.9
   28.3
   28.9
   31.3
   29.5
   28.1
   Plt
   275
   267
   252
   322
   292
   Cr
   2.4
   1.9
   1.7
   1.7
   2.4
   1.9
   1.9
   1.8
   1.6
   Glucose
   175
   202
   214
   167
   185
   196
   290
   257
   Other labs: PT / PTT / INR:14.0/50.1/1.2, CK / CKMB /
   Troponin-T:80/14/0.07, Differential-Neuts:96.0 %, Band:0.0 %, Lymph:3.0
   %, Mono:1.0 %, Eos:0.0 %, Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   65 year old male with acute neurologic decline currently attributed to
   [**Last Name (un) 8413**] encephalitis now s/p aspiration event and intubation.
   Aspiration Pneumonia/Respiratory Failure:  Thought to be secondary to
   aspiration and pooling secretions.  CXR notable for persistent
   atelectasis.  Currently on pressure support [**8-14**].  Off antibiotics.
   Long term plan for trach but unable to do so until plavix has been off
   for seven days.
   - follow sputum culture from [**2154-7-10**]
   - plan for tracheostomy after seven days off plavix
   - continue daily wakeup and RSBI
   Fevers/leukocytosis: Unclear etiology.  Continues to spike fevers
   daily.  No recent positive blood cultures.  Now off antibiotics.  Urine
   and blood cultures negative to date.  C. diff pending.  Sputum culture
   from yesterday pending.  Drug fever or fever from autonomic instability
   also possible.  PE/DVT less likely although must remain in the
   differential.  Differential from yesterday with left shift although
   this may also be from high dose steroids.
   - holding antibiotics
   - resend c. diff
   - follow cultures
   - LP yesterday without evidence of infection but will follow culture
   - LENIs for ? DVT
   Neurologic decline: EEG c/w widespresad encephalopathy but no
   epileptiform features. Most likely diagnosis per neurology is
   [**Last Name (un) **] encephalitis. AMS persists despite IVIG.  Repeat LP
   yesterday with samples sent for cytometry and cytology.   Per
   neurology, following commands and exam improved.
   - f/u neuro recs
   - follow LP cytology and cytometry
   - continue high dose steroids day 3
   - haldol prn for agitation
   Autonomic instability/Hypertension: likely secondary to neurologic
   disease.  Seems to drop UOP with lablile BPs and hypotension.  Urine
   output improved with higher blood pressures.
   - continue hydralazine PRN for SBPs > 180
   - continue metoprolol to 50mg QID
   - treat systolic of 180
   Hypernatremia:  Serum sodium difficult to control despite free water
   flushes per NGT.  Urine osms 441 not decreased.
   - continue D5W and free water flushes per NGT
   - [**Hospital1 7**] sodium checks
   Acute Renal Failure:  Creatinine improved today to 1.6, also with
   improved urine output.  Likely related to hypotension and fluctuating
   blood pressures.
   - more liberal blood pressure management
   - appreciate renal recommendations
   - UOP improving with increasing BP
   - renally dose medications, trend creatinine
   ACS:  NSTEMI
   -cont ASA, statin, beta blocker
   - d/c plavix given plans for trach
   Coffee Ground Emesis:  Patient with a single episode of coffee grounds
   noted in NGT yesterday after LP.  Hematocrit stable.
   - IV PPI [**Hospital1 7**]
   - [**Hospital1 7**] hematocrits
   - d/c plavix
   Leukocytosis: stable, slightly higher , follow fever curve
   - Check diff
   Thrush: nystatin
   ICU Care
   Nutrition:  Resume tube feeds
   Glycemic Control: ISS
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: SQ heparin [**Hospital1 **]
   Stress ulcer: PPI
   VAP:  HOB elevation, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2154-07-11 10:29:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo man with [**Last Name (un) **] encephalitis.  Continued fevers
   overnight.  Repeat LP yesterday with only 3 WBCx
   24 Hour Events:
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2154-7-9**] 08:00 AM
   Cefipime - [**2154-7-10**] 02:09 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2154-7-11**] 01:06 AM
   Heparin Sodium (Prophylaxis) - [**2154-7-11**] 04:24 AM
   Metoprolol - [**2154-7-11**] 08:20 AM
   Other medications:
   asa
   zoloft
   zocor
   SSI
   chlorhexidine
   thiamine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-11**] 10:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.2
C (99
   HR: 76 (75 - 104) bpm
   BP: 160/71(94) {133/43(74) - 171/87(103)} mmHg
   RR: 13 (12 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.6 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  3,241 mL
                                                                  3,192 mL
   PO:
             TF:
                                                                    525 mL
   IVF:
                                                                  1,526 mL
                                                                  1,132 mL
   Blood products:
   Total out:
                                                                  3,580 mL
                                                                  1,695 mL
   Urine:
                                                                  3,580 mL
                                                                  1,695 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -339 mL
                                                                  1,497 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 361 (361 - 855) mL
   PS : 8 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 93
   PIP: 13 cmH2O
   SpO2: 97%
   ABG: ///30/
   Ve: 7.6 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   292 K/uL
   257 mg/dL
   1.6 mg/dL
   30 mEq/L
   4.0 mEq/L
   84 mg/dL
   115 mEq/L
   153 mEq/L
   28.1 %
   14.6 K/uL
        [image002.jpg]
                             [**2154-7-7**]  03:49 AM
                             [**2154-7-7**]  04:35 PM
                             [**2154-7-8**]  03:49 AM
                             [**2154-7-8**]  03:05 PM
                             [**2154-7-9**]  04:22 AM
                             [**2154-7-9**]  02:31 PM
                             [**2154-7-9**]  06:31 PM
                             [**2154-7-10**]  03:47 AM
                             [**2154-7-10**]  03:37 PM
                             [**2154-7-11**]  02:39 AM
   WBC
   15.8
   14.9
   11.6
   11.6
   14.6
   Hct
   34.7
   32.9
   28.3
   28.9
   31.3
   29.5
   28.1
   Plt
   275
   267
   252
   322
   292
   Cr
   2.4
   1.9
   1.7
   1.7
   2.4
   1.9
   1.9
   1.8
   1.6
   Glucose
   175
   202
   214
   167
   185
   196
   290
   257
   Other labs: PT / PTT / INR:14.0/50.1/1.2, CK / CKMB /
   Troponin-T:80/14/0.07, Differential-Neuts:96.0 %, Band:0.0 %, Lymph:3.0
   %, Mono:1.0 %, Eos:0.0 %, Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Respiratory failure:  will continue to try and wean as trach will be
   significantly delayed due to plavix.
   fevers:  continued fevers, all cultures have been negative.  have not
   checked C. diff.  Can check LENIS
   [**Last Name (un) **] encephalitis:  Was moving all four extremeties
   coffee ground emesis:  one episode overnight
   renal failure:  improving creatinine,  hypernatremia likely  due to
   losses.  Continue free water repletion
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2154-07-12 06:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Renal: 6L volume down (cont current free water repletion rate).
   Recheck urine lytes/osms. Differential diagnosis for hypernatremia
   includes diabetes insipidus (likely central) versus post-ATN diuresis.
   If no improvement will need to consider DDAVP trial
   - Continues on high dose solumedrol per neurology
   - Bilateral lower extremity ultrasound were negative for DVT
   - Had second episode of coffee ground emesis
   - Still unable to send C. diff
   - Started on lantus 20 U daily for hyperglycemia
   - overnight had worsening hypoxia and discomfort and was placed on AC
   with improvement.  CXR overnight was unchanged.
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2154-7-9**] 08:00 AM
   Cefipime - [**2154-7-10**] 02:09 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2154-7-11**] 10:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-12**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.8
   HR: 63 (62 - 106) bpm
   BP: 111/55(69) {90/51(60) - 179/85(105)} mmHg
   RR: 12 (10 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.6 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  8,009 mL
                                                                    768 mL
   PO:
             TF:
   IVF:
                                                                  3,199 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                  3,210 mL
                                                                    600 mL
   Urine:
                                                                  3,210 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,799 mL
                                                                    168 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 600 (217 - 916) mL
   PS : 8 cmH2O
   RR (Set): 12
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   Compliance: 28.9 cmH2O/mL
   SpO2: 96%
   ABG: 7.37/52/60//2
   Ve: 8.3 L/min
   PaO2 / FiO2: 120
   Physical Examination
   General Appearance: Well nourished, No acute distress, does not open
   eyes to voice or follow commands
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: Regular rate and rhythm, normal s1 and s2, no murmurs,
   rubs, gallops
   Respiratory / Chest:  Coarse breath sounds bilaterally anteriorly, no
   clear wheezes, or ronchi
   Abdominal: Soft, Bowel sounds present, mildly distended
   Extremities: warm, well perfused, 1+ pulses, 1+ edema in both upper and
   lower extremities
   Skin:  No jaundice or rashes
   Neurologic: Actively resists opening eyes, pupils are equal and
   reactive, ocular muscles are intact, withdraws feet to pain but not
   arms
   Labs / Radiology
   292 K/uL
   8.9 g/dL
   257 mg/dL
   1.6 mg/dL
   30 mEq/L
   4.0 mEq/L
   84 mg/dL
   115 mEq/L
   148 mEq/L
   28.3 %
   14.6 K/uL
        [image002.jpg]
                             [**2154-7-8**]  03:49 AM
                             [**2154-7-8**]  03:05 PM
                             [**2154-7-9**]  04:22 AM
                             [**2154-7-9**]  02:31 PM
                             [**2154-7-9**]  06:31 PM
                             [**2154-7-10**]  03:47 AM
                             [**2154-7-10**]  03:37 PM
                             [**2154-7-11**]  02:39 AM
                             [**2154-7-11**]  12:32 PM
                             [**2154-7-11**]  03:24 PM
   WBC
   14.9
   11.6
   11.6
   14.6
   Hct
   32.9
   28.3
   28.9
   31.3
   29.5
   28.1
   28.3
   Plt
   [**Telephone/Fax (3) 8556**]92
   Cr
   1.7
   1.7
   2.4
   1.9
   1.9
   1.8
   1.6
   TCO2
   31
   Glucose
   [**Telephone/Fax (3) **]85
   196
   290
   257
   Other labs: PT / PTT / INR:14.0/50.1/1.2, CK / CKMB /
   Troponin-T:80/14/0.07, Differential-Neuts:96.0 %, Band:0.0 %, Lymph:3.0
   %, Mono:1.0 %, Eos:0.0 %, Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.8 mg/dL
   Imaging: Bilateral Lower Extremity Ultrasounds: All the deep veins of
   both the right and left lower extremity show normal compressibility
   from the groin to below the popliteal bifurcation bilaterally. Color
   flow and pulse Doppler waveforms were normal throughout.
   Microbiology: [**2154-7-10**]: Blood, urine, sputum, CSF cultures all negative
   to date
   Assessment and Plan
 HYPERGLYCEMIA
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 ANXIETY
 GRIEVING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   65 year old male with acute neurologic decline currently attributed to
   [**Last Name (un) 8413**] encephalitis now s/p aspiration event and intubation.
   Aspiration Pneumonia/Respiratory Failure:  Thought to be secondary to
   aspiration and pooling secretions.  CXR notable for persistent
   atelectasis.   Overnight had worsening respiratory distress and
   hypoxia.  CXR last night without significant worsening.  Switched back
   to AC overnight with 50% FiO2.  Off antibiotics.  Long term plan for
   trach but unable to do so until plavix has been off for seven days.
   - follow sputum culture from [**2154-7-10**]
   - repeat ABG this morning
   - plan for tracheostomy after seven days off plavix
   - will attempt to wean back to pressure support today
   Fevers/leukocytosis: Not febrile for past 24 hours.  Unclear etiology.
   No recent positive blood cultures.  Now off antibiotics.  Urine and
   blood cultures negative to date.  C. diff pending.  Sputum culture from
   [**2154-7-10**]  pending.  Drug fever or fever from autonomic instability also
   possible.  He had negative lower extremity  ultrasounds yesterday.
   Differential from [**2154-7-10**] with left shift although this may also be from
   high dose steroids.
   - holding antibiotics
   - resend c. diff
   - follow cultures
   - LP without evidence of infection but will follow culture
   Neurologic decline: EEG c/w widespresad encephalopathy but no
   epileptiform features. Most likely diagnosis per neurology is
   [**Last Name (un) **] encephalitis. AMS persists despite IVIG.  Repeat LP [**2154-7-10**]
   with samples sent for cytometry and cytology.   Per neurology,
   following commands and exam improved.
   - f/u neuro recs
   - follow LP cytology and cytometry
   - continue high dose steroids day 4
   - haldol prn for agitation
   Autonomic instability/Hypertension: likely secondary to neurologic
   disease.  Seems to drop UOP with lablile BPs and hypotension.  Urine
   output improved with higher blood pressures.
   - continue hydralazine PRN for SBPs > 180
   - continue metoprolol to 50mg QID
   - treat systolic of 180
   Hypernatremia:  Serum sodium difficult to control despite free water
   flushes per NGT.  Urine osms 468 yesterday.  Differential diagnosis
   includes post-ATN diuresis versus diabetes insipidus.
   - continue D5W
   - free water flushes per NGT currently on hold given worsening
   respiratory status but can restart
   - [**Hospital1 7**] sodium checks
   Acute Renal Failure:  Creatinine improved today to 1.3, also with
   increased urine output.  Likely related to hypotension and fluctuating
   blood pressures.
   - more liberal blood pressure management
   - appreciate renal recommendations
   - UOP improving with increasing BP
   - renally dose medications, trend creatinine
   ACS:  NSTEMI
   -cont ASA, statin, beta blocker
   - d/c plavix given plans for trach
   Coffee Ground Emesis:  Patient with a single episode of coffee grounds
   noted in NGT yesterday after LP.  Hematocrit slightly decreased this
   morning at 25.3 from 28.1.
   - IV PPI [**Hospital1 7**]
   - [**Hospital1 7**] hematocrits
   - d/c plavix
   Thrush: nystatin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: SQ heparin [**Hospital1 **]
   Stress ulcer: PPI
   VAP:  HOB elevation, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2154-07-12 09:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Worsening respiratory status overnight: Changed to A/C and FiO2
   increased from 0.4 to 0.5; CXR unchanged
   - Intermittent coffee ground emesis from NGT
   - Afebrile x 24 hours
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2154-7-10**] 02:09 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2154-7-11**] 10:04 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-12**] 09:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 98 (62 - 106) bpm
   BP: 156/83(102) {90/51(60) - 179/85(105)} mmHg
   RR: 14 (10 - 20) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.6 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  8,009 mL
                                                                    922 mL
   PO:
             TF:
   IVF:
                                                                  3,199 mL
                                                                    252 mL
   Blood products:
   Total out:
                                                                  3,210 mL
                                                                    980 mL
   Urine:
                                                                  3,210 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,799 mL
                                                                    -58 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 600 (217 - 916) mL
   PS : 8 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 19 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 91%
   ABG: 7.37/52/60/30/2
   Ve: 7.1 L/min
   PaO2 / FiO2: 120
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   327 K/uL
   372
   1.3 mg/dL
   30 mEq/L
   4.0 mEq/L
   61 mg/dL
   102 mEq/L
   140 mEq/L
   25.3 %
   14.3 K/uL
        [image002.jpg]
                             [**2154-7-8**]  03:05 PM
                             [**2154-7-9**]  04:22 AM
                             [**2154-7-9**]  02:31 PM
                             [**2154-7-9**]  06:31 PM
                             [**2154-7-10**]  03:47 AM
                             [**2154-7-10**]  03:37 PM
                             [**2154-7-11**]  02:39 AM
                             [**2154-7-11**]  12:32 PM
                             [**2154-7-11**]  03:24 PM
                             [**2154-7-12**]  05:22 AM
   WBC
   11.6
   11.6
   14.6
   14.3
   Hct
   28.3
   28.9
   31.3
   29.5
   28.1
   28.3
   25.3
   Plt
   [**Telephone/Fax (3) 8559**]27
   Cr
   1.7
   2.4
   1.9
   1.9
   1.8
   1.6
   1.3
   TCO2
   31
   Glucose
   [**Telephone/Fax (3) **]96
   290
   257
   372
   Other labs: PT / PTT / INR:13.7/49.7/1.2, CK / CKMB /
   Troponin-T:80/14/0.07, Differential-Neuts:96.0 %, Band:0.0 %, Lymph:3.0
   %, Mono:1.0 %, Eos:0.0 %, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   65 year old male with acute neurologic decline currently attributed to
   [**Last Name (un) 8413**] encephalitis now s/p aspiration event and intubation.
   Aspiration Pneumonia/Respiratory Failure:  Thought to be secondary to
   aspiration and pooling secretions.  CXR notable for persistent
   atelectasis.   Overnight had worsening respiratory distress and
   hypoxia.  CXR last night without significant worsening.  Switched back
   to AC overnight with 50% FiO2.  Off antibiotics.  Long term plan for
   trach but unable to do so until plavix has been off for seven days.
   - follow sputum culture from [**2154-7-10**]
   - repeat ABG this morning
   - plan for tracheostomy after seven days off plavix
   - will attempt to wean back to pressure support today
   Fevers/leukocytosis: Not febrile for past 24 hours.  Unclear etiology.
   No recent positive blood cultures.  Now off antibiotics.  Urine and
   blood cultures negative to date.  C. diff pending.  Sputum culture from
   [**2154-7-10**]  pending.  Drug fever or fever from autonomic instability also
   possible.  He had negative lower extremity  ultrasounds yesterday.
   Differential from [**2154-7-10**] with left shift although this may also be from
   high dose steroids.
   - holding antibiotics
   - resend c. diff
   - follow cultures
   - LP without evidence of infection but will follow culture
   Neurologic decline: EEG c/w widespresad encephalopathy but no
   epileptiform features. Most likely diagnosis per neurology is
   [**Last Name (un) **] encephalitis. AMS persists despite IVIG.  Repeat LP [**2154-7-10**]
   with samples sent for cytometry and cytology.   Per neurology,
   following commands and exam improved.
   - f/u neuro recs
   - follow LP cytology and cytometry
   - continue high dose steroids day 4
   - haldol prn for agitation
   Autonomic instability/Hypertension: likely secondary to neurologic
   disease.  Seems to drop UOP with lablile BPs and hypotension.  Urine
   output improved with higher blood pressures.
   - continue hydralazine PRN for SBPs > 180
   - continue metoprolol to 50mg QID
   - treat systolic of 180
   Hypernatremia:  Serum sodium difficult to control despite free water
   flushes per NGT.  Urine osms 468 yesterday.  Differential diagnosis
   includes post-ATN diuresis versus diabetes insipidus.
   - continue D5W
   - free water flushes per NGT currently on hold given worsening
   respiratory status but can restart
   - [**Hospital1 7**] sodium checks
   Acute Renal Failure:  Creatinine improved today to 1.3, also with
   increased urine output.  Likely related to hypotension and fluctuating
   blood pressures.
   - more liberal blood pressure management
   - appreciate renal recommendations
   - UOP improving with increasing BP
   - renally dose medications, trend creatinine
   ACS:  NSTEMI
   -cont ASA, statin, beta blocker
   - d/c plavix given plans for trach
   Coffee Ground Emesis:  Patient with a single episode of coffee grounds
   noted in NGT yesterday after LP.  Hematocrit slightly decreased this
   morning at 25.3 from 28.1.
   - IV PPI [**Hospital1 7**]
   - [**Hospital1 7**] hematocrits
   - d/c plavix
   Thrush: nystatin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2154-07-13 06:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - No new neuro recs
   - Renal: continue to replace free water, can try to replace up to [**1-11**]
   urine output.
   - Blood pressures came back up after d/c'ing propafol
   - Patient pulled out OG tube -> replaced
   - PM Na rose back to 146->150 in the setting of holding free H2O after
   pulling OGT.
   - Restarted hyoscyamine. Had further episodes of mild desats to low 90s
   resolved with suctioning; noted to have thicker sputum.
   - Moves all extremities on propofol 20 cc/h.
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2154-7-12**] 08:13 PM
   Heparin Sodium (Prophylaxis) - [**2154-7-13**] 04:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-13**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 83 (70 - 108) bpm
   BP: 125/61(75) {85/44(58) - 167/83(102)} mmHg
   RR: 14 (10 - 19) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.6 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  1,757 mL
                                                                  1,146 mL
   PO:
             TF:
                                                                     62 mL
                                                                    169 mL
   IVF:
                                                                    715 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                  2,280 mL
                                                                    880 mL
   Urine:
                                                                  2,260 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -523 mL
                                                                    266 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 19 cmH2O
   Plateau: 13 cmH2O
   Compliance: 68.7 cmH2O/mL
   SpO2: 95%
   ABG: ///33/
   Ve: 6 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, does not open
   eyes to voice or follow commands
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: Regular rate and rhythm, normal s1 and s2, no murmurs,
   rubs, gallops
   Respiratory / Chest:  Coarse breath sounds bilaterally anteriorly, no
   clear wheezes, or rhonchi
   Abdominal: Soft, Bowel sounds present, mildly distended
   Extremities: warm, well perfused, 1+ pulses, 1+ edema in both upper and
   lower extremities
   Skin:  No jaundice or rashes
   Neurologic: Pupils are equal and reactive, not withdrawing to pain on
   current level of sedation
   Labs / Radiology
   334 K/uL
   8.6 g/dL
   189 mg/dL
   1.2 mg/dL
   33 mEq/L
   4.3 mEq/L
   63 mg/dL
   110 mEq/L
   150 mEq/L
   26.3 %
   18.5 K/uL
        [image002.jpg]
                             [**2154-7-9**]  02:31 PM
                             [**2154-7-9**]  06:31 PM
                             [**2154-7-10**]  03:47 AM
                             [**2154-7-10**]  03:37 PM
                             [**2154-7-11**]  02:39 AM
                             [**2154-7-11**]  12:32 PM
                             [**2154-7-11**]  03:24 PM
                             [**2154-7-12**]  05:22 AM
                             [**2154-7-12**]  04:20 PM
                             [**2154-7-13**]  03:11 AM
   WBC
   11.6
   14.6
   14.3
   18.5
   Hct
   28.9
   31.3
   29.5
   28.1
   28.3
   25.3
   26.4
   26.3
   Plt
   322
   292
   327
   334
   Cr
   1.9
   1.9
   1.8
   1.6
   1.3
   1.2
   1.2
   TCO2
   31
   Glucose
   185
   196
   290
   257
   372
   119
   189
   Other labs: PT / PTT / INR:13.2/37.2/1.1, Ca++:8.6 mg/dL, Mg++:2.4
   mg/dL, PO4:4.2 mg/dL
[**2154-7-4**] GQ1B IgG Ab <1:100 (negative)
[**2154-7-10**] CSF cytology: Negative for malignant cells. Polymorphous lymphoid cells
 and monocytes
   [**2154-7-10**] CSF pathology: RESULTS: Three color gating is performed (light
   scatter vs. CD45) to optimize lymphocyte yield.  Due to paucicellular
   nature of the specimen, a limited panel is performed to determine
   B-cell clonality.  B cells are scant in number precluding evaluation of
   clonality.  T cells comprise 96% of lymphoid gated
   events. INTERPRETATION: Non-specific T cell dominant lymphoid profile;
   diagnostic immunophenotypic features of involvement by non-Hodgkin
   B-cell lymphoma are not seen in specimen.  Correlation with clinical
   findings is recommended.  Flow cytometry immunophenotyping may not
   detect all lymphomas due to topography, sampling or artifacts of sample
   preparation.
[**2154-7-12**] 8:00 pm STOOL     CONSISTENCY: SOFT      Source: Stool.
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2154-7-13**]): Negative
[**2154-7-10**] 4:03 am SPUTUM      Source: Endotracheal.
   RESPIRATORY CULTURE (Final [**2154-7-12**]):    NO GROWTH.
[**2154-7-10**] BLOOD CULTURES x 2: NGTD
[**2154-7-10**] 4:03 am URINE      Source: Catheter.
   URINE CULTURE (Final [**2154-7-11**]):    NO GROWTH.
[**2154-7-10**] 10:33 am CSF;SPINAL FLUID      Source: LP.
  FLUID CULTURE (Preliminary):    NO GROWTH.
[**2154-7-12**] CXR: No significant change
   Assessment and Plan
   65 year old male with acute neurologic decline currently attributed to
   [**Last Name (un) 8413**] encephalitis now s/p aspiration event and intubation.
   Aspiration Pneumonia/Respiratory Failure:  Thought to be secondary to
   aspiration and pooling secretions with frequent desats resolved with
   suctioning. Off antibiotics. [**7-10**] sputum cx negative. CXR notable for
   persistent atelectasis. Long term plan for trach but unable to do so
   until plavix has been off for seven days
   - f/u final CXR read
   - cont hyoscyamine for secretions
   - plan for tracheostomy after seven days off plavix ([**2154-7-17**])
   - will attempt to wean back to pressure support today
   - Check ABG on PS
   Autonomic instability: Likely secondary to neurologic disease
   exacerbated when propofol uptitrated. UOP sensitive to hypotension.
   - continue metoprolol to 50mg QID with strict holding parameters for
   now
   - hydralazine PRN for SBPs > 180
   Fevers/leukocytosis: Afebrile since [**7-11**] although with rising
   leukocytosis; is on solumedrol. Off antibiotics. [**7-10**] sputum and urine
   cx negative. Blood and CSF cx NGTD. C. diff neg x 1. [**2154-7-11**] LENIs neg.
   Drug fever or fever from autonomic instability also possible.  Diff
   with 95% PMN, no bands
 likely [**2-11**] steriods.
   - r/o c. diff x 3
   - f/u blood and CSF cultures
   - hold abx for now
   Neurologic decline: EEG c/w widespresad encephalopathy but no
   epileptiform features. Most likely diagnosis per neurology is
   [**Last Name (un) 8413**] encephalitis although GQ1B Ab neg, s/p IVIG course and now
   completing steroid course. Per neurology, following commands and exam
   has improved. Repeat LP [**2154-7-10**] appears noninfectious, cx pending. Flow
   cytometry with non-specific T cell dominant lymphoid profile; path neg
   for malignant cells.
   - f/u neuro recs
   - complete 5-day course high dose steroids today
   - haldol prn for agitation
   Hypernatremia:  Elevated again as free water flushes held while OGT
   out; now restarted. Differential diagnosis includes post-ATN diuresis
   versus diabetes insipidus.
   - cont free water flushes per NG tube
   - [**Hospital1 7**] sodium checks
   - consider DDAVP trial if large UOP persists
   Acute Renal Failure:  ATN likely [**2-11**] hypotension resolving with Cr
   stable at 1.2. Large UOP continues, question of post-ATN diuresis v.
   DI.
   - blood pressure management as above
   - appreciate renal recommendations
   - UOP improving with increasing BP
   - renally dose medications, trend creatinine
   Coffee Ground Emesis:  Patient with a single episode of coffee grounds
   noted in NGT yesterday after LP.  Hematocrit slightly downtrended but
   stable since yesterday
   - IV PPI [**Hospital1 7**]
   - [**Hospital1 7**] hematocrits
   - off plavix currently
   - Active T&S
   ACS: NSTEMI
   -cont ASA, statin, beta blocker
   - d/c plavix given plans for trach
   Thrush: nystatin
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-12**] 08:55 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2154-07-13 09:17:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - OG tube pulled out, now replaced
   - Hypernatremia worsened in setting of no FWF [**2-11**] above
   - Remained on A/C overnight, switched to PS this am
   - Thick secretions
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2154-7-12**] 08:13 PM
   Heparin Sodium (Prophylaxis) - [**2154-7-13**] 04:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-13**] 09:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.7
   HR: 90 (74 - 108) bpm
   BP: 126/56(74) {96/44(58) - 167/82(101)} mmHg
   RR: 15 (10 - 19) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.6 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  1,757 mL
                                                                  1,593 mL
   PO:
             TF:
                                                                     62 mL
                                                                    257 mL
   IVF:
                                                                    715 mL
                                                                    246 mL
   Blood products:
   Total out:
                                                                  2,280 mL
                                                                  1,195 mL
   Urine:
                                                                  2,260 mL
                                                                  1,195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -523 mL
                                                                    398 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 433 (433 - 433) mL
   PS : 8 cmH2O
   RR (Set): 12
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 22
   RSBI Deferred: No Spon Resp
   PIP: 13 cmH2O
   Plateau: 13 cmH2O
   Compliance: 68.7 cmH2O/mL
   SpO2: 95%
   ABG: ///33/
   Ve: 6.6 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, Moves all extremities
   Labs / Radiology
   8.6 g/dL
   334 K/uL
   189 mg/dL
   1.2 mg/dL
   33 mEq/L
   4.3 mEq/L
   63 mg/dL
   110 mEq/L
   150 mEq/L
   26.3 %
   18.5 K/uL
        [image002.jpg]
                             [**2154-7-9**]  02:31 PM
                             [**2154-7-9**]  06:31 PM
                             [**2154-7-10**]  03:47 AM
                             [**2154-7-10**]  03:37 PM
                             [**2154-7-11**]  02:39 AM
                             [**2154-7-11**]  12:32 PM
                             [**2154-7-11**]  03:24 PM
                             [**2154-7-12**]  05:22 AM
                             [**2154-7-12**]  04:20 PM
                             [**2154-7-13**]  03:11 AM
   WBC
   11.6
   14.6
   14.3
   18.5
   Hct
   28.9
   31.3
   29.5
   28.1
   28.3
   25.3
   26.4
   26.3
   Plt
   322
   292
   327
   334
   Cr
   1.9
   1.9
   1.8
   1.6
   1.3
   1.2
   1.2
   TCO2
   31
   Glucose
   185
   196
   290
   257
   372
   119
   189
   Other labs: PT / PTT / INR:13.2/37.2/1.1, CK / CKMB /
   Troponin-T:80/14/0.07, Differential-Neuts:94.9 %, Band:0.0 %, Lymph:1.8
   %, Mono:2.9 %, Eos:0.2 %, Ca++:8.6 mg/dL, Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   Fluid analysis / Other labs: CXR cytology negative; flow with T cell
   predominance but not c/w lymphoma
   Assessment and Plan
   65 year old male with acute neurologic decline currently attributed to
   [**Last Name (un) 8413**] encephalitis now s/p aspiration event and intubation.
   Aspiration Pneumonia/Respiratory Failure:  Significant pooling
   secretions
 stopped hycosamine because of concern for secretions being
   too thick, but now restarted.  Weaned off A/C to PS this am.  S/p
   antibiotics course.
   - Recheck ABG on PS
   - Wean FiO2
   - Restart hycosamine for increased secretions
   - F/u sputum culture
   - Plan for tracheostomy after seven days off plavix (d/c
ed [**7-10**])
   Neurologic decline: EEG c/w widespresad encephalopathy but no
   epileptiform features. Most likely diagnosis per neurology is
   [**Last Name (un) **] encephalitis. Repeat LP [**2154-7-10**] with samples sent for
   cytometry and cytology.   Per neurology, following commands and exam
   improved as of yesterday.
   - S/p IVIG
   - Continue high dose steroids day [**5-14**]
   - Wean propofol
   Autonomic instability:  Hypertension/hypotension.
   - Continue metoprolol
   - Avoid too much propofol as made him hypotensive
   Leukocytosis: Now afebrile x 48 hours.  Cultures and lower extremity
   ultrasounds negative.  Likely secondary to steroids.
   - R/o infectious cause (c. diff pending)
   Hypernatremia: Differential diagnosis includes post-ATN diuresis versus
   diabetes insipidus.  Difficult to control despite free water flushes
   per NGT, worsened yesterday when he pulled out his OGT.
   - continue D5W
   - free water flushes per NGT
   - [**Hospital1 7**] sodium checks
   Acute Renal Failure:  Creatinine continuing to improve with increased
   urine output.  Likely related to hypotension and fluctuating blood
   pressures.
   - Avoid hypotension
   - Appreciate renal recommendations
   Coffee Ground Emesis:  Patient with episode of coffee grounds noted in
   NGT yesterday after LP and again this am.  Hematocrit slightly
   decreased this morning at 25.3 from 28.1.
   - IV PPI [**Hospital1 7**]
   - [**Hospital1 7**] hematocrits
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-12**] 08:55 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Stable on vent, back on PSV this AM
   Exam notable for Tmax: 37.6
C (99.6
F)  Tcurrent: 37.1
C (98.7
   HR: 90 (74 - 108) bpm  BP: 126/56(74) {96/44(58) - 167/82(101)} mmHg
   RR: 15 (10 - 19) insp/min
   SpO2: 95% pn PSV 8/5/0.5
   Intubated, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   RRR
   Lungs  Rhonchorous
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+ edema
   Labs reviewed and recorded above
   Problems:  resp failure, pneumonia,  encephalitis, UGIB, ARF, labile
   BP, hypernatremia
   Agree with plan to continue vent support
 wean as tolerated, cont IVIg
   and steroids, follow BP closely, follow Hct
 transfuse as needed,
   continue H20
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 37 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2154-7-13**] 13:24 ------

2154-07-14 05:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Placed back on PS 8/5. Had apneic episodes so vent switched to MMV
   mode. Still w/ copious secretions requiring q hourly suctioning,
   thicker requiring flushes prior. Discontinued hyoscyamine.
   - AM CXR: Patchy RML and RLL consolidation increased since the prior
   study. There is also LLL consolidation. There are small bilateral
   pleural effusions.
   - 3pm Na 151. Added D5W at 100cc/h. 9pm Na 149.
   - In AM, noted to have blood around rectal opening. Cleaned with no
   evidence of active bleeding. Stool trace guaiac positive. Hct 26 ->
   25.5.
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-7-13**] 04:00 PM
   Lansoprazole (Prevacid) - [**2154-7-13**] 09:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-14**] 05:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (98.9
   HR: 76 (69 - 91) bpm
   BP: 123/61(74) {115/47(64) - 152/80(108)} mmHg
   RR: 14 (9 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.6 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  5,335 mL
                                                                  1,872 mL
   PO:
             TF:
                                                                  1,148 mL
                                                                    444 mL
   IVF:
                                                                  1,456 mL
                                                                    677 mL
   Blood products:
   Total out:
                                                                  2,665 mL
                                                                    945 mL
   Urine:
                                                                  2,665 mL
                                                                    945 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,670 mL
                                                                    927 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 490 (380 - 540) mL
   PS : 8 cmH2O
   RR (Set): 10
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 22
   PIP: 14 cmH2O
   SpO2: 94%
   ABG: ///33/
   Ve: 6 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, does not open
   eyes to voice or follow commands
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: Regular rate and rhythm, normal s1 and s2, no murmurs,
   rubs, gallops
   Respiratory / Chest:  Coarse breath sounds bilaterally anteriorly, no
   clear wheezes, or rhonchi
   Abdominal: Soft, Bowel sounds present, mildly distended
   Extremities: warm, well perfused, 1+ pulses, trace edema in both upper
   and lower extremities
   Skin:  No jaundice or rashes
   Neurologic: Pupils are equal and reactive, moves right foot
   spontaneously, otherwise withdraws all four extremities to painful
   stimuli but not to command
   Labs / Radiology
   359 K/uL
   8.3 g/dL
   259 mg/dL
   1.1 mg/dL
   33 mEq/L
   4.4 mEq/L
   57 mg/dL
   109 mEq/L
   148 mEq/L
   25.5 %
   14.3 K/uL
        [image002.jpg]
                             [**2154-7-10**]  03:47 AM
                             [**2154-7-10**]  03:37 PM
                             [**2154-7-11**]  02:39 AM
                             [**2154-7-11**]  12:32 PM
                             [**2154-7-11**]  03:24 PM
                             [**2154-7-12**]  05:22 AM
                             [**2154-7-12**]  04:20 PM
                             [**2154-7-13**]  03:11 AM
                             [**2154-7-13**]  02:34 PM
                             [**2154-7-14**]  03:53 AM
   WBC
   11.6
   14.6
   14.3
   18.5
   14.3
   Hct
   31.3
   29.5
   28.1
   28.3
   25.3
   26.4
   26.3
   26.0
   25.5
   Plt
   322
   292
   327
   334
   359
   Cr
   1.8
   1.6
   1.3
   1.2
   1.2
   1.1
   TCO2
   31
   Glucose
   290
   257
   372
   119
   189
   259
   Other labs: PT / PTT / INR:13.2/37.2/1.1, CK / CKMB /
   Troponin-T:80/14/0.07, Differential-Neuts:94.9 %, Band:0.0 %, Lymph:1.8
   %, Mono:2.9 %, Eos:0.2 %, Ca++:8.0 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   [**2154-7-10**] Blood cultures NGTD x 2
[**2154-7-10**] 10:33 am CSF;SPINAL FLUID      Source: LP.
                            **FINAL REPORT [**2154-7-13**]**
   GRAM STAIN (Final [**2154-7-10**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      NO MICROORGANISMS SEEN.
      This is a concentrated smear made by cytospin method, please refer to
      hematology for a quantitative white blood cell count..
   FLUID CULTURE (Final [**2154-7-13**]):    NO GROWTH.
[**2154-7-13**] CXR: Endotracheal tube terminates at the thoracic inlet. There is patch
y consolidation of the right middle lobe and lower lobe, which has increased sin
ce the prior study. There is also consolidation of the left lower lobe. There ar
e small bilateral pleural effusions. Heart and mediastinum are probably within n
ormal limits. IMPRESSION: Overall worsening since prior study as above.
[**2154-7-13**] CXR (our read): Bibasilar opacities improved compared to [**7-12**], likely re
presented atelectasis.
   Assessment and Plan
   65 year old male with acute neurologic decline currently attributed to
   [**Last Name (un) 8413**] encephalitis now s/p aspiration event and intubation.
   Aspiration Pneumonia/Respiratory Failure: Thought to be secondary to
   aspiration and pooling secretions with frequent desats resolved with
   suctioning. Off antibiotics. [**7-10**] sputum cx negative. CXR notable for
   persistent atelectasis. Long term plan for trach but unable to do so
   until plavix has been off for seven days.  Over past 48 hours has had
   worsening respiratory status requiring increased mechanical support
   secondary to apneic episodes.  Unclear if this is related to neurologic
   disease. CXR with consolidations and small effusions.
   - hyoscyamine again discontinued for secretions
   - plan for tracheostomy after seven days off plavix ([**2154-7-17**])
   - will attempt to wean back to pressure support today
   - Check ABG on PS
   Autonomic instability: Likely secondary to neurologic disease
   exacerbated when propofol uptitrated. UOP sensitive to hypotension.
   - continue metoprolol to 50mg QID with strict holding parameters for
   now
   - hydralazine PRN for SBPs > 180
   Fevers/leukocytosis: Afebrile since [**7-11**] although with
   neutrophil-predominant leukocytosis in setting of solumedrol. Off
   antibiotics. [**7-10**] sputum and urine cx negative. Blood and CSF cx NGTD.
   C. diff neg x 1. [**2154-7-11**] LENIs neg.  Drug fever or fever from autonomic
   instability also possible.  Diff with 95% PMN, no bands
 likely [**2-11**]
   steriods.
   - f/u blood and CSF cultures
   - hold abx for now
   Neurologic decline: EEG c/w widespresad encephalopathy but no
   epileptiform features. Most likely diagnosis per neurology is
   [**Last Name (un) 8413**] encephalitis although GQ1B Ab neg.  Exam fluctuates. Repeat
   LP [**2154-7-10**] appears noninfectious, cx pending. Flow cytometry with
   non-specific T cell dominant lymphoid profile; cytology neg for
   malignant cells.  Has now completed 5 day course of IVIG followed by
   five day course of high dose steroids.
   - f/u neuro recs
   - haldol prn for agitation
   Hypernatremia:  Elevated again as free water flushes held while OGT
   out; now restarted. Likely [**2-11**] post-ATN diuresis of urea v. diabetes
   insipidus.
   - cont free water flushes per NG tube and D5W
   - [**Hospital1 7**] sodium checks
   - consider DDAVP trial if hypernatremia and large UOP persist
   Acute Renal Failure:  ATN likely [**2-11**] hypotension resolving with Cr
   stable at 1.1.
   - blood pressure management as above
   - appreciate renal recommendations
   - UOP improving with increasing BP
   - renally dose medications, trend creatinine
   Coffee Ground Emesis:  Patient with two episodes of coffee ground
   emesis last week.  Hematocrit slightly downtrended but stable.
   - IV PPI [**Hospital1 7**]
   - daily Hct
   - off plavix currently
   - Active T&S
   ACS: NSTEMI
   -cont ASA, statin, beta blocker
   - d/c plavix given plans for trach
   Thrush: nystatin
   Hyperglycemia: In setting of high dose steroids (now completed) and D5W
   - Titrate ISS prn
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-13**] 07:55 PM 75 mL/hour
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
    Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2154-07-14 08:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Rectal bleeding - minimal, now resolved
   - Apnea overnight
   - CXR with concern for increased opacities
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-7-13**] 04:00 PM
   Lansoprazole (Prevacid) - [**2154-7-13**] 09:06 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-14**] 08:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (98.9
   HR: 82 (69 - 90) bpm
   BP: 159/72(92) {115/47(64) - 159/80(108)} mmHg
   RR: 13 (9 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.6 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  5,335 mL
                                                                  2,641 mL
   PO:
             TF:
                                                                  1,148 mL
                                                                    632 mL
   IVF:
                                                                  1,456 mL
                                                                    949 mL
   Blood products:
   Total out:
                                                                  2,665 mL
                                                                  1,175 mL
   Urine:
                                                                  2,665 mL
                                                                  1,175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,670 mL
                                                                  1,466 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 490 (380 - 540) mL
   PS : 8 cmH2O
   RR (Set): 10
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: ///33/
   Ve: 6 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Non -purposeful, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   359 K/uL
   259 mg/dL
   1.1 mg/dL
   33 mEq/L
   4.4 mEq/L
   57 mg/dL
   109 mEq/L
   148 mEq/L
   25.5 %
   14.3 K/uL
        [image002.jpg]
                             [**2154-7-10**]  03:47 AM
                             [**2154-7-10**]  03:37 PM
                             [**2154-7-11**]  02:39 AM
                             [**2154-7-11**]  12:32 PM
                             [**2154-7-11**]  03:24 PM
                             [**2154-7-12**]  05:22 AM
                             [**2154-7-12**]  04:20 PM
                             [**2154-7-13**]  03:11 AM
                             [**2154-7-13**]  02:34 PM
                             [**2154-7-14**]  03:53 AM
   WBC
   11.6
   14.6
   14.3
   18.5
   14.3
   Hct
   31.3
   29.5
   28.1
   28.3
   25.3
   26.4
   26.3
   26.0
   25.5
   Plt
   322
   292
   327
   334
   359
   Cr
   1.8
   1.6
   1.3
   1.2
   1.2
   1.1
   TCO2
   31
   Glucose
   290
   257
   372
   119
   189
   259
   Other labs: PT / PTT / INR:13.2/37.2/1.1, CK / CKMB /
   Troponin-T:80/14/0.07, Differential-Neuts:94.9 %, Band:0.0 %, Lymph:1.8
   %, Mono:2.9 %, Eos:0.2 %, Ca++:8.0 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR - Bibasilar atelectasis
   Assessment and Plan
   65 year old male with acute neurologic decline currently attributed to
   [**Last Name (un) 8413**] encephalitis now s/p aspiration event and intubation.
   Aspiration Pneumonia/Respiratory Failure:  Significant pooling
   secretions
 stopped hycosamine because of concern for secretions being
   too thick.  Weaned off A/C to PS yesterday with apneic episodes, likely
   secondary to neurologic process.  Now on MMV.  S/p antibiotic course.
   No evidence of VAP at this time.
   - Recheck ABG on PS
   - Wean FiO2
   - Plan for tracheostomy on [**7-17**] (after seven days off plavix)
   - Frequent suctioning (no cough/gag)/ Chest PT
   Neurologic decline: EEG c/w widespresad encephalopathy but no
   epileptiform features. Most likely diagnosis per neurology is
   [**Last Name (un) **] encephalitis. Repeat LP [**2154-7-10**] with samples sent for
   cytometry and cytology.   Per neurology, following commands and exam
   improved as of yesterday.
   - S/p IVIG x 5 days
   - S/p high dose steroids x 5 days
   - Wean propofol
   - Discuss with neuro future plan/prognosis
   Autonomic instability:  Hypertension/hypotension.
   - Continue metoprolol
   - Avoid too much propofol as made him hypotensive
   Leukocytosis: Now afebrile x 48 hours.  Cultures and lower extremity
   ultrasounds negative.  Likely secondary to steroids.
   - R/o infectious cause (c. diff pending)
   Hypernatremia: Differential diagnosis includes post-ATN diuresis versus
   diabetes insipidus.  Difficult to control despite free water flushes
   per NGT.
   - continue D5W
   - free water flushes per NGT
   - Consider DDAVP trial if persistent
   - [**Hospital1 7**] sodium checks
   Acute Renal Failure:  Resolved with good urine output.  Likely related
   to hypotension and fluctuating blood pressures.
   - Avoid hypotension
   - Appreciate renal recommendations
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-13**] 07:55 PM 75 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 28 minutes
   Patient is critically ill
   Critical Care
   Present for key portions of fellow
s history and exam.  Agree with A&P
   as outlined. CT scan today.  Vent changed to MMV for periodic breathing
   overnight.  Can just d/c propofol.
   Time spent 25 min

2154-07-15 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - continued on MMV with stable respiratory status
   - sodium improved on D5W to 137 so this was discontinued
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-7-15**] 04:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-15**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 79 (76 - 97) bpm
   BP: 123/66(78) {95/42(54) - 167/75(92)} mmHg
   RR: 11 (9 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.6 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  6,902 mL
                                                                  1,725 mL
   PO:
             TF:
                                                                  1,856 mL
                                                                    489 mL
   IVF:
                                                                  2,427 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  3,130 mL
                                                                    865 mL
   Urine:
                                                                  3,130 mL
                                                                    865 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,772 mL
                                                                    860 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 334 (334 - 830) mL
   PS : 8 cmH2O
   RR (Set): 10
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 189
   PIP: 13 cmH2O
   SpO2: 98%
   ABG: ///36/
   Ve: 7.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, does not open
   eyes to voice or follow commands
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: Regular rate and rhythm, normal s1 and s2, no murmurs,
   rubs, gallops
   Respiratory / Chest:  Coarse breath sounds bilaterally anteriorly, no
   clear wheezes, or rhonchi
   Abdominal: Soft, Bowel sounds present, mildly distended
   Extremities: warm, well perfused, 1+ pulses, trace edema in both upper
   and lower extremities
   Skin:  No jaundice or rashes
   Neurologic: Pupils are equal and reactive, moves right foot
   spontaneously, otherwise withdraws all four extremities to painful
   stimuli but not to command
   Labs / Radiology
   341 K/uL
   8.3 g/dL
   102 mg/dL
   1.0 mg/dL
   36 mEq/L
   4.0 mEq/L
   46 mg/dL
   96 mEq/L
   137 mEq/L
   24.5 %
   13.4 K/uL
        [image002.jpg]
                             [**2154-7-10**]  03:37 PM
                             [**2154-7-11**]  02:39 AM
                             [**2154-7-11**]  12:32 PM
                             [**2154-7-11**]  03:24 PM
                             [**2154-7-12**]  05:22 AM
                             [**2154-7-12**]  04:20 PM
                             [**2154-7-13**]  03:11 AM
                             [**2154-7-13**]  02:34 PM
                             [**2154-7-14**]  03:53 AM
                             [**2154-7-15**]  03:53 AM
   WBC
   14.6
   14.3
   18.5
   14.3
   13.4
   Hct
   29.5
   28.1
   28.3
   25.3
   26.4
   26.3
   26.0
   25.5
   24.5
   Plt
   292
   327
   334
   359
   341
   Cr
   1.6
   1.3
   1.2
   1.2
   1.1
   1.0
   TCO2
   31
   Glucose
   257
   372
   119
   189
   259
   102
   Other labs: PT / PTT / INR:11.6/46.9/1.0, CK / CKMB /
   Troponin-T:80/14/0.07, Differential-Neuts:94.9 %, Band:0.0 %, Lymph:1.8
   %, Mono:2.9 %, Eos:0.2 %, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 HYPERGLYCEMIA
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 ANXIETY
 GRIEVING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   65 year old male with acute neurologic decline currently attributed to
   [**Last Name (un) 8413**] encephalitis now s/p aspiration event and intubation.
   Aspiration Pneumonia/Respiratory Failure: Thought to be secondary to
   aspiration and pooling secretions with frequent desats resolved with
   suctioning. Off antibiotics. [**7-10**] sputum cx negative. CXR notable for
   persistent atelectasis. Long term plan for trach but unable to do so
   until plavix has been off for seven days.  Over past 48 hours has had
   worsening respiratory status requiring increased mechanical support
   secondary to apneic episodes.  Unclear if this is related to neurologic
   disease. CXR with consolidations and small effusions.
   - hyoscyamine again discontinued for thickened secretions difficult to
   suction
   - plan for tracheostomy after seven days off plavix ([**2154-7-17**])
   - will attempt to wean back to pressure support today
   Autonomic instability: Likely secondary to neurologic disease
   exacerbated when propofol uptitrated. UOP sensitive to hypotension.
   - continue metoprolol to 50mg QID with strict holding parameters for
   now
   - hydralazine PRN for SBPs > 180
   Fevers/leukocytosis: Afebrile since [**7-11**] although with
   neutrophil-predominant leukocytosis in setting of solumedrol. Off
   antibiotics. [**7-10**] sputum and urine cx negative. Blood and CSF cx NGTD.
   C. diff neg x 1. [**2154-7-11**] LENIs neg.  Drug fever or fever from autonomic
   instability also possible.  Diff with 95% PMN, no bands
 likely [**2-11**]
   steriods.
   - f/u blood and CSF cultures
   - hold abx for now
   Neurologic decline: EEG on [**2154-7-5**] c/w widespresad encephalopathy but
   no epileptiform features. Most likely diagnosis per neurology is
   [**Last Name (un) 8413**] encephalitis although GQ1B Ab neg.  Exam fluctuates. Repeat
   LP [**2154-7-10**] appears noninfectious, cx pending. Flow cytometry with
   non-specific T cell dominant lymphoid profile; cytology neg for
   malignant cells.  Has now completed 5 day course of IVIG followed by
   five day course of high dose steroids.
   - f/u neuro recs
   - haldol prn for agitation
   Hypernatremia:  Elevated again as free water flushes held while OGT
   out; now restarted. Likely [**2-11**] post-ATN diuresis of urea v. diabetes
   insipidus.  Now urine output has decreased and serum sodium has
   stabilized.
   - cont free water flushes per NG tube
   - [**Hospital1 7**] sodium checks
   Acute Renal Failure:  ATN likely [**2-11**] hypotension resolving with Cr
   stable at 1.0-1.1.
   - blood pressure management as above
   - renal has signed off
   - UOP improving with increasing BP
   - renally dose medications, trend creatinine
   Coffee Ground Emesis:  Patient with two episodes of coffee ground
   emesis last week.  Hematocrit slightly downtrended but stable.
   - IV PPI [**Hospital1 7**]
   - daily Hct
   - off plavix currently
   - Active T&S
   ACS: NSTEMI
   -cont ASA, statin, beta blocker
   - d/c plavix given plans for trach
   Thrush: nystatin
   Hyperglycemia: In setting of high dose steroids (now completed) and D5W
   - Titrate ISS prn
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-13**] 07:55 PM 75 mL/hour
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
    Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2154-07-15 10:43:00 Physician Attending Progress Note
Chief Complaint: [**Last Name (un) 8426**] Encephalitis
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Resp failure due to aspiration
   24 Hour Events:
   Unable to handle secretions.
   Scheduled for trach and peg
   Noted to have apnea and [**Last Name (un) 558**] [**Doctor Last Name 559**], currently on MMV
   Na improved with free water
   Completed course of high dose steroids.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-7-15**] 04:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-15**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (98.9
   HR: 86 (76 - 97) bpm
   BP: 136/57(77) {95/42(54) - 142/72(86)} mmHg
   RR: 40 (9 - 40) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.6 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  6,902 mL
                                                                  2,119 mL
   PO:
             TF:
                                                                  1,856 mL
                                                                    780 mL
   IVF:
                                                                  2,427 mL
                                                                    279 mL
   Blood products:
   Total out:
                                                                  3,130 mL
                                                                  1,145 mL
   Urine:
                                                                  3,130 mL
                                                                  1,145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,772 mL
                                                                    974 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 626 (334 - 830) mL
   PS : 8 cmH2O
   RR (Set): 10
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 189
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: ///36/
   Ve: 6.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: all present
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: touch and loud voice, no purposeful movt
   Labs / Radiology
   8.3 g/dL
   341 K/uL
   102 mg/dL
   1.0 mg/dL
   36 mEq/L
   4.0 mEq/L
   46 mg/dL
   96 mEq/L
   137 mEq/L
   24.5 %
   13.4 K/uL
        [image002.jpg]
                             [**2154-7-10**]  03:37 PM
                             [**2154-7-11**]  02:39 AM
                             [**2154-7-11**]  12:32 PM
                             [**2154-7-11**]  03:24 PM
                             [**2154-7-12**]  05:22 AM
                             [**2154-7-12**]  04:20 PM
                             [**2154-7-13**]  03:11 AM
                             [**2154-7-13**]  02:34 PM
                             [**2154-7-14**]  03:53 AM
                             [**2154-7-15**]  03:53 AM
   WBC
   14.6
   14.3
   18.5
   14.3
   13.4
   Hct
   29.5
   28.1
   28.3
   25.3
   26.4
   26.3
   26.0
   25.5
   24.5
   Plt
   292
   327
   334
   359
   341
   Cr
   1.6
   1.3
   1.2
   1.2
   1.1
   1.0
   TCO2
   31
   Glucose
   257
   372
   119
   189
   259
   102
   Other labs: PT / PTT / INR:11.6/46.9/1.0, CK / CKMB /
   Troponin-T:80/14/0.07, Differential-Neuts:94.9 %, Band:0.0 %, Lymph:1.8
   %, Mono:2.9 %, Eos:0.2 %, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.1 mg/dL
   CXR: bibasilar aspiration pna
   Assessment and Plan
 HYPERGLYCEMIA
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 ANXIETY
 GRIEVING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   65 year old male with acute neurologic decline currently attributed to
   [**Last Name (un) 8413**] encephalitis now s/p aspiration event and intubation.
   Neuro: no nsigns of improvement since IvIg and high dose steroids.
   Appreciate neuro input. Wean propofol as tolerated. Discuss with neuro
   future plan/prognosis. LP cytology pend
   Resp: Unable to protect airway due to brainstem dysfunction. Off plavix
   for trach/peg. Continue supportive ventilation (PS/MMV)
   Autonomic instability:  Hypertension/hypotension.  Continue metoprolol.
   Avoid too much propofol as made him hypotensive
   Elevated bicarb: lilkely in the setting of post-ATN diuresis
   CAD: off plavix for trach/peg
restart post procedure
conitnue ASA/beta
   blocker/statin
   Rest per housestaff note
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-13**] 07:55 PM 75 mL/hour
   Glycemic Control:  good on riss
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication:
   Code status: Full code
   Disposition :ICU
   Total time spent: 28 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   I have seen and examined Mr [**Known lastname 1339**] today and concur with Dr [**Last Name (STitle) 691**]
   note above.  He appears to be intermittently responsive with lightening
   of sedation. He will have his tracheostomy and Peg tube placement this
   week. Antibiotics support continues for treatment of RLL VAP. He has
   been hemodynamically stable off pressors. Further recs per neurology
   staff.
   Critical care time: 35 mins
   [**First Name8 (NamePattern2) 3093**] [**Name8 (MD) **], M.D.
   Division of Pulmonary and Critical Care Medicine,
   [**Location (un) 5176**], [**Numeric Identifier 960**].
   ------ Protected Section Addendum Entered By:[**Name (NI) 3093**] [**Name8 (MD) **], MD
   on:[**2154-7-15**] 14:27 ------

2154-07-16 06:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Neuro: [**Last Name (un) 8413**] less likely as anti-Gq1b Abs negative; will
   monitor closely.
   - Continued on MMV with stable respiratory status
   - Stable Na with free H2O flushes.
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2154-7-15**] 07:37 PM
   Heparin Sodium (Prophylaxis) - [**2154-7-16**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-16**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.5
C (99.5
   HR: 71 (71 - 109) bpm
   BP: 96/46(57) {79/46(57) - 142/82(86)} mmHg
   RR: 13 (9 - 40) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.6 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  5,319 mL
                                                                  1,427 mL
   PO:
             TF:
                                                                  1,844 mL
                                                                    456 mL
   IVF:
                                                                    605 mL
                                                                    161 mL
   Blood products:
   Total out:
                                                                  2,700 mL
                                                                    645 mL
   Urine:
                                                                  2,700 mL
                                                                    645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,619 mL
                                                                    782 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 769 (605 - 1,435) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: ///37/
   Ve: 8.7 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, does not open
   eyes to voice or follow commands
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: Regular rate and rhythm, normal s1 and s2, no murmurs,
   rubs, gallops
   Respiratory / Chest:  Coarse breath sounds bilaterally anteriorly, no
   clear wheezes, or rhonchi
   Abdominal: Soft, Bowel sounds present, mildly distended
   Extremities: warm, well perfused, 1+ pulses, trace edema in both upper
   and lower extremities
   Skin:  No jaundice or rashes
   Neurologic: Pupils are equal and reactive, moves right foot
   spontaneously, otherwise withdraws all four extremities to painful
   stimuli but not to command
   Labs / Radiology
   353 K/uL
   8.0 g/dL
   102 mg/dL
   0.9 mg/dL
   37 mEq/L
   3.6 mEq/L
   39 mg/dL
   93 mEq/L
   137 mEq/L
   22.9 %
   12.5 K/uL
        [image002.jpg]
                             [**2154-7-11**]  02:39 AM
                             [**2154-7-11**]  12:32 PM
                             [**2154-7-11**]  03:24 PM
                             [**2154-7-12**]  05:22 AM
                             [**2154-7-12**]  04:20 PM
                             [**2154-7-13**]  03:11 AM
                             [**2154-7-13**]  02:34 PM
                             [**2154-7-14**]  03:53 AM
                             [**2154-7-15**]  03:53 AM
                             [**2154-7-16**]  04:27 AM
   WBC
   14.6
   14.3
   18.5
   14.3
   13.4
   12.5
   Hct
   28.1
   28.3
   25.3
   26.4
   26.3
   26.0
   25.5
   24.5
   22.9
   Plt
   292
   327
   334
   359
   341
   353
   Cr
   1.6
   1.3
   1.2
   1.2
   1.1
   1.0
   0.9
   TCO2
   31
   Glucose
   257
   372
   119
   189
   259
   102
   102
   Other labs: PT / PTT / INR:12.1/53.4/1.0, CK / CKMB /
   Troponin-T:80/14/0.07, Differential-Neuts:94.9 %, Band:0.0 %, Lymph:1.8
   %, Mono:2.9 %, Eos:0.2 %, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:1.5 mg/dL
   [**2154-7-10**] Bcx: NGTD
   Assessment and Plan
   65 year old male with acute neurologic decline currently attributed to
   [**Last Name (un) 8413**] encephalitis now s/p aspiration event and intubation.
   Aspiration Pneumonia/Respiratory Failure: Thought to be secondary to
   aspiration and pooling secretions with frequent desats resolved with
   suctioning. Off antibiotics. [**7-10**] sputum cx negative. CXR notable for
   persistent atelectasis. Long term plan for trach but unable to do so
   until plavix has been off for seven days.  Over past 48 hours has had
   worsening respiratory status requiring increased mechanical support
   secondary to apneic episodes.  Unclear if this is related to neurologic
   disease. CXR with consolidations and small effusions.
   - plan for tracheostomy after seven days off plavix ([**2154-7-17**]) will
   confirm with inteventional pulmonary today that he is still on the
   schedule
   - will continue current ventilatory settings in preparation for trach
   (on MMV secondary to periods of apnea).
   - hyoscyamine discontinued as thickened secretions difficult to suction
   Autonomic instability: Likely secondary to neurologic disease
   exacerbated when propofol uptitrated. UOP sensitive to hypotension.
   - continue metoprolol to 50mg QID with strict holding parameters for
   now
   - hydralazine PRN for SBPs > 180
   Fevers/leukocytosis: Afebrile since [**7-11**] although with
   neutrophil-predominant leukocytosis in setting of solumedrol now
   downtrending. Off antibiotics. No positive micro to date. [**2154-7-11**] LENIs
   neg.  [**Month (only) 51**] have represented drug fever or fever from autonomic
   instability.
   - f/u pending blood cx
   - hold abx for now
   Neurologic decline: EEG on [**2154-7-5**] c/w widespread encephalopathy but no
   epileptiform features. Thought to have [**Last Name (un) 8413**] encephalitis but
   GQ1B Ab neg.  Exam fluctuates. Repeat LP [**2154-7-10**] appears noninfectious,
   cx pending. Flow cytometry with non-specific T cell dominant lymphoid
   profile; cytology neg for malignant cells.  Has now completed 5 day
   course of IVIG followed by five day course of high dose steroids.
   - f/u neuro recs
   - haldol prn for agitation
   Hypernatremia:  Elevated again as free water flushes held while OGT
   out; now restarted. Likely [**2-11**] post-ATN diuresis of urea v. diabetes
   insipidus.  Now urine output has decreased and serum sodium has
   stabilized.
   - cont free water flushes per NG tube (will decrease to 300 cc Q4H)
   - daily sodium checks
   Acute Renal Failure:  ATN likely [**2-11**] hypotension resolving with Cr
   stable at 1.0-1.1.
   - blood pressure management as above
   - renal has signed off
   - UOP improving with increasing BP
   - renally dose medications, trend creatinine
   Anemia:  Hematocrit slowly downtrendig over past two weeks. Patient
   with two episodes of coffee ground emesis last week. Also one episode
   of perirectal bleeding thought [**2-11**] flexiseal irritation. B12, folate,
   iron labs nl on [**7-9**].
   - add on hemolysis labs
   - IV PPI [**Hospital1 7**]
   - dailiy Hct check
   - off plavix currently
   - Active T&S
   - transfuse for hct < 21
   - will start iron supplements and multivitamin
   ACS: NSTEMI
   -cont ASA, statin, beta blocker
   - d/c plavix given plans for trach
   Thrush: nystatin
   Hyperglycemia: In setting of high dose steroids (now completed) and D5W
   - Titrate ISS prn
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-15**] 11:23 PM 75 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2154-07-16 11:17:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Encephalitis, respiratory failure
   24 Hour Events:
   No events
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Propofol - [**2154-7-15**] 07:37 PM
   Heparin Sodium (Prophylaxis) - [**2154-7-16**] 04:00 AM
   Lansoprazole (Prevacid) - [**2154-7-16**] 08:25 AM
   Other medications:
   ASA, sertraline, Colace, thiamine, Atrovent, RISS, Lantus, metoprolol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-16**] 11:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.3
   HR: 83 (71 - 109) bpm
   BP: 109/79(85) {79/46(57) - 135/82(86)} mmHg
   RR: 12 (9 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.6 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  5,319 mL
                                                                  2,797 mL
   PO:
             TF:
                                                                  1,844 mL
                                                                    825 mL
   IVF:
                                                                    605 mL
                                                                    582 mL
   Blood products:
   Total out:
                                                                  2,700 mL
                                                                  1,280 mL
   Urine:
                                                                  2,700 mL
                                                                  1,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,619 mL
                                                                  1,517 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 478 (478 - 769) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: ///37/
   Ve: 8.4 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, RUE edema > LUE edema
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Tone: Not assessed
   [**Year (4 digits) 582**] / Radiology
   8.0 g/dL
   353 K/uL
   102 mg/dL
   0.9 mg/dL
   37 mEq/L
   3.6 mEq/L
   39 mg/dL
   93 mEq/L
   137 mEq/L
   22.9 %
   12.5 K/uL
        [image002.jpg]
                             [**2154-7-11**]  02:39 AM
                             [**2154-7-11**]  12:32 PM
                             [**2154-7-11**]  03:24 PM
                             [**2154-7-12**]  05:22 AM
                             [**2154-7-12**]  04:20 PM
                             [**2154-7-13**]  03:11 AM
                             [**2154-7-13**]  02:34 PM
                             [**2154-7-14**]  03:53 AM
                             [**2154-7-15**]  03:53 AM
                             [**2154-7-16**]  04:27 AM
   WBC
   14.6
   14.3
   18.5
   14.3
   13.4
   12.5
   Hct
   28.1
   28.3
   25.3
   26.4
   26.3
   26.0
   25.5
   24.5
   22.9
   Plt
   292
   327
   334
   359
   341
   353
   Cr
   1.6
   1.3
   1.2
   1.2
   1.1
   1.0
   0.9
   TCO2
   31
   Glucose
   257
   372
   119
   189
   259
   102
   102
   Other [**Year (4 digits) **]: PT / PTT / INR:12.1/53.4/1.0, CK / CKMB /
   Troponin-T:80/14/0.07, Alk Phos / T Bili:/0.2, Differential-Neuts:94.9
   %, Band:0.0 %, Lymph:1.8 %, Mono:2.9 %, Eos:0.2 %, Ca++:7.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.5 mg/dL
   Fluid analysis / Other [**Year (4 digits) **]: GQ1B Ab- negative
   Microbiology: [**7-10**] Blood neg to date
   Assessment and Plan
   65 year old male with acute neurologic decline currently attributed to
   [**Last Name (un) 8413**] encephalitis now s/p aspiration event and intubation.
   Neuro: no signs of improvement since IvIg and high dose steroids.
   Appreciate neuro input. Wean propofol as tolerated. Discuss with neuro
   future plan/prognosis. LP cytology pending
   Resp: Unable to protect airway due to brainstem dysfunction. Off plavix
   for trach/peg, presumptively planned for tomorrow. Continue supportive
   ventilation (PS/MMV)
   Autonomic instability:  Hypertension/hypotension.  Continue metoprolol.
   Avoid too much propofol as made him hypotensive
   RUE swelling: will check UENIs for poss PICC-assoc DVT
   Downtrending Hct- no clinical signs of bleeding but previously w/
   coffee-grounds from NGT, also w/ prob Fe and folate deficiency
   -checking hemolysis [**Last Name (LF) **], [**First Name3 (LF) **] transfuse one unit RBC;s in anticipation
   of procedure in am [**7-17**]
   -on MVI
   CAD: off plavix for trach/peg
restart post procedure
conitnue ASA/beta
   blocker/statin
   Rest per housestaff note
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-15**] 11:23 PM 75 mL/hour
   Comments: 300cc q4hrs
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2154-07-17 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2154-7-16**] 01:47 PM
   - Neuro: No new recs, will speak with family tmrw.
   - IP: Plan for trach/PEG in PM. Holding tube feeds p MN.
   - PM Na 141 (up from 137) so started D5W at 100cc/h while tube feeds
   held.
   - Tube feeds held after midnight for possible trach/PEG tmrw
   - RUE w/o evidence of DVT on doppler
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2154-7-16**] 08:25 AM
   Heparin Sodium (Prophylaxis) - [**2154-7-16**] 04:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-17**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 74 (73 - 97) bpm
   BP: 117/69(81) {103/41(60) - 152/82(96)} mmHg
   RR: 10 (10 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.6 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  5,650 mL
                                                                  1,073 mL
   PO:
             TF:
                                                                  1,800 mL
                                                                    150 mL
   IVF:
                                                                  1,135 mL
                                                                    623 mL
   Blood products:
                                                                    275 mL
   Total out:
                                                                  2,750 mL
                                                                    880 mL
   Urine:
                                                                  2,750 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,900 mL
                                                                    193 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 453 (453 - 830) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: ///37/
   Ve: 8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, does not open
   eyes to voice or follow commands
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: Regular rate and rhythm, normal s1 and s2, no murmurs,
   rubs, gallops
   Respiratory / Chest:  Coarse breath sounds bilaterally anteriorly, no
   clear wheezes, or rhonchi
   Abdominal: Soft, Bowel sounds present, mildly distended
   Extremities: warm, well perfused, 1+ pulses, trace edema in both upper
   and lower extremities
   Skin:  No jaundice or rashes
   Neurologic: Pupils are equal and reactive, moves right foot
   spontaneously, otherwise withdraws all four extremities to painful
   stimuli but not to command
   Labs / Radiology
   334 K/uL
   9.0 g/dL
   97 mg/dL
   0.8 mg/dL
   37 mEq/L
   3.6 mEq/L
   33 mg/dL
   95 mEq/L
   137 mEq/L
   25.9 %
   12.8 K/uL
        [image002.jpg]
                             [**2154-7-11**]  12:32 PM
                             [**2154-7-11**]  03:24 PM
                             [**2154-7-12**]  05:22 AM
                             [**2154-7-12**]  04:20 PM
                             [**2154-7-13**]  03:11 AM
                             [**2154-7-13**]  02:34 PM
                             [**2154-7-14**]  03:53 AM
                             [**2154-7-15**]  03:53 AM
                             [**2154-7-16**]  04:27 AM
                             [**2154-7-17**]  04:23 AM
   WBC
   14.3
   18.5
   14.3
   13.4
   12.5
   12.8
   Hct
   28.3
   25.3
   26.4
   26.3
   26.0
   25.5
   24.5
   22.9
   25.9
   Plt
   327
   334
   359
   [**Telephone/Fax (3) 8654**]
   Cr
   1.3
   1.2
   1.2
   1.1
   1.0
   0.9
   0.8
   TCO2
   31
   Glucose
   372
   119
   189
   259
   102
   102
   97
   Other labs: PT / PTT / INR:12.8/54.9/1.1, CK / CKMB /
   Troponin-T:80/14/0.07, Alk Phos / T Bili:/0.2, Differential-Neuts:94.9
   %, Band:0.0 %, Lymph:1.8 %, Mono:2.9 %, Eos:0.2 %, Ca++:7.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   65 year old male with acute neurologic decline currently attributed to
   [**Last Name (un) 8413**] encephalitis now s/p aspiration event and intubation.
   Aspiration Pneumonia/Respiratory Failure: Thought to be secondary to
   aspiration and pooling secretions with frequent desats resolved with
   suctioning. Off antibiotics. [**7-10**] sputum cx negative. CXR notable for
   persistent atelectasis. Long term plan for trach but unable to do so
   until plavix has been off for seven days.  Over past 48 hours has had
   worsening respiratory status requiring increased mechanical support
   secondary to apneic episodes.  Unclear if this is related to neurologic
   disease. CXR with consolidations and small effusions.
   - plan for tracheostomy after seven days off plavix ([**2154-7-17**]) will
   confirm with inteventional pulmonary today that he is still on the
   schedule
   - will continue current ventilatory settings in preparation for trach
   (on MMV secondary to periods of apnea).
   - hyoscyamine discontinued as thickened secretions difficult to suction
   Autonomic instability: Likely secondary to neurologic disease
   exacerbated when propofol uptitrated. UOP sensitive to hypotension.
   - continue metoprolol to 50mg QID with strict holding parameters for
   now
   - hydralazine PRN for SBPs > 180
   Fevers/leukocytosis: Afebrile since [**7-11**] although with
   neutrophil-predominant leukocytosis in setting of solumedrol now
   downtrending. Off antibiotics. No positive micro to date. [**2154-7-11**] LENIs
   neg.  [**Month (only) 51**] have represented drug fever or fever from autonomic
   instability.
   - f/u pending blood cx
   - hold abx for now
   Neurologic decline: EEG on [**2154-7-5**] c/w widespread encephalopathy but no
   epileptiform features. Thought to have [**Last Name (un) 8413**] encephalitis but
   GQ1B Ab neg.  Exam fluctuates. Repeat LP [**2154-7-10**] appears noninfectious,
   cx pending. Flow cytometry with non-specific T cell dominant lymphoid
   profile; cytology neg for malignant cells.  Has now completed 5 day
   course of IVIG followed by five day course of high dose steroids.
   - f/u neuro recs
   - haldol prn for agitation
   Hypernatremia:  Elevated again as free water flushes held while OGT
   out; now restarted. Likely [**2-11**] post-ATN diuresis of urea v. diabetes
   insipidus.  Now urine output has decreased and serum sodium has
   stabilized.
   - cont free water flushes per NG tube (will decrease to 300 cc Q4H)
   - daily sodium checks
   Acute Renal Failure:  ATN likely [**2-11**] hypotension resolving with Cr
   stable at 1.0-1.1.
   - blood pressure management as above
   - renal has signed off
   - UOP improving with increasing BP
   - renally dose medications, trend creatinine
   Anemia:  Hematocrit slowly downtrendig over past two weeks. Patient
   with two episodes of coffee ground emesis last week. Also one episode
   of perirectal bleeding thought [**2-11**] flexiseal irritation. B12, folate,
   iron labs nl on [**7-9**].
   - add on hemolysis labs
   - IV PPI [**Hospital1 7**]
   - dailiy Hct check
   - off plavix currently
   - Active T&S
   - transfuse for hct < 21
   - will start iron supplements and multivitamin
   ACS: NSTEMI
   -cont ASA, statin, beta blocker
   - d/c plavix given plans for trach
   Thrush: nystatin
   Hyperglycemia: In setting of high dose steroids (now completed) and D5W
   - Titrate ISS prn
   ICU Care
   Nutrition: Holding tube feeds
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2154-07-17 11:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Respiratory failure, encephalitis
   24 Hour Events:
   Trach today deferred due to elevated PTT. R UENI negative for DVT yest.
   received 1u prbc yest.
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-7-16**] 04:35 PM
   Lansoprazole (Prevacid) - [**2154-7-17**] 08:14 AM
   Other medications:
   Zoloft, simvastatin, Colace, Peridex, Propofol, atrovent, ASA, RISS,
   Lantus, metoprolol, FeSO4, MVI,
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-17**] 11:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.4
C (99.4
   HR: 81 (73 - 97) bpm
   BP: 128/62(78) {105/41(60) - 152/82(96)} mmHg
   RR: 14 (8 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.6 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  5,650 mL
                                                                  1,670 mL
   PO:
             TF:
                                                                  1,800 mL
                                                                    150 mL
   IVF:
                                                                  1,135 mL
                                                                  1,190 mL
   Blood products:
                                                                    275 mL
   Total out:
                                                                  2,750 mL
                                                                  1,240 mL
   Urine:
                                                                  2,750 mL
                                                                  1,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,900 mL
                                                                    430 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 529 (453 - 830) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: ///37/
   Ve: 6.7 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   334 K/uL
   97 mg/dL
   0.8 mg/dL
   37 mEq/L
   3.6 mEq/L
   33 mg/dL
   95 mEq/L
   137 mEq/L
   25.9 %
   12.8 K/uL
        [image002.jpg]
                             [**2154-7-11**]  12:32 PM
                             [**2154-7-11**]  03:24 PM
                             [**2154-7-12**]  05:22 AM
                             [**2154-7-12**]  04:20 PM
                             [**2154-7-13**]  03:11 AM
                             [**2154-7-13**]  02:34 PM
                             [**2154-7-14**]  03:53 AM
                             [**2154-7-15**]  03:53 AM
                             [**2154-7-16**]  04:27 AM
                             [**2154-7-17**]  04:23 AM
   WBC
   14.3
   18.5
   14.3
   13.4
   12.5
   12.8
   Hct
   28.3
   25.3
   26.4
   26.3
   26.0
   25.5
   24.5
   22.9
   25.9
   Plt
   327
   334
   359
   [**Telephone/Fax (3) 8654**]
   Cr
   1.3
   1.2
   1.2
   1.1
   1.0
   0.9
   0.8
   TCO2
   31
   Glucose
   372
   119
   189
   259
   102
   102
   97
   Other labs: PT / PTT / INR:12.8/54.9/1.1, CK / CKMB /
   Troponin-T:80/14/0.07, Alk Phos / T Bili:/0.2, Differential-Neuts:94.9
   %, Band:0.0 %, Lymph:1.8 %, Mono:2.9 %, Eos:0.2 %, Ca++:7.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Imaging: RUE UENI- neg for DVT
   Assessment and Plan
   65 year old male with acute neurologic decline currently attributed to
   brainstem encephalitis now s/p aspiration event and intubation.
   Neuro: no signs of improvement since IvIg and high dose steroids.
   Appreciate neuro input. Wean propofol as tolerated. Discuss with neuro
   future plan/prognosis. LP cytology pending.
   -repeat MRI brain per Neuro
   Resp: Unable to protect airway due to brainstem dysfunction. Off plavix
   for trach/peg, now rescheduled for tomorrow. Continue supportive
   ventilation (PS/MMV)
   Autonomic instability:  Hypertension/hypotension.  Continue metoprolol.
   Downtrending Hct- no clinical signs of bleeding but previously w/
   coffee-grounds from NGT, also w/ prob Fe and folate deficiency
   -hemolysis labs negative
   -appropriate bump w/ transfusion
   -on MVI and FeSO4
   CAD: off plavix for trach/peg
restart post procedure
conitnue ASA/beta
   blocker/statin
   Rest per housestaff note
   ICU Care
   Nutrition:
   Comments: 300cc q4 free h2o flushes and tube feeds held; will be
   resumed
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2154-07-18 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - unable to received tracheostomy and PEG secondary to elevated PTT
   - SC heparin discontinued
   - he received repeat MRI/MRA, results pending
   - tube feeds again held at mid night for potential procedure today
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2154-7-17**] 08:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-18**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.8
   HR: 76 (70 - 98) bpm
   BP: 133/67(82) {102/53(64) - 152/80(94)} mmHg
   RR: 9 (6 - 14) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.6 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  3,112 mL
                                                                    874 mL
   PO:
             TF:
                                                                    829 mL
                                                                     75 mL
   IVF:
                                                                  1,534 mL
                                                                    499 mL
   Blood products:
   Total out:
                                                                  2,640 mL
                                                                    925 mL
   Urine:
                                                                  2,640 mL
                                                                    925 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    472 mL
                                                                    -51 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 378 (378 - 769) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 6.2 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, does not open
   eyes to voice or follow commands
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: Regular rate and rhythm, normal s1 and s2, no murmurs,
   rubs, gallops
   Respiratory / Chest:  Coarse breath sounds bilaterally anteriorly, no
   clear wheezes, or rhonchi
   Abdominal: Soft, Bowel sounds present, mildly distended
   Extremities: warm, well perfused, 1+ pulses, trace edema in both upper
   and lower extremities
   Skin:  No jaundice or rashes
   Neurologic: Pupils are equal and reactive, moves right foot
   spontaneously, otherwise withdraws all four extremities to painful
   stimuli but not to command
   Labs / Radiology
   334 K/uL
   9.0 g/dL
   97 mg/dL
   0.8 mg/dL
   37 mEq/L
   3.6 mEq/L
   33 mg/dL
   95 mEq/L
   137 mEq/L
   25.9 %
   12.8 K/uL
        [image002.jpg]
                             [**2154-7-11**]  12:32 PM
                             [**2154-7-11**]  03:24 PM
                             [**2154-7-12**]  05:22 AM
                             [**2154-7-12**]  04:20 PM
                             [**2154-7-13**]  03:11 AM
                             [**2154-7-13**]  02:34 PM
                             [**2154-7-14**]  03:53 AM
                             [**2154-7-15**]  03:53 AM
                             [**2154-7-16**]  04:27 AM
                             [**2154-7-17**]  04:23 AM
   WBC
   14.3
   18.5
   14.3
   13.4
   12.5
   12.8
   Hct
   28.3
   25.3
   26.4
   26.3
   26.0
   25.5
   24.5
   22.9
   25.9
   Plt
   327
   334
   359
   [**Telephone/Fax (3) 8654**]
   Cr
   1.3
   1.2
   1.2
   1.1
   1.0
   0.9
   0.8
   TCO2
   31
   Glucose
   372
   119
   189
   259
   102
   102
   97
   Other labs: PT / PTT / INR:12.8/54.9/1.1, CK / CKMB /
   Troponin-T:80/14/0.07, Alk Phos / T Bili:/0.2, Differential-Neuts:94.9
   %, Band:0.0 %, Lymph:1.8 %, Mono:2.9 %, Eos:0.2 %, Ca++:7.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 ANEMIA, CHRONIC
 HYPERGLYCEMIA
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 ANXIETY
 GRIEVING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   65 year old male with acute neurologic decline currently attributed to
   [**Last Name (un) 8413**] encephalitis now s/p aspiration event and intubation.
   Aspiration Pneumonia/Respiratory Failure: Thought to be secondary to
   aspiration and pooling secretions with frequent desats resolved with
   suctioning. Off antibiotics. [**7-10**] sputum cx negative. CXR notable for
   persistent atelectasis. Long term plan for trach but unable to do so
   until plavix has been off for seven days.  Over past 48 hours has had
   worsening respiratory status requiring increased mechanical support
   secondary to apneic episodes.  Unclear if this is related to neurologic
   disease. CXR with consolidations and small effusions.
   - plan for tracheostomy and PEG when PTT has come down
   - will continue current ventilatory settings in preparation for trach
   (on MMV secondary to periods of apnea).
   - hyoscyamine discontinued as thickened secretions difficult to suction
   - will start rehab screen post procedure
   Elevated PTT
 likely related to Heparin SQ as it started upon
   hospitalization
   - d/c sq heparin
   Autonomic instability: Likely secondary to neurologic disease
   exacerbated when propofol uptitrated. UOP sensitive to hypotension.
   - continue metoprolol to 50mg QID with strict holding parameters for
   now
   - hydralazine PRN for SBPs > 180
   Neurologic decline: EEG on [**2154-7-5**] c/w widespread encephalopathy but no
   epileptiform features. Thought to have [**Last Name (un) 8413**] encephalitis but
   GQ1B Ab neg.  Exam fluctuates. Repeat LP [**2154-7-10**] appears noninfectious,
   cx pending. Flow cytometry with non-specific T cell dominant lymphoid
   profile; cytology neg for malignant cells.  Has now completed 5 day
   course of IVIG followed by five day course of high dose steroids.
   Strength and mental status slowly improving.
   - f/u neuro recs
   - MRI with and without contrast
   - haldol prn for agitation
   Hypernatremia:  Elevated again as free water flushes held while OGT
   out; now restarted. Likely [**2-11**] post-ATN diuresis of urea v. diabetes
   insipidus.  Now urine output has decreased and serum sodium has
   stabilized.
   - cont free water flushes per NG tube at 300 Q4H
   - restart tube feeds as procedure is deferred
   - daily sodium checks
   Acute Renal Failure:  ATN likely [**2-11**] hypotension resolving with Cr
   stable at 1.0-1.1.
   - blood pressure management as above
   - renal has signed off
   - UOP stable
   - renally dose medications, trend creatinine
   Anemia:  Hematocrit slowly downtrendig over past two weeks. Patient
   with two episodes of coffee ground emesis last week. Also one episode
   of perirectal bleeding thought [**2-11**] flexiseal irritation. B12, folate,
   iron labs nl on [**7-9**].
   - add on hemolysis labs
   - IV PPI [**Hospital1 7**]
   - dailiy Hct check
   - off plavix currently
   - Active T&S
   - transfuse for hct < 21
   - continue iron supplements and multivitamin
   ACS: NSTEMI
   -cont ASA, statin, beta blocker
   - d/c plavix given plans for trach
   Thrush: nystatin
   Hyperglycemia: In setting of high dose steroids (now completed) and D5W
   - Titrate ISS prn
   ICU Care
   Nutrition: Restart tube feeds
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   Communication:  Comments:
   Code status: Full code
   Disposition:

2154-07-18 10:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Respiratory failure, Encephalitis
   24 Hour Events:
   MRI brain obtained yest, read pending. trach/peg deferred for elevated
   PTT yest.
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   ASA, Zoloft, simvastatin, Colace, Peridex, Atrovent mdi, RISS, fixe
   ddose insulin, metoprolol, lansoprazole, FeSO4, MVI
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-18**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.4
C (99.4
   HR: 71 (70 - 98) bpm
   BP: 121/64(76) {80/46(54) - 152/80(94)} mmHg
   RR: 17 (6 - 18) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.6 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  3,113 mL
                                                                  1,478 mL
   PO:
             TF:
                                                                    829 mL
                                                                     75 mL
   IVF:
                                                                  1,534 mL
                                                                  1,043 mL
   Blood products:
   Total out:
                                                                  2,640 mL
                                                                  1,155 mL
   Urine:
                                                                  2,640 mL
                                                                  1,155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    473 mL
                                                                    323 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 503 (378 - 769) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 14 cmH2O
   SpO2: 95%
   ABG: ///37/
   Ve: 9.9 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Non -purposeful,
   Sedated, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   332 K/uL
   100 mg/dL
   0.8 mg/dL
   37 mEq/L
   4.0 mEq/L
   28 mg/dL
   95 mEq/L
   136 mEq/L
   26.7 %
   12.7 K/uL
        [image002.jpg]
                             [**2154-7-11**]  03:24 PM
                             [**2154-7-12**]  05:22 AM
                             [**2154-7-12**]  04:20 PM
                             [**2154-7-13**]  03:11 AM
                             [**2154-7-13**]  02:34 PM
                             [**2154-7-14**]  03:53 AM
                             [**2154-7-15**]  03:53 AM
                             [**2154-7-16**]  04:27 AM
                             [**2154-7-17**]  04:23 AM
                             [**2154-7-18**]  04:15 AM
   WBC
   14.3
   18.5
   14.3
   13.4
   12.5
   12.8
   12.7
   Hct
   28.3
   25.3
   26.4
   26.3
   26.0
   25.5
   24.5
   22.9
   25.9
   26.7
   Plt
   327
   334
   359
   [**Telephone/Fax (3) 8654**]
   332
   Cr
   1.3
   1.2
   1.2
   1.1
   1.0
   0.9
   0.8
   0.8
   Glucose
   372
   119
   189
   259
   102
   102
   97
   100
   Other labs: PT / PTT / INR:12.2/29.0/1.0, CK / CKMB /
   Troponin-T:80/14/0.07, Alk Phos / T Bili:/0.2, Differential-Neuts:94.9
   %, Band:0.0 %, Lymph:1.8 %, Mono:2.9 %, Eos:0.2 %, Ca++:7.7 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Imaging: [**7-17**] MRI brain- read pending
   Microbiology: no new data
   Assessment and Plan
   65 year old male with acute neurologic decline currently attributed to
   brainstem encephalitis now s/p aspiration event and intubation.
   Neuro: no signs of improvement since IvIg and high dose steroids.
   Appreciate neuro input. Wean propofol as tolerated. Discuss with neuro
   future plan/prognosis. LP cytology pending.
   -repeat MRI brain per Neuro, read is pending
   Resp: Unable to protect airway due to brainstem dysfunction. Off plavix
   for trach/peg, now rescheduled for today or tomorrow. Continue
   supportive ventilation (PS/MMV)
   Autonomic instability:  Hypertension/hypotension.  Continue metoprolol.
   Downtrending Hct- no clinical signs of bleeding but previously w/
   coffee-grounds from NGT, also w/ prob Fe and folate deficiency
   -hemolysis labs negative
   -appropriate bump w/ transfusion
   -on MVI and FeSO4
   CAD: off plavix for trach/peg
restart post procedure
conitnue ASA/beta
   blocker/statin
   Disposition: plan for LTAC placement following trach/PEG
   Rest per housestaff note
   ICU Care
   Nutrition:
   Comments: tube feeds held for poss trach/peg
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2154-07-19 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - MRI: No abnormal focus of parenchymal or meningeal enhancement. Pan
   mucosal sinus disease.
   - Trach/PEG in AM of [**7-19**].  IP will take him to OR for this.
   - No neuro recs - will see him [**7-19**]
   - decreased metoprolol to 50 [**Hospital1 7**]
   - started D5W as holding flushes
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-19**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.2
   HR: 81 (69 - 106) bpm
   BP: 89/57(64) {80/46(54) - 184/87(112)} mmHg
   RR: 11 (9 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.6 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  3,489 mL
                                                                    497 mL
   PO:
             TF:
                                                                    575 mL
   IVF:
                                                                  1,894 mL
                                                                    137 mL
   Blood products:
   Total out:
                                                                  2,110 mL
                                                                    380 mL
   Urine:
                                                                  2,110 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,379 mL
                                                                    117 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 600 (550 - 600) mL
   Vt (Spontaneous): 436 (436 - 883) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 12
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: ///36/
   Ve: 5.5 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, does not open
   eyes to voice or follow commands
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: Regular rate and rhythm, normal s1 and s2, no murmurs,
   rubs, gallops
   Respiratory / Chest:  Coarse breath sounds bilaterally anteriorly, no
   clear wheezes, or rhonchi
   Abdominal: Soft, Bowel sounds present, mildly distended
   Extremities: warm, well perfused, 1+ pulses, trace edema in both upper
   and lower extremities
   Skin:  No jaundice or rashes
   Neurologic: Pupils are equal and reactive, moves right foot
   spontaneously, otherwise withdraws all four extremities to painful
   stimuli but not to command
   Labs / Radiology
   337 K/uL
   8.7 g/dL
   117 mg/dL
   0.9 mg/dL
   36 mEq/L
   4.3 mEq/L
   27 mg/dL
   104 mEq/L
   146 mEq/L
   27.1 %
   14.8 K/uL
        [image002.jpg]
                             [**2154-7-12**]  05:22 AM
                             [**2154-7-12**]  04:20 PM
                             [**2154-7-13**]  03:11 AM
                             [**2154-7-13**]  02:34 PM
                             [**2154-7-14**]  03:53 AM
                             [**2154-7-15**]  03:53 AM
                             [**2154-7-16**]  04:27 AM
                             [**2154-7-17**]  04:23 AM
                             [**2154-7-18**]  04:15 AM
                             [**2154-7-19**]  04:34 AM
   WBC
   14.3
   18.5
   14.3
   13.4
   12.5
   12.8
   12.7
   14.8
   Hct
   25.3
   26.4
   26.3
   26.0
   25.5
   24.5
   22.9
   25.9
   26.7
   27.1
   Plt
   327
   334
   359
   [**Telephone/Fax (3) 8654**]
   332
   337
   Cr
   1.3
   1.2
   1.2
   1.1
   1.0
   0.9
   0.8
   0.8
   0.9
   Glucose
   372
   119
   189
   259
   102
   102
   97
   100
   117
   Other labs: PT / PTT / INR:11.8/27.1/1.0, CK / CKMB /
   Troponin-T:80/14/0.07, Alk Phos / T Bili:/0.2, Differential-Neuts:94.9
   %, Band:0.0 %, Lymph:1.8 %, Mono:2.9 %, Eos:0.2 %, Ca++:8.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.9 mg/dL
   MRI BRAIN:
   IMPRESSION:
   1. No abnormal signal intensity identified within the brainstem or
   cerebellum. There is no abnormal focus of parenchymal or meningeal
   enhancement.
   2. Subtle focus of increased FLAIR signal within the right internal
   auditory
   canal with enhancement that raises the possibility of a lesion
   involving the
   cranial nerve VII or VIII, and could be related to patient's symptoms
   of right
   facial droop.
   3. Multiple foci of T2 and FLAIR hyperintensity within the subcortical
   white
   matter, which is a nonspecific finding, and is stable since the prior
   study.
   The areas of FLAIR hyperintensity within the cortical sulci and in the
   occipital lobes is not present on today's examination, and may have
   been
   artifactual on the prior study.
   4. Panmucosal sinus disease, with nasopharyngeal secretions and
   increased
   fluid within the mastoid air cells bilaterally.
   Assessment and Plan
   65 year old male with acute neurologic decline currently attributed to
   [**Last Name (un) 8413**] encephalitis now s/p aspiration event and intubation.
   Aspiration Pneumonia/Respiratory Failure: Thought to be secondary to
   aspiration and pooling secretions with frequent desats resolved with
   suctioning. Off antibiotics. CXR with consolidations and small
   effusions. [**7-10**] sputum cx negative. [**Month (only) 51**] have component of neurologic
   disease.
   - plan for tracheostomy and PEG when PTT has come down
   - will continue current ventilatory settings in preparation for trach
   (on MMV secondary to periods of apnea).
   - hyoscyamine discontinued as thickened secretions difficult to suction
   - rehab screen post-procedure
   Elevated PTT: Likely related to Heparin SQ as it started upon
   hospitalization
   - off SQ heparin
   Autonomic instability: Likely secondary to neurologic disease
   exacerbated when propofol uptitrated. UOP sensitive to hypotension.
   - Wean metoprolol to 50mg TID with strict holding parameters for now
   - hydralazine PRN for SBPs > 180
   Neurologic decline: EEG on [**2154-7-5**] c/w widespread encephalopathy but no
   epileptiform features. Thought to have [**Last Name (un) 8413**] encephalitis but
   GQ1B Ab neg. Repeat LP [**2154-7-10**] cx neg. Flow cytometry with non-specific
   T cell dominant lymphoid profile; cytology neg for malignant cells.
   Now s/p 5 day course of both IVIG and high dose steroids.  Strength and
   mental status slowly improving.
   - f/u neuro recs
   - f/u repeat MRI/MRA head
   - haldol prn for agitation
   Hypernatremia:  Likely [**2-11**] post-ATN diuresis of urea, less likely
   component of diabetes insipidus.  UOP and Na stable.
   - cont free water flushes per NG tube at 300 Q4H
   - restart tube feeds after procedure
   - daily sodium checks
   Acute Renal Failure:  ATN likely [**2-11**] hypotension resolving with Cr
   stable at 1.0-1.1.
   - blood pressure management as above
   - UOP stable
   - renally dose medications, trend creatinine
   Anemia:  Hematocrit slowly downtrendig over past two weeks. Patient
   with two episodes of coffee ground emesis last week. Also one episode
   of perirectal bleeding thought [**2-11**] flexiseal irritation. B12, folate,
   iron labs nl on [**7-9**].
   - add on hemolysis labs
   - IV PPI [**Hospital1 7**]
   - continue iron supplements and multivitamin
   - off plavix currently
   - daily Hct check with active T&S; transfuse for Hct <21
   ACS: NSTEMI
   - cont ASA, statin, beta blocker
   - d/c plavix given plans for trach
   Thrush: nystatin
   Hyperglycemia: In setting of high dose steroids (now completed) and D5W
   - Titrate ISS prn
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2154-07-19 09:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Encephalitis, respiratory failure
   24 Hour Events:
   no events
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Other medications:
   ASA, Zoloft, simvastatin, docusate, Peridex, propofol, Atrovent,
   lasnoprazole, RISS, FeSO4, metoprolol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-19**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 90 (69 - 106) bpm
   BP: 181/92(114) {89/55(64) - 184/92(114)} mmHg
   RR: 28 (9 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108.5 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  3,489 mL
                                                                    806 mL
   PO:
             TF:
                                                                    575 mL
   IVF:
                                                                  1,894 mL
                                                                    376 mL
   Blood products:
   Total out:
                                                                  2,110 mL
                                                                    700 mL
   Urine:
                                                                  2,110 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,379 mL
                                                                    106 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 600 (550 - 600) mL
   Vt (Spontaneous): 536 (436 - 883) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 12
   PIP: 20 cmH2O
   SpO2: 98%
   ABG: ///36/
   Ve: 4.9 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   337 K/uL
   117 mg/dL
   0.9 mg/dL
   36 mEq/L
   4.3 mEq/L
   27 mg/dL
   104 mEq/L
   146 mEq/L
   27.1 %
   14.8 K/uL
        [image002.jpg]
                             [**2154-7-12**]  05:22 AM
                             [**2154-7-12**]  04:20 PM
                             [**2154-7-13**]  03:11 AM
                             [**2154-7-13**]  02:34 PM
                             [**2154-7-14**]  03:53 AM
                             [**2154-7-15**]  03:53 AM
                             [**2154-7-16**]  04:27 AM
                             [**2154-7-17**]  04:23 AM
                             [**2154-7-18**]  04:15 AM
                             [**2154-7-19**]  04:34 AM
   WBC
   14.3
   18.5
   14.3
   13.4
   12.5
   12.8
   12.7
   14.8
   Hct
   25.3
   26.4
   26.3
   26.0
   25.5
   24.5
   22.9
   25.9
   26.7
   27.1
   Plt
   327
   334
   359
   [**Telephone/Fax (3) 8654**]
   332
   337
   Cr
   1.3
   1.2
   1.2
   1.1
   1.0
   0.9
   0.8
   0.8
   0.9
   Glucose
   372
   119
   189
   259
   102
   102
   97
   100
   117
   Other labs: PT / PTT / INR:11.8/27.1/1.0, CK / CKMB /
   Troponin-T:80/14/0.07, Alk Phos / T Bili:/0.2, Differential-Neuts:94.9
   %, Band:0.0 %, Lymph:1.8 %, Mono:2.9 %, Eos:0.2 %, Ca++:8.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.9 mg/dL
   Imaging: [**7-17**] MRI brain- largely unremarkable
   Assessment and Plan
   65 year old male with acute neurologic decline currently attributed to
   brainstem encephalitis now s/p aspiration event and intubation.
   Neuro: no signs of improvement since IvIg and high dose steroids.
   Appreciate neuro input. Wean propofol as tolerated. Discuss with neuro
   future plan/prognosis. LP cytology pending.
   Resp: Unable to protect airway due to brainstem dysfunction. Off plavix
   for trach/peg, now rescheduled for today or tomorrow. Continue
   supportive ventilation (PS/MMV)
   Autonomic instability:  Hypertension/hypotension.  Continue metoprolol.
   CAD: off plavix for trach/peg
restart post procedure
conitnue ASA/beta
   blocker/statin
   Disposition: plan for LTAC placement following trach/PEG
   Rest per housestaff note
   ICU Care
   Nutrition:
   Comments: free h2o 300 q4 (held today)
   Glycemic Control:
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2154-07-20 06:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2154-7-19**] 02:50 PM
   - Trach/PEG done in OR.
   - BP decreased in OR in setting of propofol 80mg, fentanyl 200 mcg,
   vecuronium 30 mg, esmolol 10mg, requiring 1000cc LR, 300cc NS, and 1600
   mcg of neo boluses. SBP 80s on return from OR. Given 500cc bolus and
   propofol weaned down with improvement back to baseline.
   - PM Na 145. Resumed D5W on return from OR.
   - Unequal breath sounds L>R. Portable CXR with ?RML atelectasis, likely
   mucous plugging given large amt of secretions. Chest PT & suction
   overnight with improvement in lung exam.
   - Placed back on [**Year (4 digits) 4002**].
   - Minimal bleeding around trach site noted
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-20**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 90 (64 - 100) bpm
   BP: 164/81(100) {90/45(56) - 181/92(114)} mmHg
   RR: 13 (9 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108.5 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  2,981 mL
                                                                    749 mL
   PO:
             TF:
   IVF:
                                                                  2,551 mL
                                                                    749 mL
   Blood products:
   Total out:
                                                                  1,830 mL
                                                                    900 mL
   Urine:
                                                                  1,830 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,151 mL
                                                                   -151 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: [**Year (4 digits) 4002**]/PSV/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 981 (300 - 981) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 11
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: ///35/
   Ve: 6.9 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: trach
   Cardiovascular: Regular rate and rhythm, normal s1 and s2, no murmurs,
   rubs, gallops
   Respiratory / Chest:  Coarse breath sounds bilaterally anteriorly, no
   clear wheezes, or rhonchi
   Abdominal: Soft, Bowel sounds present, mildly distended, PEG
   Extremities: warm, well perfused, 1+ pulses, trace edema in both upper
   and lower extremities
   Skin:  No jaundice or rashes
   Neurologic: Pupils are equal and reactive, not moving extremities to
   noxious stimuli
   Labs / Radiology
   268 K/uL
   7.9 g/dL
   142 mg/dL
   0.8 mg/dL
   35 mEq/L
   3.8 mEq/L
   21 mg/dL
   104 mEq/L
   144 mEq/L
   24.0 %
   11.9 K/uL
        [image002.jpg]
                             [**2154-7-12**]  04:20 PM
                             [**2154-7-13**]  03:11 AM
                             [**2154-7-13**]  02:34 PM
                             [**2154-7-14**]  03:53 AM
                             [**2154-7-15**]  03:53 AM
                             [**2154-7-16**]  04:27 AM
                             [**2154-7-17**]  04:23 AM
                             [**2154-7-18**]  04:15 AM
                             [**2154-7-19**]  04:34 AM
                             [**2154-7-20**]  04:21 AM
   WBC
   18.5
   14.3
   13.4
   12.5
   12.8
   12.7
   14.8
   11.9
   Hct
   26.4
   26.3
   26.0
   25.5
   24.5
   22.9
   25.9
   26.7
   27.1
   24.0
   Plt
   [**Telephone/Fax (3) 8702**]53
   [**Telephone/Fax (2) 8703**]68
   Cr
   1.2
   1.2
   1.1
   1.0
   0.9
   0.8
   0.8
   0.9
   0.8
   Glucose
   119
   189
   259
   102
   102
   97
   100
   117
   142
   Other labs: PT / PTT / INR:12.3/28.3/1.0, CK / CKMB /
   Troponin-T:80/14/0.07, Alk Phos / T Bili:/0.2, Differential-Neuts:94.9
   %, Band:0.0 %, Lymph:1.8 %, Mono:2.9 %, Eos:0.2 %, Ca++:8.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.9 mg/dL
   Microbiology: None
   Images:  CXR with persistence of RLL/RML atelectasis suggested by
   rightward tracheal deviation
   Assessment and Plan
   65 year old male with acute neurologic decline currently attributed to
   [**Last Name (un) 8413**] encephalitis now s/p aspiration event and intubation.
   Aspiration Pneumonia/Respiratory Failure: Thought to be secondary to
   aspiration and pooling secretions with frequent desats resolved with
   suctioning. Off antibiotics. CXR with consolidations and small
   effusions. [**7-10**] sputum cx negative. [**Month (only) 51**] have component of neurologic
   disease.
   - received tracheostomy and PEG yesterday
   - noted to have decreased breath sounds on the right overnight
   concerning for mucous plugging.
   - considering bronch today
   - repeat CXR pending
   - continue suction, chest PT
   - currently continues on [**Last Name (LF) 4002**], [**First Name3 (LF) **] try to wean to CPAP today
   - cont rehab screeen for d/c post-procedure
   Autonomic instability: Likely secondary to neurologic disease
   exacerbated when propofol uptitrated. UOP sensitive to hypotension.
   - cont metoprolol 50mg [**Hospital1 **] with strict holding parameters
   - hydralazine PRN for SBPs > 180
   Neurologic decline: EEG on [**2154-7-5**] c/w widespread encephalopathy but no
   epileptiform features. Thought to have [**Last Name (un) 8413**] encephalitis but
   GQ1B Ab neg. Repeat LP [**2154-7-10**] cx neg. Flow cytometry with non-specific
   T cell dominant lymphoid profile; cytology neg for malignant cells. Now
   s/p 5 day course of both IVIG and high dose steroids with nonspecific
   MRI finding. Neuro exam stable with any improvement likely to be
   observed on the scale of weeks.
   - f/u neuro recs
   - haldol prn for agitation
   Hypernatremia:  Likely [**2-11**] post-ATN diuresis of urea and insensible
   free water losses. Less likely component of diabetes insipidus.
   - cont D5W at 100 cc/h with plan to resume free water flushes at 300cc
   Q4H when PEG ready to use
   - restart tube feeds after procedure
   - daily sodium checks
   Acute Renal Failure:  ATN likely [**2-11**] hypotension now resolved.
   - blood pressure management as above
   - UOP stable
   - renally dose medications, trend creatinine
   Anemia:  Unclear etiology for slow downtrend in Hct over 2 weeks. Did
   have two episodes of coffee ground emesis as well as one episode of
   perirectal bleeding thought [**2-11**] flexiseal irritation. B12, folate, iron
   labs nl on [**7-9**]; no e/o hemolysis on [**7-16**]. Hct stable s/p 1 unit pRBC on
   [**2154-7-16**].
   - IV PPI [**Hospital1 7**]
   - continue iron supplements and multivitamin
   - hold off on restarting plavix and heparin SC as trach oozing
   - PM Hct
   - active T&S; transfuse for Hct <21
   ACS: NSTEMI
   - cont ASA, statin, beta blocker
   - holding plavix given plans for trach with plan to restart after
   Thrush: nystatin
   Hyperglycemia: In setting of high dose steroids (now completed) and D5W
   - titrate ISS prn
   ICU Care
   Nutrition: Restart tube feeds 24 h s/p PEG placement (5 pm)
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: Pneumoboots; holding SC heparin [**Hospital1 7**] for now
   Stress ulcer: Lansoprazole 30 mg daily
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU, screening for Rehab

2154-07-20 10:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Respiratory Failure, encephalitis
   24 Hour Events:
   s/p trach and PEG yest. mild [**Last Name (un) **] improved w/ chest PT and deep
   suctioning
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   ASA, Zoloft, Simvastatin, Colace, Peridex, Propofol, Atrovent,
   Lansoprazole, MVI, RISS, FeSO4, metoprolol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-20**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.8
   HR: 81 (64 - 102) bpm
   BP: 169/75(99) {90/45(56) - 169/81(100)} mmHg
   RR: 12 (9 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108.5 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  2,981 mL
                                                                  1,155 mL
   PO:
             TF:
   IVF:
                                                                  2,551 mL
                                                                  1,155 mL
   Blood products:
   Total out:
                                                                  1,830 mL
                                                                  1,440 mL
   Urine:
                                                                  1,830 mL
                                                                  1,440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,151 mL
                                                                   -285 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 560 (300 - 981) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 11
   PIP: 12 cmH2O
   SpO2: 94%
   ABG: ///35/
   Ve: 8.3 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy site w/ some
   sanguinous oozing
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   268 K/uL
   142 mg/dL
   0.8 mg/dL
   35 mEq/L
   3.8 mEq/L
   21 mg/dL
   104 mEq/L
   144 mEq/L
   24.0 %
   11.9 K/uL
        [image002.jpg]
                             [**2154-7-12**]  04:20 PM
                             [**2154-7-13**]  03:11 AM
                             [**2154-7-13**]  02:34 PM
                             [**2154-7-14**]  03:53 AM
                             [**2154-7-15**]  03:53 AM
                             [**2154-7-16**]  04:27 AM
                             [**2154-7-17**]  04:23 AM
                             [**2154-7-18**]  04:15 AM
                             [**2154-7-19**]  04:34 AM
                             [**2154-7-20**]  04:21 AM
   WBC
   18.5
   14.3
   13.4
   12.5
   12.8
   12.7
   14.8
   11.9
   Hct
   26.4
   26.3
   26.0
   25.5
   24.5
   22.9
   25.9
   26.7
   27.1
   24.0
   Plt
   [**Telephone/Fax (3) 8702**]53
   [**Telephone/Fax (2) 8703**]68
   Cr
   1.2
   1.2
   1.1
   1.0
   0.9
   0.8
   0.8
   0.9
   0.8
   Glucose
   119
   189
   259
   102
   102
   97
   100
   117
   142
   Other labs: PT / PTT / INR:12.3/28.3/1.0, CK / CKMB /
   Troponin-T:80/14/0.07, Alk Phos / T Bili:/0.2, Differential-Neuts:94.9
   %, Band:0.0 %, Lymph:1.8 %, Mono:2.9 %, Eos:0.2 %, Ca++:8.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.9 mg/dL
   Imaging: [**7-19**] CXR- ? RML collapse
   [**7-20**] CXR- RML, ?RLL collapse
   Assessment and Plan
   65 year old male with acute neurologic decline currently attributed to
   brainstem encephalitis now s/p aspiration event and intubation. s/p
   trach and PEG on [**7-19**]
   Neuro: no signs of improvement since IvIg and high dose steroids.
   Appreciate neuro input. Wean propofol as tolerated. Discuss with neuro
   future plan/prognosis. LP cytology pending.
   Resp: Unable to protect airway due to brainstem dysfunction. Continue
   supportive ventilation (PS/MMV)
   -chest PT and deep suctioning for RML/RLL collapse, will bronch to eval
   and clear airways
   -s/p trach and PEG, local care for cont'd oozing at trach site
   Autonomic instability:  Hypertension/hypotension.  Continue metoprolol.
   CAD: stable
   -conitnue ASA/beta blocker/statin
   -resumed Plavix once peri-trach ozzing has subsided
   Disposition: plan for LTAC placement following trach/PEG
   Rest per housestaff note
   ICU Care
   Nutrition:
   Comments: 300 cc H2o bolus q4, tube feeds to be resumed tonight
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments: resume sq heparin when trach site oozing better
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2154-07-21 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2154-7-20**] 01:30 PM
 BAL FLUID CULTURE - At [**2154-7-20**] 02:00 PM
 EEG - At [**2154-7-20**] 03:00 PM
   - tube feeds restarted
   - oozing noted around trach site so plavix and SC heparin held
   - bronchoscopy revealed significant thick secretions in all lobes, gram
   stain with 1+ gram negative diplococci
   - started on vancomycin, cefepime and ciprofloxacin
   - received EEG, results pending
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2154-7-20**] 03:00 PM
   Cefipime - [**2154-7-21**] 02:15 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-21**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 94 (81 - 115) bpm
   BP: 120/75(84) {73/38(48) - 173/90(109)} mmHg
   RR: 19 (10 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108.5 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  2,636 mL
                                                                    586 mL
   PO:
             TF:
                                                                    116 mL
                                                                    384 mL
   IVF:
                                                                  2,445 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                  2,425 mL
                                                                    620 mL
   Urine:
                                                                  2,425 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    211 mL
                                                                    -34 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 838 (490 - 838) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 40
   PIP: 17 cmH2O
   SpO2: 99%
   ABG: ///31/
   Ve: 7.1 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: trach
   Cardiovascular: Regular rate and rhythm, normal s1 and s2, no murmurs,
   rubs, gallops
   Respiratory / Chest:  Coarse breath sounds bilaterally anteriorly, no
   clear wheezes, or rhonchi
   Abdominal: Soft, Bowel sounds present, mildly distended, PEG
   Extremities: warm, well perfused, 1+ pulses, trace edema in both upper
   and lower extremities
   Skin:  No jaundice or rashes
   Neurologic: Pupils are equal and reactive, not moving extremities to
   noxious stimuli
   Labs / Radiology
   257 K/uL
   8.0 g/dL
   128 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.8 mEq/L
   21 mg/dL
   104 mEq/L
   142 mEq/L
   24.3 %
   12.8 K/uL
        [image002.jpg]
                             [**2154-7-13**]  02:34 PM
                             [**2154-7-14**]  03:53 AM
                             [**2154-7-15**]  03:53 AM
                             [**2154-7-16**]  04:27 AM
                             [**2154-7-17**]  04:23 AM
                             [**2154-7-18**]  04:15 AM
                             [**2154-7-19**]  04:34 AM
                             [**2154-7-20**]  04:21 AM
                             [**2154-7-20**]  02:59 PM
                             [**2154-7-21**]  04:19 AM
   WBC
   14.3
   13.4
   12.5
   12.8
   12.7
   14.8
   11.9
   12.8
   Hct
   26.0
   25.5
   24.5
   22.9
   25.9
   26.7
   27.1
   24.0
   24.1
   24.3
   Plt
   359
   341
   353
   [**Telephone/Fax (3) **]
   268
   257
   Cr
   1.1
   1.0
   0.9
   0.8
   0.8
   0.9
   0.8
   0.8
   Glucose
   259
   102
   102
   97
   100
   117
   142
   128
   Other labs: PT / PTT / INR:12.2/27.3/1.0, CK / CKMB /
   Troponin-T:80/14/0.07, Alk Phos / T Bili:/0.2, Differential-Neuts:94.9
   %, Band:0.0 %, Lymph:1.8 %, Mono:2.9 %, Eos:0.2 %, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Microbiology:
[**2154-7-20**] 1:27 pm BRONCHIAL WASHINGS
   GRAM STAIN (Final [**2154-7-20**]):
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI.
   Imaging:
   Portable CXR [**2154-7-20**]:
   The tracheostomy tip is at the midline, 5 cm above the carina. There is
   presence of the right at least partial lower lobe atelectasis with
   improvement
   of the right upper lung aeration most likely due to resolution of right
   upper
   lobe atelectasis. The right PICC line tip is at the level of cavoatrial
   junction. The left lung is unremarkable.
   Assessment and Plan
 GRIEVING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERNATREMIA (HIGH SODIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 ANXIETY
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   65 year old male with acute neurologic decline currently attributed to
   [**Last Name (un) 8413**] encephalitis now s/p aspiration event and intubation.
   Aspiration Pneumonia/Respiratory Failure: Thought to be secondary to
   aspiration and pooling secretions with frequent desats resolved with
   suctioning. Off antibiotics. CXR with consolidations and small
   effusions. [**7-10**] sputum cx negative. [**Month (only) 51**] be [**2-11**] to component of
   neurologic disease.
   - received tracheostomy and PEG [**2154-7-19**]
   - Fentanyl boluses for pain post-trach/PEG
   - noted to have decreased breath sounds on the right overnight
   concerning for mucous plugging, bronched on [**2154-7-20**] with thick
   secretions throughout.  Preliminary cultures with gram negative
   diplococci.
   - consider vancomycin, cefepime and ciprofloxacin
   - continue suction, chest PT
   - rested on CMV overnight, will try to retransition to CPAP later today
   or tomorrow
   - cont rehab screeen for d/c
   Autonomic instability: Likely secondary to neurologic disease
   exacerbated when propofol uptitrated. UOP sensitive to hypotension.
   - cont metoprolol 50mg [**Hospital1 **] with strict holding parameters
   - hydralazine PRN for SBPs > 180
   Neurologic decline: EEG on [**2154-7-5**] c/w widespread encephalopathy but no
   epileptiform features. Thought to have [**Last Name (un) 8413**] encephalitis but
   GQ1B Ab neg. Repeat LP [**2154-7-10**] cx neg. Flow cytometry with non-specific
   T cell dominant lymphoid profile; cytology neg for malignant cells. Now
   s/p 5 day course of both IVIG and high dose steroids with nonspecific
   MRI finding. Neuro exam stable with any improvement likely to be
   observed on the scale of weeks.
   - f/u neuro recs
   - haldol prn for agitation
   Hypernatremia:  Likely [**2-11**] post-ATN diuresis of urea and insensible
   free water losses. Less likely component of diabetes insipidus.
   - cont D5W at 100 cc/h with plan to resume free water flushes at 300cc
   Q4H when PEG ready to use
   - restart tube feeds after procedure
   - daily sodium checks
   Acute Renal Failure:  ATN likely [**2-11**] hypotension now resolved.
   - blood pressure management as above
   - UOP stable
   - renally dose medications, trend creatinine
   Anemia:  Unclear etiology for slow downtrend in Hct over 2 weeks. Did
   have two episodes of coffee ground emesis as well as one episode of
   perirectal bleeding thought [**2-11**] flexiseal irritation. B12, folate, iron
   labs nl on [**7-9**]; no e/o hemolysis on [**7-16**]. Hct stable s/p 1 unit pRBC on
   [**2154-7-16**].
   - IV PPI [**Hospital1 7**]
   - continue iron supplements and multivitamin
   - restarting plavix and heparin SC
   - PM Hct
   - active T&S; transfuse for Hct <21
   ACS: NSTEMI
   - cont ASA, statin, beta blocker
   - holding plavix given plans for trach with plan to restart after
   Thrush: nystatin
   Hyperglycemia: In setting of high dose steroids (now completed) and D5W
   - titrate ISS prn
   ICU Care
   Nutrition: Restart tube feeds 24 h s/p PEG placement (5 pm)
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: Pneumoboots; holding SC heparin [**Hospital1 7**] for now
   Stress ulcer: Lansoprazole 30 mg daily
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU, screening for Rehab

2154-07-21 10:21:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   bronch yest w/ sig purulent secretions noted
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2154-7-21**] 02:15 AM
   Vancomycin - [**2154-7-21**] 09:10 AM
   Infusions:
   Other ICU medications:
   Other medications:
   ASA, Zoloft, Zocor, Colace, Peridex, Propofol gtt, MVI, lasoprazole,
   RISs, FeSO4, metoprolol, MVI
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-21**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 89 (81 - 115) bpm
   BP: 124/74(84) {73/38(48) - 173/90(109)} mmHg
   RR: 10 (10 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108.5 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  2,636 mL
                                                                  1,159 mL
   PO:
             TF:
                                                                    116 mL
                                                                    638 mL
   IVF:
                                                                  2,445 mL
                                                                    371 mL
   Blood products:
   Total out:
                                                                  2,425 mL
                                                                    720 mL
   Urine:
                                                                  2,425 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    211 mL
                                                                    439 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 838 (490 - 838) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 40
   PIP: 26 cmH2O
   SpO2: 95%
   ABG: ///31/
   Ve: 7.9 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach site w/ scant thick
   sanguinous drainage
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Rhonchorous: )
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   257 K/uL
   128 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.8 mEq/L
   21 mg/dL
   104 mEq/L
   142 mEq/L
   24.3 %
   12.8 K/uL
        [image002.jpg]
                             [**2154-7-13**]  02:34 PM
                             [**2154-7-14**]  03:53 AM
                             [**2154-7-15**]  03:53 AM
                             [**2154-7-16**]  04:27 AM
                             [**2154-7-17**]  04:23 AM
                             [**2154-7-18**]  04:15 AM
                             [**2154-7-19**]  04:34 AM
                             [**2154-7-20**]  04:21 AM
                             [**2154-7-20**]  02:59 PM
                             [**2154-7-21**]  04:19 AM
   WBC
   14.3
   13.4
   12.5
   12.8
   12.7
   14.8
   11.9
   12.8
   Hct
   26.0
   25.5
   24.5
   22.9
   25.9
   26.7
   27.1
   24.0
   24.1
   24.3
   Plt
   359
   341
   353
   [**Telephone/Fax (3) **]
   268
   257
   Cr
   1.1
   1.0
   0.9
   0.8
   0.8
   0.9
   0.8
   0.8
   Glucose
   259
   102
   102
   97
   100
   117
   142
   128
   Other labs: PT / PTT / INR:12.2/27.3/1.0, CK / CKMB /
   Troponin-T:80/14/0.07, Alk Phos / T Bili:/0.2, Differential-Neuts:94.9
   %, Band:0.0 %, Lymph:1.8 %, Mono:2.9 %, Eos:0.2 %, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR [**7-21**]- RUL more patent, RLL infiltrate less dense
   Microbiology: [**7-20**] Bronch- GPCs noted in all specimens
   Assessment and Plan
   65 year old male with acute neurologic decline currently attributed to
   brainstem encephalitis now s/p aspiration event and intubation. s/p
   trach and PEG on [**7-19**]
   Neuro: no signs of improvement since IvIg and high dose steroids.
   Appreciate neuro input. Wean propofol as tolerated. Discuss with neuro
   future plan/prognosis. LP cytology pending.
   Resp: trach on [**7-19**]. Mucous plugging and presumed VAP per bronch on
   [**7-20**]
   -chest PT and deep suctioning for RML/RLL collapse
   -s/p trach and PEG, local care for cont'd oozing at trach site
   -vanco + cefepime + ciprofloxacin
   Autonomic instability:  Hypertension>hypotension.  Continue metoprolol.
   CAD: stable
   -conitnue ASA/beta blocker/statin
   -resume Plavix today
   Disposition: plan for LTAC placement following trach/PEG
   Rest per housestaff note
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-21**] 06:30 AM 70 mL/hour
   Comments: 30cc q4 H2O free water flushes
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU, critically ill
   Total time spent: 30 minutes

2154-07-22 06:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Still no read on EEG
   - Restarted Plavix and SQ heparin, but still oozing in PM with clots
   around trach so plavix and SQ heparin held again.  IP stopped by and
   recommended silver nitrate stick TP. If that doesn't work, can try
   sub-Q Epinephrine 1:1000 for vasoconstriction.
   - Hct dropped to 22, but by then we acheived hemostasis with silver
   nitrate.
   - Continued on AC with propafol to PEEP open lungs given copious
   secretions
   - Fentanyl boluses PRN for Trach pain.
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2154-7-21**] 08:01 PM
   Cefipime - [**2154-7-22**] 02:12 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2154-7-21**] 08:02 PM
   Fentanyl - [**2154-7-21**] 10:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-22**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.5
C (99.5
   HR: 76 (76 - 99) bpm
   BP: 132/70(86) {98/49(63) - 154/6,757(97)} mmHg
   RR: 12 (8 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108.5 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  3,523 mL
                                                                  1,267 mL
   PO:
             TF:
                                                                  1,610 mL
                                                                    426 mL
   IVF:
                                                                    773 mL
                                                                    181 mL
   Blood products:
   Total out:
                                                                  1,590 mL
                                                                    770 mL
   Urine:
                                                                  1,590 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,933 mL
                                                                    497 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 40
   PIP: 27 cmH2O
   SpO2: 97%
   ABG: ///32/
   Ve: 7.1 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: trach
   Cardiovascular: Regular rate and rhythm, normal s1 and s2, no murmurs,
   rubs, gallops
   Respiratory / Chest:  Coarse breath sounds bilaterally anteriorly, no
   clear wheezes, or rhonchi
   Abdominal: Soft, Bowel sounds present, mildly distended, PEG
   Extremities: warm, well perfused, 1+ pulses, trace edema in both upper
   and lower extremities
   Skin:  No jaundice or rashes
   Neurologic: Pupils are equal and reactive, not moving extremities to
   noxious stimuli
   Labs / Radiology
   254 K/uL
   7.4 g/dL
   126 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.1 mEq/L
   23 mg/dL
   105 mEq/L
   144 mEq/L
   22.6 %
   10.5 K/uL
        [image002.jpg]
                             [**2154-7-15**]  03:53 AM
                             [**2154-7-16**]  04:27 AM
                             [**2154-7-17**]  04:23 AM
                             [**2154-7-18**]  04:15 AM
                             [**2154-7-19**]  04:34 AM
                             [**2154-7-20**]  04:21 AM
                             [**2154-7-20**]  02:59 PM
                             [**2154-7-21**]  04:19 AM
                             [**2154-7-21**]  04:38 PM
                             [**2154-7-22**]  04:00 AM
   WBC
   13.4
   12.5
   12.8
   12.7
   14.8
   11.9
   12.8
   10.5
   Hct
   24.5
   22.9
   25.9
   26.7
   27.1
   24.0
   24.1
   24.3
   22.0
   22.6
   Plt
   [**Telephone/Fax (3) 8727**]32
   [**Telephone/Fax (2) 8728**]54
   Cr
   1.0
   0.9
   0.8
   0.8
   0.9
   0.8
   0.8
   0.8
   Glucose
   102
   102
   97
   100
   117
   142
   128
   126
   Other labs: PT / PTT / INR:12.1/28.8/1.0, Ca++:8.2 mg/dL, Mg++:2.2
   mg/dL, PO4:2.6 mg/dL
[**2154-7-20**] 1:43 pm BRONCHOALVEOLAR LAVAGE      RIGHT LOWER LOBE.
   GRAM STAIN (Final [**2154-7-20**]):
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI.
   RESPIRATORY CULTURE (Preliminary):    RESULTS PENDING.
[**2154-7-20**] 1:27 pm BRONCHIAL WASHINGS
   GRAM STAIN (Final [**2154-7-20**]):
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI.
   RESPIRATORY CULTURE (Preliminary):    RESULTS PENDING.
   [**2154-7-21**] CXR The tracheostomy tip is 7.2 cm above the carina.
   Cardiomediastinal silhouette is unchanged. There is slight interval
   improvement in the right lower lobe atelectasis. The rest of the lungs
   are grossly unremarkable with still present minimal left basal
   atelectasis. There is no interval increase in pleural effusion or
   pneumothorax.
   Assessment and Plan
   65 year old male with acute neurologic decline currently attributed to
   [**Last Name (un) 8413**] encephalitis now s/p aspiration event and intubation.
   Aspiration Pneumonia/Respiratory Failure: Thought to be secondary to
   aspiration and pooling secretions with frequent desats resolved with
   suctioning. S/p trach/PEG on [**7-19**]. Concern for mucous plugging on [**7-19**]
   given thick secretions; [**7-20**] BAL and bronch washings with gram neg
   diplococci on gram stain, cx pending. [**Month (only) 51**] also have component from
   neurologic disease.
   - Cont broad coverage with vancomycin, cefepime and ciprofloxacin
   pending further micro
   - on AC to try to PEEP open lungs
   - CXR to assess today
   - continue suction, chest PT
   - fentanyl boluses for pain post-trach/PEG
   - cont rehab screeen for d/c
   Autonomic instability: Likely secondary to neurologic disease
   exacerbated when propofol uptitrated. UOP sensitive to hypotension.
   - cont metoprolol 50mg [**Hospital1 **] with strict holding parameters
   - hydralazine PRN for SBPs > 180
   Neurologic decline: EEG on [**2154-7-5**] c/w widespread encephalopathy but no
   epileptiform features. Thought to have [**Last Name (un) 8413**] encephalitis but
   GQ1B Ab neg. Repeat LP [**2154-7-10**] cx neg. Flow cytometry with non-specific
   T cell dominant lymphoid profile; cytology neg for malignant cells. Now
   s/p 5 day course of both IVIG and high dose steroids with nonspecific
   MRI finding. Neuro exam stable with any improvement likely to be
   observed on the scale of weeks.
   - f/u neuro recs
   - stopping propafol
   - fentanyl prn for agitation/pain
   - haldol Prn for agitation
   Hypernatremia:  Likely [**2-11**] post-ATN diuresis of urea and insensible
   free water losses. Less likely component of diabetes insipidus.
   - cont free water flushes at 300cc Q4H when PEG ready to use
   - continue tube feeds
   - daily sodium checks
   Acute Renal Failure:  ATN likely [**2-11**] hypotension now resolved.
   - blood pressure management as above
   - UOP stable
   - renally dose medications, trend creatinine
   Anemia:  Unclear etiology for slow downtrend in Hct over 2 weeks. Did
   have two episodes of coffee ground emesis as well as one episode of
   perirectal bleeding thought [**2-11**] flexiseal irritation. B12, folate, iron
   labs nl on [**7-9**]; no e/o hemolysis on [**7-16**]. Hct stable s/p 1 unit pRBC on
   [**2154-7-16**]. Bleeding from trach resolved with silver nitrate.
   - IV PPI [**Hospital1 7**]
   - continue iron supplements and multivitamin
   - hold plavix and heparin SC
   - PM Hct
   - active T&S; transfuse for Hct <21
   ACS: NSTEMI
   - cont ASA, statin, beta blocker
   - hold plavix
   Thrush: nystatin
   Hyperglycemia: In setting of high dose steroids (now completed)
   - titrate ISS prn
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-22**] 03:54 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2154-07-22 10:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Respiratory Failure, Encephalitis
   24 Hour Events:
   sc heparin and plavix held yest for trach site oozing.
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2154-7-22**] 02:12 AM
   Vancomycin - [**2154-7-22**] 09:18 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2154-7-21**] 08:02 PM
   Fentanyl - [**2154-7-22**] 06:27 AM
   Other medications:
   ASA, Zoloft, Zocor, Colace, Propofol gtt, Prevacid, MVI, RISS, fixed
   dose insulin, FeSO4, lopressor, vanco, cefepime, ciproflox
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-22**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.2
   HR: 80 (76 - 95) bpm
   BP: 146/72(91) {98/49(63) - 168/6,757(103)} mmHg
   RR: 13 (8 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108.5 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  3,523 mL
                                                                  2,399 mL
   PO:
             TF:
                                                                  1,610 mL
                                                                    730 mL
   IVF:
                                                                    773 mL
                                                                    539 mL
   Blood products:
   Total out:
                                                                  1,590 mL
                                                                  1,030 mL
   Urine:
                                                                  1,590 mL
                                                                  1,030 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,933 mL
                                                                  1,369 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 40
   PIP: 30 cmH2O
   SpO2: 99%
   ABG: ///32/
   Ve: 7 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) OG tube, trach site
   c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, peg site c/d/i
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   254 K/uL
   126 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.1 mEq/L
   23 mg/dL
   105 mEq/L
   144 mEq/L
   22.6 %
   10.5 K/uL
        [image002.jpg]
                             [**2154-7-15**]  03:53 AM
                             [**2154-7-16**]  04:27 AM
                             [**2154-7-17**]  04:23 AM
                             [**2154-7-18**]  04:15 AM
                             [**2154-7-19**]  04:34 AM
                             [**2154-7-20**]  04:21 AM
                             [**2154-7-20**]  02:59 PM
                             [**2154-7-21**]  04:19 AM
                             [**2154-7-21**]  04:38 PM
                             [**2154-7-22**]  04:00 AM
   WBC
   13.4
   12.5
   12.8
   12.7
   14.8
   11.9
   12.8
   10.5
   Hct
   24.5
   22.9
   25.9
   26.7
   27.1
   24.0
   24.1
   24.3
   22.0
   22.6
   Plt
   [**Telephone/Fax (3) 8727**]32
   [**Telephone/Fax (2) 8728**]54
   Cr
   1.0
   0.9
   0.8
   0.8
   0.9
   0.8
   0.8
   0.8
   Glucose
   102
   102
   97
   100
   117
   142
   128
   126
   Other labs: PT / PTT / INR:12.1/28.8/1.0, CK / CKMB /
   Troponin-T:80/14/0.07, Alk Phos / T Bili:/0.2, Differential-Neuts:94.9
   %, Band:0.0 %, Lymph:1.8 %, Mono:2.9 %, Eos:0.2 %, Ca++:8.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Imaging: [**7-20**] EEG- pending
   Microbiology: [**7-19**] Bronch- GNCs
   Assessment and Plan
   65 year old male with acute neurologic decline currently attributed to
   brainstem encephalitis now s/p aspiration event and intubation. s/p
   trach and PEG on [**7-19**]
   Neuro: no signs of improvement since IvIg and high dose steroids.
   Appreciate neuro input. Wean propofol as tolerated. Discuss with neuro
   future plan/prognosis. LP cytology pending.
   Resp: trach on [**7-19**]. Mucous plugging and presumed VAP per bronch on
   [**7-20**]
   -chest PT and deep suctioning for RML/RLL collapse
   -PSV trial today and d/c propofol
   -s/p trach and PEG [**7-17**]
   -vanco + cefepime + ciprofloxacin; narrow based on cx data
   -repeat CXR to assess re-expansion
   Autonomic instability:  Hypertension>hypotension.  Continue metoprolol.
   CAD: stable
   -continue ASA/beta blocker/statin
   -resume Plavix tomorrow if stable trach site
   Anemia: poss related to trach-site oozing
   -trend, transfuse for Hct < 21
   Disposition: plan for LTAC placement following trach/PEG
   Rest per housestaff note
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-22**] 03:54 AM 70 mL/hour
   Comments: 300cc free h2O q4
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2154-07-23 06:49:00 Physician Resident Progress Note
TITLE:
   24 Hour Events:
   - CXR with improvement in RML atelectasis. Placed back onto pressure
   support.
   - Propofol discontinued. Pt responding to commands and moving all
   extremities purposefully.
   - Received fentanyl boluses prn for pain control and haldol prn for
   agitation.
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2154-7-22**] 08:00 PM
   Cefipime - [**2154-7-23**] 02:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2154-7-22**] 04:15 PM
   Haloperidol (Haldol) - [**2154-7-23**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-23**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 82 (70 - 105) bpm
   BP: 176/83(106) {137/65(82) - 188/94(116)} mmHg
   RR: 11 (8 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108.5 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  4,734 mL
                                                                  1,288 mL
   PO:
             TF:
                                                                  1,690 mL
                                                                    471 mL
   IVF:
                                                                    834 mL
                                                                    117 mL
   Blood products:
   Total out:
                                                                  1,985 mL
                                                                    700 mL
   Urine:
                                                                  1,985 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,749 mL
                                                                    588 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 1,393 (88 - 1,393) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 56
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 15.3 L/min
   Physical Examination
   General Appearance: No acute distress, more interactive, follows
   commands unilaterally
   Head, Ears, Nose, Throat: trach
   Cardiovascular: Regular rate and rhythm, normal s1 and s2, no murmurs,
   rubs, gallops
   Respiratory / Chest:  Coarse breath sounds bilaterally anteriorly, no
   clear wheezes, or rhonchi
   Abdominal: Soft, Bowel sounds present, mildly distended, PEG
   Extremities: warm, well perfused, 1+ pulses, trace edema in both upper
   and lower extremities
   Skin:  No jaundice or rashes
   Neurologic: Pupils are equal and reactive, following commands
   consistently and moving all extremities purposefully
   Labs / Radiology
   7.5 g/dL
   254 K/uL
   129 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.4 mEq/L
   24 mg/dL
   106 mEq/L
   143 mEq/L
   22.0 %
   13.0 K/uL
        [image002.jpg]
                             [**2154-7-17**]  04:23 AM
                             [**2154-7-18**]  04:15 AM
                             [**2154-7-19**]  04:34 AM
                             [**2154-7-20**]  04:21 AM
                             [**2154-7-20**]  02:59 PM
                             [**2154-7-21**]  04:19 AM
                             [**2154-7-21**]  04:38 PM
                             [**2154-7-22**]  04:00 AM
                             [**2154-7-22**]  04:05 PM
                             [**2154-7-23**]  04:34 AM
   WBC
   12.8
   12.7
   14.8
   11.9
   12.8
   10.5
   13.0
   Hct
   25.9
   26.7
   27.1
   24.0
   24.1
   24.3
   22.0
   22.6
   23.0
   22.0
   Plt
   [**Telephone/Fax (2) 8749**]
   254
   Cr
   0.8
   0.8
   0.9
   0.8
   0.8
   0.8
   0.8
   Glucose
   97
   100
   117
   142
   128
   126
   129
   Other labs: PT / PTT / INR:12.1/26.2/1.0, CK / CKMB /
   Troponin-T:80/14/0.07, Alk Phos / T Bili:/0.2, Differential-Neuts:94.9
   %, Band:0.0 %, Lymph:1.8 %, Mono:2.9 %, Eos:0.2 %, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Microbiology:
[**2154-7-20**] 1:43 pm BRONCHOALVEOLAR LAVAGE      RIGHT LOWER LOBE.
   GRAM STAIN (Final [**2154-7-20**]):
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI.
   RESPIRATORY CULTURE (Preliminary):
      10,000-100,000 ORGANISMS/ML. OROPHARYNGEAL FLORA.
   Imaging:
   Portable CXR [**2154-7-22**]: Lower lobe collapse persists, right middle lobe
   collapse may have resolved.  Left lungi s clear.  Heart size is normal,
   persistently shifted mildly to the right of midline.  Tracheostomy tube
   in standard placement.  Tip of the right PICC line is at least as far
   as the low SVC, but the tip is indistinct.  No pneumothorax.
   Assessment and Plan
   65 year old male with acute neurologic decline currently attributed to
   [**Last Name (un) 8413**] encephalitis now s/p aspiration event and intubation.
   Aspiration Pneumonia/Respiratory Failure: Thought to be secondary to
   aspiration and pooling secretions with frequent desats resolved with
   suctioning. S/p trach/PEG on [**7-19**]. Concern for mucous plugging on [**7-19**]
   given thick secretions; [**7-20**] BAL and bronch washings with gram neg
   diplococci on gram stain, cx pending. [**Month (only) 51**] also have component from
   neurologic disease.
   - Currently on vancomycin, cefepime and ciprofloxacin for ten day
   course (day 1 [**2154-7-20**]), will discontinue vancomycin given no history of
   MRSA
   - continue pressure support
   - continue suction, chest PT
   - fentanyl boluses for pain post-trach/PEG
   - cont rehab screeen for d/c
   Autonomic instability: Likely secondary to neurologic disease
   exacerbated when propofol uptitrated. UOP sensitive to hypotension.
   - cont metoprolol 50mg [**Hospital1 **] with strict holding parameters
   - hydralazine PRN for SBPs > 180
   Neurologic decline: EEG on [**2154-7-5**] c/w widespread encephalopathy but no
   epileptiform features. Thought to have [**Last Name (un) 8413**] encephalitis but
   GQ1B Ab neg. Repeat LP [**2154-7-10**] cx neg. Flow cytometry with non-specific
   T cell dominant lymphoid profile; cytology neg for malignant cells. Now
   s/p 5 day course of both IVIG and high dose steroids with nonspecific
   MRI finding. Neuro significantly improved today.
   - f/u neuro recs
   -  propofol now discontinued
   - fentanyl prn for agitation/pain
   - zydis PRN for agitation
   Hypernatremia:  Likely [**2-11**] post-ATN diuresis of urea and insensible
   free water losses. Less likely component of diabetes insipidus.
   - cont free water flushes at 300cc Q4H when PEG ready to use
   - continue tube feeds
   - daily sodium checks
   Acute Renal Failure:  ATN likely [**2-11**] hypotension now resolved.
   - blood pressure management as above
   - UOP stable
   - renally dose medications, trend creatinine
   Anemia:  Unclear etiology for slow downtrend in Hct over 2 weeks. Did
   have two episodes of coffee ground emesis as well as one episode of
   perirectal bleeding thought [**2-11**] flexiseal irritation. B12, folate, iron
   labs nl on [**7-9**]; no e/o hemolysis on [**7-16**]. Hct stable s/p 1 unit pRBC on
   [**2154-7-16**]. Bleeding from trach resolved with silver nitrate.
   - IV PPI [**Hospital1 7**]
   - continue iron supplements and multivitamin
   - hold plavix and heparin SC
   - PM Hct
   - active T&S; transfuse for Hct <21
   ACS: NSTEMI
   - cont ASA, statin, beta blocker
   - will restart plavix
   Thrush: nystatin
   Hyperglycemia: In setting of high dose steroids (now completed)
   - titrate ISS prn
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-23**] 01:11 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: [**Last Name (LF) 2828**], [**First Name3 (LF) **] restart SC heparin [**Hospital1 7**]
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU, screening for LTAC

2154-07-23 10:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Respiratory Failure, RLL pneumonia, Encephalitis
   24 Hour Events:
   noted to follow commands more appropriately since yest pm.
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2154-7-23**] 02:00 AM
   Vancomycin - [**2154-7-23**] 08:34 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2154-7-22**] 04:15 PM
   Haloperidol (Haldol) - [**2154-7-23**] 12:00 AM
   Other medications:
   ASA, Zoloft, Zocor, Colace, Atrovent, Prevacid, RISS, FeSO4,  cipro 500
   po q12, MVI, Lopressor, zyprexa prn
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-23**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 70 (70 - 108) bpm
   BP: 156/71(91) {146/65(82) - 188/94(118)} mmHg
   RR: 12 (8 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108.5 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  4,734 mL
                                                                  2,258 mL
   PO:
             TF:
                                                                  1,690 mL
                                                                    752 mL
   IVF:
                                                                    834 mL
                                                                    356 mL
   Blood products:
   Total out:
                                                                  1,985 mL
                                                                  1,030 mL
   Urine:
                                                                  1,985 mL
                                                                  1,030 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,749 mL
                                                                  1,228 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 601 (88 - 1,393) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 56
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 11.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, peg site c/d/i
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   254 K/uL
   129 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.4 mEq/L
   24 mg/dL
   106 mEq/L
   143 mEq/L
   22.0 %
   13.0 K/uL
        [image002.jpg]
                             [**2154-7-17**]  04:23 AM
                             [**2154-7-18**]  04:15 AM
                             [**2154-7-19**]  04:34 AM
                             [**2154-7-20**]  04:21 AM
                             [**2154-7-20**]  02:59 PM
                             [**2154-7-21**]  04:19 AM
                             [**2154-7-21**]  04:38 PM
                             [**2154-7-22**]  04:00 AM
                             [**2154-7-22**]  04:05 PM
                             [**2154-7-23**]  04:34 AM
   WBC
   12.8
   12.7
   14.8
   11.9
   12.8
   10.5
   13.0
   Hct
   25.9
   26.7
   27.1
   24.0
   24.1
   24.3
   22.0
   22.6
   23.0
   22.0
   Plt
   [**Telephone/Fax (3) 8749**]
   254
   Cr
   0.8
   0.8
   0.9
   0.8
   0.8
   0.8
   0.8
   Glucose
   97
   100
   117
   142
   128
   126
   129
   Other labs: PT / PTT / INR:12.1/26.2/1.0, CK / CKMB /
   Troponin-T:80/14/0.07, Alk Phos / T Bili:/0.2, Differential-Neuts:94.9
   %, Band:0.0 %, Lymph:1.8 %, Mono:2.9 %, Eos:0.2 %, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Imaging: [**7-23**] CXr- patchy R-sided infiltrate, decreased RLL atelectasis
   Microbiology: bronch- oropharyngeal flora
   Assessment and Plan
   65 year old male with acute neurologic decline currently attributed to
   brainstem encephalitis now s/p aspiration event and intubation. s/p
   trach and PEG on [**7-19**]
   Neuro: presumed brainstem encephalitis s/p IvIg and high dose steroids.
   -Continued improvement in mental status, now following some commands
   -ask Neuro to re-evaluate
   -consider PT if continued improvement
   -fentanyl for pain and zyprexa for agitation
   Resp: trach on [**7-19**]. Mucous plugging and presumed VAP per bronch on
   [**7-20**]
   -chest PT and deep suctioning for RML/RLL collapse
   -PSV trial today and d/c propofol
   -s/p trach and PEG [**7-17**]
   -cefepime + ciprofloxacin to finish on [**7-30**]; dc vanco today given no
   MRSA hx and neg cx so far
   -repeat CXR to assess re-expansion
   HTN: on metoprolol + hydralazine
   CAD: stable
   -continue ASA/beta blocker/statin
   -resume Plavix today
   Anemia: poss related to trach-site oozing
   -trend, transfuse for Hct < 21
   Disposition: plan for LTAC placement following trach/PEG
   Rest per housestaff note
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-23**] 08:10 AM 70 mL/hour
   Comments: 30cc q4 free H2O
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2154-07-24 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - vancomycin discontinued
   - started back on plavix and SC heparin
   - free water flushes per NGT switched to Q6H from Q4H
   - started on PRN zydis for agitation
   - following commands appropriately
   - started 1 unit PRBCs for hematocrit 20.7
   - placed back on MMV overnight for periods of apnea
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2154-7-23**] 08:34 AM
   Cefipime - [**2154-7-24**] 02:31 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-7-24**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-24**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.8
C (100.1
   HR: 94 (67 - 108) bpm
   BP: 140/69(82) {124/53(69) - 206/102(127)} mmHg
   RR: 13 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108.5 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  4,514 mL
                                                                  1,040 mL
   PO:
             TF:
                                                                  1,704 mL
                                                                    481 mL
   IVF:
                                                                    540 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  1,795 mL
                                                                    630 mL
   Urine:
                                                                  1,795 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,719 mL
                                                                    410 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 969 (601 - 1,167) mL
   PS : 8 cmH2O
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 50
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: ///29/
   Ve: 9.9 L/min
   Physical Examination
   General Appearance: No acute distress, more interactive, follows
   complex commands bilaterally
   Head, Ears, Nose, Throat: trach
   Cardiovascular: Regular rate and rhythm, normal s1 and s2, no murmurs,
   rubs, gallops
   Respiratory / Chest:  Coarse breath sounds bilaterally anteriorly, no
   clear wheezes, or rhonchi
   Abdominal: Soft, Bowel sounds present, mildly distended, PEG
   Extremities: warm, well perfused, 1+ pulses, trace edema in both upper
   and lower extremities
   Skin:  No jaundice or rashes
   Neurologic: Pupils are equal and reactive, following commands
   consistently and moving all extremities purposefully
   Labs / Radiology
   250 K/uL
   6.6 g/dL
   140 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.2 mEq/L
   30 mg/dL
   115 mEq/L
   144 mEq/L
   20.7 %
   10.5 K/uL
        [image002.jpg]
                             [**2154-7-18**]  04:15 AM
                             [**2154-7-19**]  04:34 AM
                             [**2154-7-20**]  04:21 AM
                             [**2154-7-20**]  02:59 PM
                             [**2154-7-21**]  04:19 AM
                             [**2154-7-21**]  04:38 PM
                             [**2154-7-22**]  04:00 AM
                             [**2154-7-22**]  04:05 PM
                             [**2154-7-23**]  04:34 AM
                             [**2154-7-24**]  03:38 AM
   WBC
   12.7
   14.8
   11.9
   12.8
   10.5
   13.0
   10.5
   Hct
   26.7
   27.1
   24.0
   24.1
   24.3
   22.0
   22.6
   23.0
   22.0
   20.7
   Plt
   332
   337
   268
   257
   254
   254
   250
   Cr
   0.8
   0.9
   0.8
   0.8
   0.8
   0.8
   0.8
   Glucose
   100
   117
   142
   128
   126
   129
   140
   Other labs: PT / PTT / INR:13.4/32.3/1.1, CK / CKMB /
   Troponin-T:80/14/0.07, Alk Phos / T Bili:/0.2, Differential-Neuts:94.9
   %, Band:0.0 %, Lymph:1.8 %, Mono:2.9 %, Eos:0.2 %, Ca++:7.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Microbiology:
[**2154-7-20**] 1:27 pm BRONCHIAL WASHINGS
                            **FINAL REPORT [**2154-7-22**]**
   GRAM STAIN (Final [**2154-7-20**]):
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI.
   RESPIRATORY CULTURE (Final [**2154-7-22**]):
      10,000-100,000 ORGANISMS/ML. OROPHARYNGEAL FLORA.
[**2154-7-20**] 1:43 pm BRONCHOALVEOLAR LAVAGE      RIGHT LOWER LOBE.
                            **FINAL REPORT [**2154-7-23**]**
   GRAM STAIN (Final [**2154-7-20**]):
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI.
   RESPIRATORY CULTURE (Final [**2154-7-23**]):
         10,000-100,000 ORGANISMS/ML. OROPHARYNGEAL FLORA.
   Imaging:
   Portable CXR [**2154-7-23**]:
   As compared to the previous radiograph, the tracheostomy tube is in
   unchanged position. The pre-existing right lower lobe collapse has
   resolved,
   the contour of the right hemidiaphragm is now well seen. In the now
   ventilated right lung bases, a limited area of opacities becomes
   visible. The
   opacity contains multiple air bronchograms. This change could
   correspond to
   re-expansion edema or a recent infection.
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERNATREMIA (HIGH SODIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   65 year old male with acute neurologic decline currently attributed to
   [**Last Name (un) 8413**] encephalitis now s/p aspiration event and intubation.
   Aspiration Pneumonia/Respiratory Failure: Thought to be secondary to
   aspiration and pooling secretions with frequent desats resolved with
   suctioning. S/p trach/PEG on [**7-19**]. Concern for mucous plugging on [**7-19**]
   given thick secretions; [**7-20**] BAL and bronch washings with gram neg
   diplococci on gram stain, cx with OP Flora x2. [**Month (only) 51**] also have component
   from neurologic disease.
   - Currently on cefepime and ciprofloxacin for ten day course (day 1
   [**2154-7-20**])
   - continue pressure support/MMV as needed
 will try to switch to [**5-14**]
   this morning
   - continue suction, chest PT
   - fentanyl boluses for pain post-trach/PEG
   - cont rehab screeen for d/c
   Autonomic instability: Likely secondary to neurologic disease
   exacerbated when propofol uptitrated. UOP sensitive to hypotension.
   - cont metoprolol 50mg [**Hospital1 **] with strict holding parameters
   - hydralazine PRN for SBPs > 180
   Neurologic decline: EEG on [**2154-7-5**] c/w widespread encephalopathy but no
   epileptiform features. Thought to have [**Last Name (un) 8413**] encephalitis but
   GQ1B Ab neg. Repeat LP [**2154-7-10**] cx neg. Flow cytometry with non-specific
   T cell dominant lymphoid profile; cytology neg for malignant cells. Now
   s/p 5 day course of both IVIG and high dose steroids with nonspecific
   MRI finding. Neuro significantly improved, following commands, alert.
   - f/u neuro recs
   -  propofol now discontinued
   - fentanyl prn for agitation/pain
   - zydis PRN for agitation
   Anemia:  Unclear etiology for slow downtrend in Hct over 2 weeks. Did
   have two episodes of coffee ground emesis as well as one episode of
   perirectal bleeding thought [**2-11**] flexiseal irritation. B12, folate, iron
   labs nl on [**7-9**]; no e/o hemolysis on [**7-16**]. Hct stable s/p 1 unit pRBC on
   [**2154-7-16**]. Bleeding from trach resolved with silver nitrate.
   - continue famotidine [**Hospital1 7**]
   - continue iron supplements and multivitamin
   - hold plavix and heparin SC
   - PM Hct
   - active T&S; given one unit this morning for Hct < 21
   - will check PM hct
   - guaiac stools today
   Hypernatremia:  Likely [**2-11**] post-ATN diuresis of urea and insensible
   free water losses. Less likely component of diabetes insipidus.
   - cont free water flushes at 300cc Q6H when PEG ready to use
   - continue tube feeds
   - daily sodium checks
   Acute Renal Failure:  ATN likely [**2-11**] hypotension now resolved.
   - blood pressure management as above
   - UOP stable
   - renally dose medications, trend creatinine
   ACS: NSTEMI
   - cont ASA, statin, beta blocker
   - continue plavix
   Thrush: nystatin
   Hyperglycemia: In setting of high dose steroids (now completed)
   - titrate ISS prn
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-23**] 01:11 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: [**Last Name (LF) 2828**], [**First Name3 (LF) **] restart SC heparin [**Hospital1 7**]
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU, plan to discharge to LTAC

2154-07-24 09:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Respiratory Failure, RLL Pneumonia, Encephalitis
   24 Hour Events:
   getting 1u prbc this am for downtrending Hct. [**Name8 (MD) 54**] RN some recurrent
   mucous plugging.
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2154-7-23**] 08:34 AM
   Cefipime - [**2154-7-24**] 02:31 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-7-24**] 12:00 AM
   Hydralazine - [**2154-7-24**] 07:17 AM
   Other medications:
   ASA 325, Plavix 75, Zoloft, Colace, Zocor, Peridex, Atrovent, RISS,
   FeSO4, Cefepime, Ciproflox, MVI, Lopressor, Pepcid
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-24**] 09:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.8
C (100.1
   HR: 112 (67 - 114) bpm
   BP: 192/93(119) {124/53(69) - 208/102(127)} mmHg
   RR: 20 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 108.5 kg (admission): 110 kg
   Height: 70 Inch
           Total In:
                                                                  4,514 mL
                                                                  1,563 mL
   PO:
           TF:
                                                                  1,704 mL
                                                                    625 mL
   IVF:
                                                                    540 mL
                                                                    139 mL
   Blood products:
   199 mL
   Total out:
                                                                  1,795 mL
                                                                    630 mL
   Urine:
                                                                  1,795 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,719 mL
                                                                    933 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 643 (608 - 1,167) mL
   PS : 8 cmH2O
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 50
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: ///29/
   Ve: 10.6 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : R, Rhonchorous: R)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, Cyanosis
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.6 g/dL
   250 K/uL
   140 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.2 mEq/L
   30 mg/dL
   115 mEq/L
   144 mEq/L
   20.7 %
   10.5 K/uL
        [image002.jpg]
                             [**2154-7-18**]  04:15 AM
                             [**2154-7-19**]  04:34 AM
                             [**2154-7-20**]  04:21 AM
                             [**2154-7-20**]  02:59 PM
                             [**2154-7-21**]  04:19 AM
                             [**2154-7-21**]  04:38 PM
                             [**2154-7-22**]  04:00 AM
                             [**2154-7-22**]  04:05 PM
                             [**2154-7-23**]  04:34 AM
                             [**2154-7-24**]  03:38 AM
   WBC
   12.7
   14.8
   11.9
   12.8
   10.5
   13.0
   10.5
   Hct
   26.7
   27.1
   24.0
   24.1
   24.3
   22.0
   22.6
   23.0
   22.0
   20.7
   Plt
   332
   337
   268
   257
   254
   254
   250
   Cr
   0.8
   0.9
   0.8
   0.8
   0.8
   0.8
   0.8
   Glucose
   100
   117
   142
   128
   126
   129
   140
   Other labs: PT / PTT / INR:13.4/32.3/1.1, CK / CKMB /
   Troponin-T:80/14/0.07, Alk Phos / T Bili:/0.2, Differential-Neuts:94.9
   %, Band:0.0 %, Lymph:1.8 %, Mono:2.9 %, Eos:0.2 %, Ca++:7.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Microbiology: [**7-20**] Bronch washing and BAL- oropharyngeal flora
   Assessment and Plan
   65 year old male with acute neurologic decline currently attributed to
   brainstem encephalitis now s/p aspiration event and intubation. s/p
   trach and PEG on [**7-19**]
    Neuro: presumed brainstem encephalitis s/p IvIg and high dose
   steroids.
   -Continued improvement in mental status, now following some commands
   -ask Neuro to re-evaluate
   -fentanyl for pain and zyprexa for agitation
   Resp: trach on [**7-19**]. Mucous plugging and presumed VAP per bronch on
   [**7-20**]
   -chest PT and deep suctioning for RML/RLL collapse
   -wean PSV as tolerated, trial of [**5-14**] , will need slow wean from
   ventilator in the context of respiratory muscle weakness
   -s/p trach and PEG [**7-17**]
   -cefepime + ciprofloxacin to finish on [**7-30**]; stopped vanco yesterday
   for lack of cx data to support use
   -repeat CXR to assess re-expansion, if he develops atelectasis, may
   need re-bronchoscopy
   - ABG today on PSV.
   Anemia: given prior hx of coffee-grounds emesis from NGT, consider
   low-grade GIB in the setting of anemia of chronic disease
   -transfusion threshold of Hct < 21
   -getting 1uprbc today
   -pepcid [**Hospital1 **]
   HTN: on metoprolol + hydralazine
   CAD: stable, continue ASA/Plavix/beta blocker/statin
   Disposition: plan for LTAC placement
   -PT consult today
   Rest per housestaff note
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-24**] 05:25 AM 70 mL/hour
   Comments: 300cc q6 hrs free H2O
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU, possible transfer to LTAC today/tomorrow
   Total time spent: 35 minutes

2154-07-25 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Put vent to [**5-14**] but he became very somnolent with increased
   secretions. Repeat CXR without worsening, [**First Name8 (NamePattern2) **] [**Last Name (un) **] was deferred.
   - ABG 7.23/83/59 and repeat on AC was 7.28/75/52
   - for his hypercapnea he was kept 1 more day.
   - Hct dropped this AM to 21.4 -> Recheck
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2154-7-23**] 08:34 AM
   Cefipime - [**2154-7-25**] 02:13 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2154-7-24**] 07:17 AM
   Heparin Sodium (Prophylaxis) - [**2154-7-25**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-25**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.2
   HR: 87 (71 - 112) bpm
   BP: 138/68(82) {95/49(60) - 208/97(125)} mmHg
   RR: 12 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108.5 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  3,682 mL
                                                                    930 mL
   PO:
             TF:
                                                                  1,684 mL
                                                                    455 mL
   IVF:
                                                                    390 mL
                                                                    115 mL
   Blood products:
                                                                    278 mL
   Total out:
                                                                  2,130 mL
                                                                    660 mL
   Urine:
                                                                  2,130 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,552 mL
                                                                    270 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 31 (31 - 643) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 18
   PIP: 12 cmH2O
   SpO2: 100%
   ABG: 7.37/59/269
   Ve: 6.7 L/min
   PaO2 / FiO2: 104
   Physical Examination
   General Appearance: No acute distress, more interactive, follows
   complex commands bilaterally
   Head, Ears, Nose, Throat: trach
   Cardiovascular: Regular rate and rhythm, normal s1 and s2, no murmurs,
   rubs, gallops
   Respiratory / Chest:  Coarse breath sounds bilaterally anteriorly, no
   clear wheezes, or rhonchi
   Abdominal: Soft, Bowel sounds present, mildly distended, PEG
   Extremities: warm, well perfused, 1+ pulses, trace edema in both upper
   and lower extremities
   Skin:  No jaundice or rashes
   Neurologic: Pupils are equal and reactive, following commands
   consistently and moving all extremities purposefully
   Labs / Radiology
   253 K/uL
   6.7 g/dL
   125 mg/dL
   0.8 mg/dL
   30 mEq/L
   4.1 mEq/L
   49 mg/dL
   111 mEq/L
   147 mEq/L
   21.4 %
   10.2 K/uL
        [image002.jpg]
                             [**2154-7-21**]  04:19 AM
                             [**2154-7-21**]  04:38 PM
                             [**2154-7-22**]  04:00 AM
                             [**2154-7-22**]  04:05 PM
                             [**2154-7-23**]  04:34 AM
                             [**2154-7-24**]  03:38 AM
                             [**2154-7-24**]  12:57 PM
                             [**2154-7-24**]  01:08 PM
                             [**2154-7-24**]  02:44 PM
                             [**2154-7-25**]  03:46 AM
   WBC
   12.8
   10.5
   13.0
   10.5
   10.2
   Hct
   24.3
   22.0
   22.6
   23.0
   22.0
   20.7
   24.3
   21.4
   Plt
   257
   254
   254
   250
   253
   Cr
   0.8
   0.8
   0.8
   0.8
   0.8
   TCO2
   37
   37
   Glucose
   128
   126
   129
   140
   125
   Other labs: PT / PTT / INR:13.0/31.3/1.1, CK / CKMB /
   Troponin-T:80/14/0.07, Alk Phos / T Bili:/0.2, Differential-Neuts:94.9
   %, Band:0.0 %, Lymph:1.8 %, Mono:2.9 %, Eos:0.2 %, Lactic Acid:0.8
   mmol/L, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   Portable CXR [**2154-7-24**]: Probable evolving infection at the right lung
   base. Aspiration is a diagnostic consideration.
   Microbiology:
   None
   Assessment and Plan
   65 year old male with acute neurologic decline currently attributed to
   [**Last Name (un) 8413**] encephalitis now s/p aspiration event and intubation.
   Aspiration Pneumonia/Respiratory Failure: Thought to be secondary to
   aspiration and pooling secretions with frequent desats resolved with
   suctioning. S/p trach/PEG on [**7-19**]. Concern for mucous plugging on [**7-19**]
   given thick secretions; [**7-20**] BAL and bronch washings with gram neg
   diplococci on gram stain, cx with OP Flora x2. [**Month (only) 51**] also have component
   from neurologic disease.  Yesterday placed on [**5-14**] with increased
   somnolence and respiratory acidosis on ABG but improved this AM.
   - Currently on cefepime and ciprofloxacin for ten day course (day 1
   [**2154-7-20**])
   - given respiratory acidosis with plans for slow weaning to PS and
   recheck ABG
   - continue suction, chest PT
   - fentanyl boluses for pain post-trach/PEG
   - cont rehab screeen for d/c
   Anemia:  Unclear etiology for slow downtrend in Hct over 2 weeks. Did
   have two episodes of coffee ground emesis as well as one episode of
   perirectal bleeding thought [**2-11**] flexiseal irritation. B12, folate, iron
   labs nl on [**7-9**]; no e/o hemolysis on [**7-16**]. Received 1 unit [**2154-7-16**] and
   [**2154-7-24**] with initially appropriate hematocrit bump from 20.7 to 24.3
   but down again this morning to 20.4.  No clear active sources of
   bleeding although has had trend of increased hematocrit drop since
   restarting plavix and heparin.
   - change famotidine to lansoprazole [**Hospital1 **]
   - guaiac stools today
   - check hemolysis labs
   - continue iron supplements and multivitamin
   - active T&S, will transfuse 2 units for < 21
   - will check PM hct
   - d/c heparin and plavix
   Hypernatremia:  Likely [**2-11**] post-ATN diuresis of urea and insensible
   free water losses. Less likely component of diabetes insipidus.
   - increase free water flushes back to 300cc Q4H via PEG
   - continue tube feeds
   - daily sodium checks
   Autonomic instability: Likely secondary to neurologic disease
   exacerbated when propofol uptitrated. UOP sensitive to hypotension.
   - cont metoprolol 50mg [**Hospital1 **] with strict holding parameters
   - hydralazine PRN for SBPs > 180
   Neurologic decline: EEG on [**2154-7-5**] c/w widespread encephalopathy but no
   epileptiform features. Thought to have [**Last Name (un) 8413**] encephalitis but
   GQ1B Ab neg. Repeat LP [**2154-7-10**] cx neg. Flow cytometry with non-specific
   T cell dominant lymphoid profile; cytology neg for malignant cells. Now
   s/p 5 day course of both IVIG and high dose steroids with nonspecific
   MRI finding. Neuro significantly improved, following commands, alert.
   - f/u neuro recs
   - fentanyl prn for pain
   - zydis PRN for agitation
   Acute Renal Failure:  ATN likely [**2-11**] hypotension now resolved.
   - blood pressure management as above
   - UOP stable
   - renally dose medications, trend creatinine
   ACS: NSTEMI
   - cont ASA, statin, beta blocker
   - hold plavix as stent placed [**1-16**]
   Thrush: nystatin
   Hyperglycemia: In setting of high dose steroids (now completed)
   - titrate ISS prn
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-25**] 02:46 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU for today

2154-07-25 09:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Respiratory Failure, Encephalitis
   24 Hour Events:
   hypoventilatory yest pm w/ concomittant resp acidosis. cont'd
   downtrending Hct
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2154-7-23**] 08:34 AM
   Cefipime - [**2154-7-25**] 02:13 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-7-25**] 12:00 AM
   Other medications:
   ASA, Zoloft, Colace, Zocor, Peridex, Atrovent, RISS, FeSO4, ciproflox,
   MVI, lopressor, plavix, pepcid
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-25**] 09:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.6
C (99.7
   HR: 84 (71 - 106) bpm
   BP: 123/59(74) {95/49(60) - 158/81(95)} mmHg
   RR: 13 (11 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108.5 kg (admission): 110 kg
   Height: 70 Inch
           Total In:
                                                                  3,682 mL
                                                                  1,285 mL
   PO:
           TF:
                                                                  1,684 mL
                                                                    677 mL
   IVF:
                                                                    390 mL
                                                                    147 mL
   Blood products:
                                                                    278 mL
                                                                     72 mL
   Total out:
                                                                  2,130 mL
                                                                    920 mL
   Urine:
                                                                  2,130 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,552 mL
                                                                    365 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 31 (31 - 573) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 18
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.37/59/269/30/7
   Ve: 7 L/min
   PaO2 / FiO2: 538
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach site c/d/i
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: ), bilat
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.7 g/dL
   253 K/uL
   125 mg/dL
   0.8 mg/dL
   30 mEq/L
   4.1 mEq/L
   49 mg/dL
   111 mEq/L
   147 mEq/L
   20.1 %
   10.2 K/uL
        [image002.jpg]
                             [**2154-7-22**]  04:00 AM
                             [**2154-7-22**]  04:05 PM
                             [**2154-7-23**]  04:34 AM
                             [**2154-7-24**]  03:38 AM
                             [**2154-7-24**]  12:57 PM
                             [**2154-7-24**]  01:08 PM
                             [**2154-7-24**]  02:44 PM
                             [**2154-7-25**]  03:46 AM
                             [**2154-7-25**]  06:21 AM
                             [**2154-7-25**]  07:43 AM
   WBC
   10.5
   13.0
   10.5
   10.2
   Hct
   22.6
   23.0
   22.0
   20.7
   24.3
   21.4
   20.1
   Plt
   [**Telephone/Fax (3) 8787**]53
   Cr
   0.8
   0.8
   0.8
   0.8
   TCO2
   37
   37
   35
   Glucose
   126
   129
   140
   125
   Other labs: PT / PTT / INR:13.0/31.3/1.1, CK / CKMB /
   Troponin-T:80/14/0.07, Alk Phos / T Bili:/0.2, Differential-Neuts:94.9
   %, Band:0.0 %, Lymph:1.8 %, Mono:2.9 %, Eos:0.2 %, Lactic Acid:0.8
   mmol/L, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   Imaging: [**7-24**] CXR- RLL infiltrate
   Microbiology: no new data
   Assessment and Plan
   65 year old male with acute neurologic decline currently attributed to
   brainstem encephalitis now s/p aspiration event and intubation. s/p
   trach and PEG on [**7-19**]
    Neuro: presumed brainstem encephalitis s/p IvIg and high dose
   steroids.
   -Continued improvement in mental status, now following some commands
   -prn fentanyl for pain and zyprexa for agitation
   -PT consult today
   Resp: trach on [**7-19**]. Mucous plugging and presumed VAP per bronch on
   [**7-20**]
   -chest PT and deep suctioning for RML/RLL collapse
   -may rest overnight w/ VC, try PSV by day and follow ABG
   -s/p trach and PEG [**7-17**]
   -cefepime + ciprofloxacin to finish on [**7-30**]; stopped vanco yesterday
   for lack of cx data to support use
   -consider bronch prior to rehab discharge
   Anemia: given prior hx of coffee-grounds emesis from NGT, consider
   low-grade GIB in the setting of anemia of chronic disease
   -transfusion threshold of Hct < 21
   -dc plavix and sc heparin
   -getting 2uprbc today and repeat pm Hct
   -switch to po ppi [**Hospital1 **]
   HTN: on metoprolol + hydralazine
   CAD: stable, continue ASA/beta blocker/statin
   Disposition: plan for LTAC placement
   Rest per housestaff note
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-25**] 02:46 AM 70 mL/hour
   Comments: 300cc q4 hr free H2O
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2154-07-26 08:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Placed back on PS. Repeat ABG 7.33/64/113. Had more apneic episodes
   so placed back on MMV. Appeared diaphoretic and fatigued in evening.
   ABG 7.34/66/92. Placed back on A/C overnight.
   - H2B changed to PPI [**Hospital1 **]. Heparin and plavix discontinued. Stools
   guaiaic positive. Transfused 2 units pRBC with appropriate Hct bump.
   - Started on celexa for depression.
   - Seen by PT.
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2154-7-23**] 08:34 AM
   Cefipime - [**2154-7-26**] 02:19 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-26**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.6
C (99.6
   HR: 101 (71 - 109) bpm
   BP: 157/69(90) {104/49(62) - 181/95(114)} mmHg
   RR: 13 (11 - 21) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 108.5 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  3,439 mL
                                                                  1,297 mL
   PO:
             TF:
                                                                  1,689 mL
                                                                    506 mL
   IVF:
                                                                    290 mL
                                                                    131 mL
   Blood products:
                                                                    620 mL
   Total out:
                                                                  2,530 mL
                                                                    880 mL
   Urine:
                                                                  2,530 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    909 mL
                                                                    417 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 642 (392 - 1,244) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 16 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.34/66/91.[**Numeric Identifier 143**]/31/6
   Ve: 9.2 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: No acute distress, more interactive, follows
   complex commands bilaterally
   Head, Ears, Nose, Throat: trach
   Cardiovascular: Regular rate and rhythm, normal s1 and s2, no murmurs,
   rubs, gallops
   Respiratory / Chest:  Coarse breath sounds bilaterally anteriorly, no
   clear wheezes, or rhonchi
   Abdominal: Soft, Bowel sounds present, mildly distended, PEG
   Extremities: warm, well perfused, 1+ pulses, trace edema in both upper
   and lower extremities
   Skin:  No jaundice or rashes
   Neurologic: Pupils are equal and reactive, following commands
   consistently and moving all extremities purposefully
   Labs / Radiology
   266 K/uL
   7.9 g/dL
   154 mg/dL
   0.7 mg/dL
   31 mEq/L
   4.0 mEq/L
   53 mg/dL
   115 mEq/L
   155 mEq/L
   24.1 %
   10.8 K/uL
        [image002.jpg]
                             [**2154-7-24**]  12:57 PM
                             [**2154-7-24**]  01:08 PM
                             [**2154-7-24**]  02:44 PM
                             [**2154-7-25**]  03:46 AM
                             [**2154-7-25**]  06:21 AM
                             [**2154-7-25**]  07:43 AM
                             [**2154-7-25**]  11:19 AM
                             [**2154-7-25**]  03:59 PM
                             [**2154-7-25**]  08:02 PM
                             [**2154-7-26**]  05:11 AM
   WBC
   10.2
   10.8
   Hct
   24.3
   21.4
   20.1
   26.3
   24.1
   Plt
   253
   266
   Cr
   0.8
   0.7
   TCO2
   37
   37
   35
   35
   37
   Glucose
   125
   154
   Other labs: PT / PTT / INR:13.1/26.3/1.1, CK / CKMB /
   Troponin-T:80/14/0.07, Alk Phos / T Bili:/0.3, Differential-Neuts:94.9
   %, Band:0.0 %, Lymph:1.8 %, Mono:2.9 %, Eos:0.2 %, Lactic Acid:0.8
   mmol/L, Ca++:8.7 mg/dL, Mg++:2.4 mg/dL, PO4:2.7 mg/dL
   Imaging: None
   Microbiology: None
   Assessment and Plan
   65 year old male with acute neurologic decline currently attributed to
   [**Last Name (un) 8413**] encephalitis now s/p aspiration event and intubation.
   Aspiration Pneumonia/Respiratory Failure: Thought to be secondary to
   aspiration and pooling secretions with frequent desats resolved with
   suctioning. S/p trach/PEG on [**7-19**]. Concern for mucous plugging on [**7-19**]
   given thick secretions; [**7-20**] BAL and bronch washings with gram neg
   diplococci on gram stain, cx with OP Flora x2. [**Month (only) 51**] also have component
   from neurologic disease.  Yesterday placed on [**5-14**] with increased
   somnolence and respiratory acidosis on ABG but improved this AM.
   - Currently on cefepime and ciprofloxacin for ten day course (day 1
   [**2154-7-20**])
   - will place back on assist control today given GI bleeding
   - continue suction, chest PT
   - fentanyl boluses for pain post-trach/PEG
   - cont rehab screeen for d/c
   Anemia:  Unclear etiology for slow downtrend in Hct over 2 weeks. Did
   have two episodes of coffee ground emesis as well as one episode of
   perirectal bleeding thought [**2-11**] flexiseal irritation. B12, folate, iron
   labs nl on [**7-9**]; no e/o hemolysis on [**7-16**]. Received 1 unit [**2154-7-16**] and
   [**2154-7-24**] with initially appropriate hematocrit bump from 20.7 to 24.3
   but down again this morning to 20.4.  No clear active sources of
   bleeding although has had trend of increased hematocrit drop since
   restarting plavix and heparin.   Continues to be grossly guaiac
   positive on exam.
   - continue lansoprazole [**Hospital1 **]
   - continue iron supplements and multivitamin
   - active T&S, will transfuse 2 units for < 21
   - d/c heparin and plavix
   - GI consult today for upper endoscopy
   Hypernatremia:  Likely [**2-11**] post-ATN diuresis of urea and insensible
   free water losses. Less likely component of diabetes insipidus. Unclear
   why patient has had worsening of his hypernatremia over the past 24
   hours.  [**Month (only) 51**] be secondary to gastrointestinal bleeding.
   - increase free water flushes to 300cc Q4H via PEG
   - will start D5W
   - PM sodium check
   - hold tube feeds pending upper endoscopy
   Autonomic instability: Likely secondary to neurologic disease
   exacerbated when propofol uptitrated. UOP sensitive to hypotension.
   - cont metoprolol 50mg [**Hospital1 **] with strict holding parameters
   - hydralazine PRN for SBPs > 180
   Neurologic decline: EEG on [**2154-7-5**] c/w widespread encephalopathy but no
   epileptiform features. Thought to have [**Last Name (un) 8413**] encephalitis but
   GQ1B Ab neg. Repeat LP [**2154-7-10**] cx neg. Flow cytometry with non-specific
   T cell dominant lymphoid profile; cytology neg for malignant cells. Now
   s/p 5 day course of both IVIG and high dose steroids with nonspecific
   MRI finding. Neuro significantly improved, following commands, alert.
   - f/u neuro recs
   - fentanyl prn for pain
   - zydis PRN for agitation
   Acute Renal Failure:  ATN likely [**2-11**] hypotension now resolved.
   - blood pressure management as above
   - UOP stable
   - renally dose medications, trend creatinine
   ACS: NSTEMI
   - cont ASA, statin, beta blocker
   - hold plavix as stent placed [**1-16**]
   Thrush: nystatin
   Hyperglycemia: In setting of high dose steroids (now completed)
   - titrate ISS prn
   Depression:
   - Cont celexa
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-25**] 02:46 AM 70 mL/hour (holding
   given plans for upper endoscopy)
   Glycemic Control:
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU for today
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   Critical Care:
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   He remains diaphoretic even on MMV support. ABG
s reveal a chronic resp
   acidosis. He has a dropping Hct and rising BUN and serum sodium. His
   secretion output is copious but frothy and no longer purulent.
   We will request GI input for EGD but have low threshold to perform CT
   of abdomen if EGD does reveal signs of ongoing blood loss ( r/o rectus
   sheath hematoma or RP bleed).  We will transfuse to keep Hct above 27
   at all times. In the meantime we will allow him to rest on
   ACVentilation for now. Free water bolus will be ongoing and if needs
   greater than 4 L D5W to keep up with correction of Na, we will start
   workup for DI ( central). LTAC transfer on hold till acute issue have
   been sorted out
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) 3093**] [**Name8 (MD) **],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 5791**]
   [**Location (un) 5176**], KS-B23
   [**Location (un) 23**], [**Numeric Identifier 960**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3093**] [**Name8 (MD) **], MD
   on:[**2154-7-26**] 12:22 ------

2154-07-27 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - started back on hyoscyamine for increased secretions
   - left on AC during the day
   - seen by GI for falling hematocrit.  Plan for upper endoscopy Monday
   if stable
   - started on IV PPI [**Hospital1 7**]
   - CT abdomen pending for RP bleed
   - Peg lavage negative for bleeding
   - received D5W for hypernatremia
 137 in mid-day may have been
   spurious as AM Na is 152 again.
   - Transfused 2 U overnight
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2154-7-27**] 02:00 AM
   Ciprofloxacin - [**2154-7-27**] 02:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2154-7-26**] 08:44 AM
   Pantoprazole (Protonix) - [**2154-7-26**] 08:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-27**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 70 (66 - 101) bpm
   BP: 158/70(91) {119/52(67) - 171/91(109)} mmHg
   RR: 14 (11 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108.5 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  4,030 mL
                                                                    656 mL
   PO:
             TF:
                                                                  1,253 mL
                                                                    478 mL
   IVF:
                                                                    797 mL
                                                                    118 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  3,150 mL
                                                                    480 mL
   Urine:
                                                                  3,150 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    880 mL
                                                                    176 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 501) mL
   Vt (Spontaneous): 642 (642 - 642) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 18 cmH2O
   Plateau: 13 cmH2O
   SpO2: 98%
   ABG: ///36/
   Ve: 8.1 L/min
   Physical Examination
   General Appearance: No acute distress, more interactive, follows
   complex commands bilaterally
   Head, Ears, Nose, Throat: trach
   Cardiovascular: Regular rate and rhythm, normal s1 and s2, no murmurs,
   rubs, gallops
   Respiratory / Chest:  Coarse breath sounds bilaterally anteriorly, no
   clear wheezes, or rhonchi
   Abdominal: Soft, Bowel sounds present, mildly distended, PEG
   Extremities: warm, well perfused, 1+ pulses, trace edema in both upper
   and lower extremities
   Skin:  No jaundice or rashes
   Neurologic: Pupils are equal and reactive, following commands
   consistently and moving all extremities purposefully
   Labs / Radiology
   283 K/uL
   9.1 g/dL
   143 mg/dL
   0.9 mg/dL
   36 mEq/L
   3.6 mEq/L
   46 mg/dL
   113 mEq/L
   152 mEq/L
   27.8 %
   10.9 K/uL
        [image002.jpg]
                             [**2154-7-24**]  02:44 PM
                             [**2154-7-25**]  03:46 AM
                             [**2154-7-25**]  06:21 AM
                             [**2154-7-25**]  07:43 AM
                             [**2154-7-25**]  11:19 AM
                             [**2154-7-25**]  03:59 PM
                             [**2154-7-25**]  08:02 PM
                             [**2154-7-26**]  05:11 AM
                             [**2154-7-26**]  03:48 PM
                             [**2154-7-27**]  03:36 AM
   WBC
   10.2
   10.8
   10.9
   Hct
   21.4
   20.1
   26.3
   24.1
   22.9
   27.8
   Plt
   [**Telephone/Fax (3) 8827**]
   Cr
   0.8
   0.7
   0.9
   TCO2
   37
   35
   35
   37
   Glucose
   125
   154
   143
   Other labs: PT / PTT / INR:13.5/26.5/1.2, CK / CKMB /
   Troponin-T:80/14/0.07, Alk Phos / T Bili:/0.3, Differential-Neuts:94.9
   %, Band:0.0 %, Lymph:1.8 %, Mono:2.9 %, Eos:0.2 %, Lactic Acid:0.8
   mmol/L, Ca++:8.7 mg/dL, Mg++:2.4 mg/dL, PO4:2.3 mg/dL
   Imaging: CT Abdomen:
   1. No evidence for retroperitoneal hematoma.
   2. Stool throughout the colon with likely fecal impaction the rectum.
   Correlate clinically.
   3. Bibasilar consolidation may represent aspiration, may be secondary
   to aspiration or bacterial pneumonia. Small right pleural effusion.
   Portable CXR [**2154-7-26**]: The tracheostomy tip is about 7.3 cm above the
   carina. Cardiomediastinal
   silhouette is stable. There is interval improvement in the right basal
   opacities as well as in the left basal opacities consistent with
   gradual
   resolution of atelectasis/aspiration. There is no evidence of pulmonary
   edema. There is no appreciable pleural effusion or pneumothorax. Right
   costophrenic angle was excluded from the field of view.
   Microbiology: None
   Assessment and Plan
 ANEMIA, CHRONIC
 AIRWAY CLEARANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 TRANSFERS, IMPAIRED
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERNATREMIA (HIGH SODIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   65 year old male with acute neurologic decline currently attributed to
   [**Last Name (un) 8413**] encephalitis now s/p aspiration event and intubation.
   Aspiration Pneumonia/Respiratory Failure: Thought to be secondary to
   aspiration and pooling secretions with frequent desats resolved with
   suctioning. S/p trach/PEG on [**7-19**]. Concern for mucous plugging on [**7-19**]
   given thick secretions; [**7-20**] BAL and bronch washings with gram neg
   diplococci on gram stain, cx with OP Flora x2. [**Month (only) 51**] also have component
   from neurologic disease.  Yesterday placed on [**5-14**] with increased
   somnolence and respiratory acidosis on ABG but improved this AM.
   - Currently on cefepime and ciprofloxacin for ten day course (day 1
   [**2154-7-20**])
   - will place back on assist control today given GI bleeding
   - continue suction, chest PT
   - fentanyl boluses for pain post-trach/PEG
   - cont rehab screeen for d/c
   Anemia:  Unclear etiology for slow downtrend in Hct over 2 weeks. Did
   have two episodes of coffee ground emesis as well as one episode of
   perirectal bleeding thought [**2-11**] flexiseal irritation. B12, folate, iron
   labs nl on [**7-9**]; no e/o hemolysis on [**7-16**]. Received 1 unit [**2154-7-16**] and
   [**2154-7-24**] with initially appropriate hematocrit bump, but down again to
   20.4 -> 2 more U PRBC on [**2154-7-26**] with appropriate bump.  Have d/c
   plavix and heparin.   Continues to be grossly guaiac positive on exam.
   - continue lansoprazole [**Hospital1 **]
   - continue iron supplements and multivitamin
   - active T&S, will transfuse 2 units for < 21
   - d/c heparin and plavix
   - f/u GI
 plan for upper endoscopy on Monday
   Constipation: CT abd with large amount of stool
   - Aggressive bowel regimen
   - suppository and enema.
   Hypernatremia:  Likely [**2-11**] post-ATN diuresis of urea and insensible
   free water losses. Less likely component of diabetes insipidus. Unclear
   why patient has had worsening of his hypernatremia over the past 24
   hours.  [**Month (only) 51**] be secondary to gastrointestinal bleeding.
   - Continue free water flushes of 300cc Q4H via PEG
   - PM sodium check
   - hold tube feeds pending upper endoscopy
   Autonomic instability: Likely secondary to neurologic disease
   exacerbated when propofol uptitrated. UOP sensitive to hypotension.
   - cont metoprolol 50mg [**Hospital1 **] with strict holding parameters
   - hydralazine PRN for SBPs > 180
   Neurologic decline: EEG on [**2154-7-5**] c/w widespread encephalopathy but no
   epileptiform features. Thought to have [**Last Name (un) 8413**] encephalitis but
   GQ1B Ab neg. Repeat LP [**2154-7-10**] cx neg. Flow cytometry with non-specific
   T cell dominant lymphoid profile; cytology neg for malignant cells. Now
   s/p 5 day course of both IVIG and high dose steroids with nonspecific
   MRI finding. Neuro significantly improved, following commands, alert.
   - f/u neuro recs
   - fentanyl prn for pain
   - zydis PRN for agitation
   Acute Renal Failure:  ATN likely [**2-11**] hypotension now resolved.
   - blood pressure management as above
   - trend creatinine
   ACS: NSTEMI
   - cont ASA, statin, beta blocker
   - d/c plavix as stent placed [**1-16**]
   Thrush: nystatin
   Hyperglycemia: In setting of high dose steroids (now completed)
   - titrate ISS prn
   Depression:
   - Cont celexa
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-25**] 02:46 AM 70 mL/hour (holding
   given plans for upper endoscopy)
   Glycemic Control:
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU for today

2154-07-27 11:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   HPI:
   65 m w/ presumptive [**Last Name (un) 8426**], resp failure, s/p trach/PEG
   24 Hour Events:
   Hct drop yesterday, s/p 2U PRBC
   IV PPI
   PEG lavage neg for bleeding
   CT abd neg for RP bleed
   Plan for EGD monday
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2154-7-27**] 02:00 AM
   Ciprofloxacin - [**2154-7-27**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2154-7-27**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-27**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.7
C (99.8
   HR: 79 (66 - 92) bpm
   BP: 160/70(94) {119/52(67) - 181/91(109)} mmHg
   RR: 17 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108.5 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  4,030 mL
                                                                  1,110 mL
   PO:
             TF:
                                                                  1,253 mL
                                                                    762 mL
   IVF:
                                                                    797 mL
                                                                    169 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  3,150 mL
                                                                    880 mL
   Urine:
                                                                  3,150 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    880 mL
                                                                    230 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 501) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 18 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: ///36/
   Ve: 8.2 L/min
   Physical Examination
   General:
   Labs / Radiology
   9.1 g/dL
   283 K/uL
   143 mg/dL
   0.9 mg/dL
   36 mEq/L
   3.6 mEq/L
   46 mg/dL
   113 mEq/L
   152 mEq/L
   27.8 %
   10.9 K/uL
        [image002.jpg]
                             [**2154-7-24**]  02:44 PM
                             [**2154-7-25**]  03:46 AM
                             [**2154-7-25**]  06:21 AM
                             [**2154-7-25**]  07:43 AM
                             [**2154-7-25**]  11:19 AM
                             [**2154-7-25**]  03:59 PM
                             [**2154-7-25**]  08:02 PM
                             [**2154-7-26**]  05:11 AM
                             [**2154-7-26**]  03:48 PM
                             [**2154-7-27**]  03:36 AM
   WBC
   10.2
   10.8
   10.9
   Hct
   21.4
   20.1
   26.3
   24.1
   22.9
   27.8
   Plt
   [**Telephone/Fax (3) 8827**]
   Cr
   0.8
   0.7
   0.9
   TCO2
   37
   35
   35
   37
   Glucose
   125
   154
   143
   Other labs: PT / PTT / INR:13.5/26.5/1.2, CK / CKMB /
   Troponin-T:80/14/0.07, Alk Phos / T Bili:/0.3, Differential-Neuts:94.9
   %, Band:0.0 %, Lymph:1.8 %, Mono:2.9 %, Eos:0.2 %, Lactic Acid:0.8
   mmol/L, Ca++:8.7 mg/dL, Mg++:2.4 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   65 M with presumptive [**Last Name (un) 8413**]
s encephalitis, w/ acute respiratory
   failure, now w/ GI bleed and acute blood loss anemia.
   1. Acute respiratory failure
  likely multifactorial.  Patient
   continues to have apneic spells due to brainstem involvement of the
   encephalitis.   Also contineus to have copious secretions, likely [**2-11**]
   VAP.   Will attempt transition back to MMV.
   2. GI bleed with acute blood loss anemia
 episodes of coffee grounds
   several weeks ago.  Grossly OB+ stools.  Likely UGIB, at risk for
   [**Location (un) **]
s ulcer.  Holding hep/ plavix (PCI 2 yrs prior).   Access is
   PICC and PIV.  Type and screen
   Currently on TFs and tolerating  at goal.   Hold prior to EGD Monday.
   3. Hypernatremia -Continue free water flushes.  f/u lytes today.
   4. [**Last Name (un) 8413**]
 EEG shows widespread encephalopathy.  s/p IVIG and
   high dose steroids.  Has been steadily improving.
   5. Constipation
 last BM 2 days prior.  Trial of lactulose
   6.  Htn
 metoprolol [**Hospital1 7**]
   7.  NSTEMI
 statin/bb/continued on ASA given recent event.  Holding
   plavix.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-27**] 07:04 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:  Bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Pt is critically ill
   ------ Protected Section ------
   Physical Examination Addendum:
   General: Intubated, responds to questions, follows commands.
   HEENT: R facial droop,  OP clear
      Trach site c/d/i.
   Heart: Regular S1, S2. No m/r/g.
   Lungs: b/l coarse bs anteriorly.
   Abd: PEG site c/d/i.  +bs. Soft. Nt. Nd.
   Ext:  1+ LE edema.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 8860**], MD
   on:[**2154-7-28**] 13:08 ------

2154-07-28 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient placed on MMV, but very uncomfortable and tachypnic.  He was
   placed back on AC, but desated to low 90s with tacchypnea - CXR looked
   improved at RLL and large mucous plug suctioned.
   - Nurses and respiratory felt secretions were getting too thick to
   suction so hyosciamine d/c'ed (for the third time).
   - Bowel regimen with enema, colace, senna, lactulose and reglan started
   but still no stool.
   - GI and Neuro without any new recs.
   - D5W started for persistant hypernatremia.
   - Patient with dyspnea and anxiety about frequent suctioning.  Gave
   ativan 1mg for anxiety.
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2154-7-28**] 02:00 AM
   Ciprofloxacin - [**2154-7-28**] 02:00 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2154-7-27**] 03:00 PM
   Pantoprazole (Protonix) - [**2154-7-27**] 07:35 PM
   Lorazepam (Ativan) - [**2154-7-28**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-28**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.6
C (99.7
   HR: 93 (66 - 116) bpm
   BP: 166/71(96) {105/49(65) - 194/92(115)} mmHg
   RR: 19 (10 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108.5 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  3,879 mL
                                                                  1,514 mL
   PO:
             TF:
                                                                  1,711 mL
                                                                    464 mL
   IVF:
                                                                    789 mL
                                                                    540 mL
   Blood products:
   Total out:
                                                                  2,250 mL
                                                                    520 mL
   Urine:
                                                                  2,250 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,629 mL
                                                                    996 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 682 (682 - 682) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 21
   PIP: 13 cmH2O
   SpO2: 96%
   ABG: ///31/
   Ve: 8.6 L/min
   Physical Examination
   General Appearance: No acute distress, more interactive, follows
   complex commands bilaterally
   Head, Ears, Nose, Throat: trach
   Cardiovascular: Regular rate and rhythm, normal s1 and s2, no murmurs,
   rubs, gallops
   Respiratory / Chest:  Coarse breath sounds bilaterally anteriorly, no
   clear wheezes, or rhonchi
   Abdominal: Soft, Bowel sounds present, mildly distended, PEG
   Extremities: warm, well perfused, 1+ pulses, trace edema in both upper
   and lower extremities
   Skin:  No jaundice or rashes
   Neurologic: Pupils are equal and reactive, following commands
   consistently and moving all extremities purposefully
   Labs / Radiology
   288 K/uL
   9.1 g/dL
   129 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.3 mEq/L
   42 mg/dL
   115 mEq/L
   156 mEq/L
   27.7 %
   10.3 K/uL
        [image002.jpg]
                             [**2154-7-25**]  06:21 AM
                             [**2154-7-25**]  07:43 AM
                             [**2154-7-25**]  11:19 AM
                             [**2154-7-25**]  03:59 PM
                             [**2154-7-25**]  08:02 PM
                             [**2154-7-26**]  05:11 AM
                             [**2154-7-26**]  03:48 PM
                             [**2154-7-27**]  03:36 AM
                             [**2154-7-27**]  03:30 PM
                             [**2154-7-28**]  03:21 AM
   WBC
   10.8
   10.9
   10.3
   Hct
   20.1
   26.3
   24.1
   22.9
   27.8
   27.9
   27.7
   Plt
   266
   283
   288
   Cr
   0.7
   0.9
   0.9
   TCO2
   35
   35
   37
   Glucose
   154
   143
   129
   Other labs: PT / PTT / INR:13.9/27.4/1.2, CK / CKMB /
   Troponin-T:80/14/0.07, Alk Phos / T Bili:/0.3, Differential-Neuts:94.9
   %, Band:0.0 %, Lymph:1.8 %, Mono:2.9 %, Eos:0.2 %, Lactic Acid:0.8
   mmol/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:4.2 mg/dL
   No new micro
   [**2154-7-27**] CXR:
   The tracheostomy tip is about 7.3 cm above the carina.
   Cardiomediastinal
   silhouette is stable. No change in bibasilar opacities since recent
   prior
   from [**2154-7-26**]. No new focal parenchymal opacities or evidence of CHF.
   Assessment and Plan
   65 year old male with acute neurologic decline currently attributed to
   [**Last Name (un) 8413**] encephalitis now s/p aspiration event and intubation.
   Aspiration Pneumonia/Respiratory Failure: Thought to be secondary to
   aspiration and pooling secretions with frequent desats resolved with
   suctioning. S/p trach/PEG on [**7-19**]. Concern for mucous plugging on [**7-19**]
   given thick secretions; [**7-20**] BAL and bronch washings with gram neg
   diplococci on gram stain, cx with OP Flora x2. [**Month (only) 51**] also have component
   from neurologic disease.  Yesterday placed on [**5-14**] with increased
   somnolence and respiratory acidosis on ABG but improved this AM.
   - Currently on cefepime and ciprofloxacin for ten day course (day 1
   [**2154-7-20**])
   - Currently on MMV, trial of PS
   - continue suction, chest PT
   - cont rehab screeen for d/c
   - d/c
ed hyoscyamine
   Fever: WBC stable but with grade fever of unclear etiology. Treating
   pneumonia.
   - panculture (blood, urine, endotracheal)
   - Cont cefepime and cipro as above; would add vanc for gram positive
   coverage if spikes fever > 101
   Anemia:  Unclear etiology for slow downtrend in Hct over 2 weeks. Did
   have two episodes of coffee ground emesis as well as one episode of
   perirectal bleeding thought [**2-11**] flexiseal irritation. B12, folate, iron
   labs nl on [**7-9**]; no e/o hemolysis on [**7-16**]. Received 1 unit [**2154-7-16**] and
   [**2154-7-24**] with initially appropriate hematocrit bump, but down again to
   20.4 -> 2 more U PRBC on [**2154-7-26**] with appropriate bump.  Have d/c
   plavix and heparin.   Continues to be grossly guaiac positive on exam.
   - continue IV PPI [**Hospital1 7**]
   - daily Hct, active T&S, transfuse < 21
   - continue iron supplements and multivitamin
   - off heparin and plavix
   - f/u GI: plan for upper endoscopy on Monday
   Constipation: Now resolved
   - [**Doctor Last Name **] down bowel regimen (d/c reglan, lactulose)
   Hypernatremia:  Likely [**2-11**] post-ATN diuresis of urea and insensible
   free water losses. Less likely component of diabetes insipidus. Unclear
   why patient has had worsening of his hypernatremia over the past 24
   hours.  [**Month (only) 51**] be secondary to gastrointestinal bleeding.
   - Continue free water flushes of 300cc Q4H via PEG
   - D5W at 125/hr
   - PM sodium check
   - hold tube feeds pending upper endoscopy
   Autonomic instability: Likely secondary to neurologic disease
   exacerbated when propofol uptitrated. UOP sensitive to hypotension.
   - cont metoprolol 50mg [**Hospital1 **] with strict holding parameters
   - hydralazine PRN for SBPs > 180
   Neurologic decline: EEG on [**2154-7-5**] c/w widespread encephalopathy but no
   epileptiform features. Thought to have [**Last Name (un) 8413**] encephalitis but
   GQ1B Ab neg. Repeat LP [**2154-7-10**] cx neg. Flow cytometry with non-specific
   T cell dominant lymphoid profile; cytology neg for malignant cells. Now
   s/p 5 day course of both IVIG and high dose steroids with nonspecific
   MRI finding. Neuro significantly improved, following commands, alert.
   - f/u neuro recs
   - fentanyl prn for pain
   - zydis PRN for agitation
   Acute Renal Failure:  ATN likely [**2-11**] hypotension now resolved.
   - blood pressure management as above
   - trend creatinine
   ACS: NSTEMI
   - cont ASA, statin, beta blocker
   - d/c plavix as stent placed [**1-16**]
   Thrush: nystatin
   Hyperglycemia: In setting of high dose steroids (now completed)
   - titrate ISS prn
   Depression:
   - Cont celexa
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-28**] 02:10 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2154-07-28 10:35:00 Physician Attending Progress Note
Chief Complaint:
   HPI: 65 M with presumptive [**Last Name (un) 8413**]
s encephalitis, w/ acute
   respiratory failure, now w/ GI bleed and acute blood loss anemia
   24 Hour Events:
   One dose of hydralazine yesterday for HTN
   Started on D5W for hypernatremia
   Rec
d low dose ativan
   Trial of MMV didn
t tolerate.
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2154-7-28**] 02:00 AM
   Ciprofloxacin - [**2154-7-28**] 02:00 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2154-7-27**] 03:00 PM
   Lorazepam (Ativan) - [**2154-7-28**] 12:00 AM
   Pantoprazole (Protonix) - [**2154-7-28**] 09:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-28**] 10:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.1
C (100.5
   HR: 70 (63 - 116) bpm
   BP: 115/51(67) {103/49(62) - 194/92(115)} mmHg
   RR: 14 (10 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108.5 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  3,879 mL
                                                                  2,905 mL
   PO:
             TF:
                                                                  1,711 mL
                                                                    731 mL
   IVF:
                                                                    789 mL
                                                                  1,004 mL
   Blood products:
   Total out:
                                                                  2,250 mL
                                                                    780 mL
   Urine:
                                                                  2,250 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,629 mL
                                                                  2,125 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 682 (682 - 682) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 21
   PIP: 17 cmH2O
   Plateau: 17 cmH2O
   SpO2: 96%
   ABG: ///31/
   Ve: 8.2 L/min
   Physical Examination
   General: Intubated, responds to questions, follows commands.
   HEENT: R facial droop,  OP clear
      Trach site c/d/i.
   Heart: Regular S1, S2. No m/r/g.
   Lungs: b/l coarse bs anteriorly.
   Abd: PEG site c/d/i.  +bs. Soft. Nt. Nd.
   Ext:  1+ LE edema.
   Neuro:  Alert and oriented.  Responds appropriately.
   Labs / Radiology
   9.1 g/dL
   288 K/uL
   129 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.3 mEq/L
   42 mg/dL
   115 mEq/L
   156 mEq/L
   27.7 %
   10.3 K/uL
        [image002.jpg]
                             [**2154-7-25**]  06:21 AM
                             [**2154-7-25**]  07:43 AM
                             [**2154-7-25**]  11:19 AM
                             [**2154-7-25**]  03:59 PM
                             [**2154-7-25**]  08:02 PM
                             [**2154-7-26**]  05:11 AM
                             [**2154-7-26**]  03:48 PM
                             [**2154-7-27**]  03:36 AM
                             [**2154-7-27**]  03:30 PM
                             [**2154-7-28**]  03:21 AM
   WBC
   10.8
   10.9
   10.3
   Hct
   20.1
   26.3
   24.1
   22.9
   27.8
   27.9
   27.7
   Plt
   266
   283
   288
   Cr
   0.7
   0.9
   0.9
   TCO2
   35
   35
   37
   Glucose
   154
   143
   129
   Other labs: PT / PTT / INR:13.9/27.4/1.2, CK / CKMB /
   Troponin-T:80/14/0.07, Alk Phos / T Bili:/0.3, Differential-Neuts:94.9
   %, Band:0.0 %, Lymph:1.8 %, Mono:2.9 %, Eos:0.2 %, Lactic Acid:0.8
   mmol/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   65 M with presumptive [**Last Name (un) 8413**]
s encephalitis, w/ acute respiratory
   failure, now w/ GI bleed and acute blood loss anemia.
   1. Acute respiratory failure
  likely multifactorial.  Patient
   continues to have apneic spells due to brainstem involvement of the
   encephalitis amd didn
t tolerate pressure support/MMV yesterday.   Also
   continues to have copious secretions, likely [**2-11**]  VAP.   Given that he
   has better mental status today, will try pressure support again.
   2. VAP - BAL on [**7-20**] w/ GN diplococci but neg culture.  Currently on
   cipro/cefipime until [**7-30**].  Not currently covered for GPC.  Low grade
   temp may be [**2-11**] untreated GP but neg lower tract sampling makes less
   likely.
   2. GI bleed with acute blood loss anemia
 episodes of coffee grounds
   several weeks ago.  Grossly OB+ stools.  Likely UGIB, at risk for
   [**Location (un) **]
s ulcer.  Holding hep/ plavix (PCI 2 yrs prior).   Access is
   PICC and PIV.  Type and screen.  Awaiting EGD tomorrow.  Tolerating TFs
   3. Hypernatremia -Continue free water flushes and D5.  F/u lytes
   today.  Possibly component of DI.
   4. [**Last Name (un) 8413**]
 EEG shows widespread encephalopathy.  s/p IVIG and
   high dose steroids.  Has been steadily improving.  ? if low grade temps
   [**2-11**] brainstem
   6.  Htn
 metoprolol [**Hospital1 7**]
   7.  NSTEMI
 statin/bb/continued on ASA given recent event.  Holding
   plavix.
   ICU Care
   Nutrition: TFs at goal.  Constipation resolved.
   Replete with Fiber (Full) - [**2154-7-28**] 08:41 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer: PPI
   VAP:  Bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   I was physically present with the resident team on this date for
   discussion of the above history, exam and assessment and plan with
   which I agree.  I independently examined the patient and would add the
   following comments on specific
   Respiratory Failure-VAP treatment to continue with Vanco/Cipro
                                  -Will continue with A/C support given
   the significant issue with central related apneas and will need
   continued improvement inregards to pulmonary infection before move to
   liberation from mechanical ventilation can be considered.
   GI Bleed
OB positive stools
                   -EGD for tomorrow
   Hypernatremia
Will provide free H2O replacement
                             -Will check urine OSMS and follow urine
   output
   Critical Care [**Doctor First Name **]-35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2154-7-28**] 16:22 ------

2154-07-29 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2154-7-28**] 12:11 PM
   - Pancultured for low grade fevers
   - Placed back on PS
   - D5W decreased to 100 cc/h given improvement in Na 155 -> 150.
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2154-7-28**] 02:23 PM
   Ciprofloxacin - [**2154-7-28**] 02:23 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2154-7-28**] 09:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-29**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.8
C (100
   HR: 92 (63 - 93) bpm
   BP: 111/74(76) {99/49(62) - 172/77(99)} mmHg
   RR: 15 (9 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108.5 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  6,213 mL
                                                                  1,134 mL
   PO:
             TF:
                                                                  1,687 mL
                                                                     39 mL
   IVF:
                                                                  2,606 mL
                                                                    716 mL
   Blood products:
   Total out:
                                                                  1,640 mL
                                                                    360 mL
   Urine:
                                                                  1,640 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,573 mL
                                                                    774 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 486 (486 - 1,329) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 33
   PIP: 16 cmH2O
   Plateau: 14 cmH2O
   SpO2: 96%
   ABG: 7.33/64/121/34/5
   Ve: 7 L/min
   PaO2 / FiO2: 303
   Physical Examination
   General Appearance: No acute distress, more interactive, follows
   complex commands bilaterally
   Head, Ears, Nose, Throat: trach
   Cardiovascular: Regular rate and rhythm, normal s1 and s2, no murmurs,
   rubs, gallops
   Respiratory / Chest:  Coarse breath sounds bilaterally anteriorly, no
   clear wheezes, or rhonchi
   Abdominal: Soft, Bowel sounds present, mildly distended, PEG
   Extremities: warm, well perfused, 1+ pulses, trace edema in both upper
   and lower extremities
   Skin:  No jaundice or rashes
   Neurologic: Pupils are equal and reactive, following commands
   consistently and moving all extremities purposefully
   Labs / Radiology
   316 K/uL
   8.9 g/dL
   96 mg/dL
   0.7 mg/dL
   34 mEq/L
   3.8 mEq/L
   34 mg/dL
   108 mEq/L
   147 mEq/L
   27.8 %
   9.5 K/uL
        [image002.jpg]
                             [**2154-7-25**]  11:19 AM
                             [**2154-7-25**]  03:59 PM
                             [**2154-7-25**]  08:02 PM
                             [**2154-7-26**]  05:11 AM
                             [**2154-7-26**]  03:48 PM
                             [**2154-7-27**]  03:36 AM
                             [**2154-7-27**]  03:30 PM
                             [**2154-7-28**]  03:21 AM
                             [**2154-7-28**]  06:03 PM
                             [**2154-7-29**]  05:03 AM
   WBC
   10.8
   10.9
   10.3
   9.5
   Hct
   26.3
   24.1
   22.9
   27.8
   27.9
   27.7
   27.8
   Plt
   266
   283
   288
   316
   Cr
   0.7
   0.9
   0.9
   0.7
   TCO2
   35
   37
   35
   Glucose
   154
   143
   129
   96
   Other labs: PT / PTT / INR:13.2/27.5/1.1, CK / CKMB /
   Troponin-T:80/14/0.07, Alk Phos / T Bili:/0.3, Differential-Neuts:94.9
   %, Band:0.0 %, Lymph:1.8 %, Mono:2.9 %, Eos:0.2 %, Lactic Acid:0.8
   mmol/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   65 year old male with acute neurologic decline currently attributed to
   [**Last Name (un) 8413**] encephalitis now s/p aspiration event and intubation.
   Aspiration Pneumonia/Respiratory Failure: Thought to be secondary to
   aspiration and pooling secretions with frequent desats resolved with
   suctioning. S/p trach/PEG on [**7-19**]. Concern for mucous plugging on [**7-19**]
   given thick secretions; [**7-20**] BAL and bronch washings with gram neg
   diplococci on gram stain, cx with OP Flora x2. [**Month (only) 51**] also have component
   from neurologic disease.  Yesterday placed on [**5-14**] with increased
   somnolence and respiratory acidosis on ABG but improved this AM.
   - Currently on cefepime and ciprofloxacin for ten day course (day 1
   [**2154-7-20**])
   - Currently on MMV, trial of PS
   - continue suction, chest PT
   - cont rehab screeen for d/c
   - d/c
ed hyoscyamine
   Fever: WBC stable but with grade fever of unclear etiology. Treating
   pneumonia.
   - panculture (blood, urine, endotracheal)
   - Cont cefepime and cipro as above; would add vanc for gram positive
   coverage if spikes fever > 101
   Anemia:  Unclear etiology for slow downtrend in Hct over 2 weeks. Did
   have two episodes of coffee ground emesis as well as one episode of
   perirectal bleeding thought [**2-11**] flexiseal irritation. B12, folate, iron
   labs nl on [**7-9**]; no e/o hemolysis on [**7-16**]. Received 1 unit [**2154-7-16**] and
   [**2154-7-24**] with initially appropriate hematocrit bump, but down again to
   20.4 -> 2 more U PRBC on [**2154-7-26**] with appropriate bump.  Have d/c
   plavix and heparin.   Continues to be grossly guaiac positive on exam.
   - continue IV PPI [**Hospital1 7**]
   - daily Hct, active T&S, transfuse < 21
   - continue iron supplements and multivitamin
   - off heparin and plavix
   - f/u GI: plan for upper endoscopy on Monday
   Constipation: Now resolved
   - [**Doctor Last Name **] down bowel regimen (d/c reglan, lactulose)
   Hypernatremia:  Likely [**2-11**] post-ATN diuresis of urea and insensible
   free water losses. Less likely component of diabetes insipidus. Unclear
   why patient has had worsening of his hypernatremia over the past 24
   hours.  [**Month (only) 51**] be secondary to gastrointestinal bleeding.
   - Continue free water flushes of 300cc Q4H via PEG
   - D5W at 125/hr
   - PM sodium check
   - hold tube feeds pending upper endoscopy
   Autonomic instability: Likely secondary to neurologic disease
   exacerbated when propofol uptitrated. UOP sensitive to hypotension.
   - cont metoprolol 50mg [**Hospital1 **] with strict holding parameters
   - hydralazine PRN for SBPs > 180
   Neurologic decline: EEG on [**2154-7-5**] c/w widespread encephalopathy but no
   epileptiform features. Thought to have [**Last Name (un) 8413**] encephalitis but
   GQ1B Ab neg. Repeat LP [**2154-7-10**] cx neg. Flow cytometry with non-specific
   T cell dominant lymphoid profile; cytology neg for malignant cells. Now
   s/p 5 day course of both IVIG and high dose steroids with nonspecific
   MRI finding. Neuro significantly improved, following commands, alert.
   - f/u neuro recs
   - fentanyl prn for pain
   - zydis PRN for agitation
   Acute Renal Failure:  ATN likely [**2-11**] hypotension now resolved.
   - blood pressure management as above
   - trend creatinine
   ACS: NSTEMI
   - cont ASA, statin, beta blocker
   - d/c plavix as stent placed [**1-16**]
   Thrush: nystatin
   Hyperglycemia: In setting of high dose steroids (now completed)
   - titrate ISS prn
   Depression:
   - Cont celexa
   ICU Care
   Nutrition: Holding tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2154-07-29 11:27:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   low grade temp yest
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2154-7-28**] 02:23 PM
   Ciprofloxacin - [**2154-7-28**] 02:23 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2154-7-29**] 08:30 AM
   Other medications:
   ASA, Zoloft, Simvastatin, Colace, Peridex, Atrovent, RISS, Lantus,
   FeSO4, Cefepime, Cipro, MVI, Lopressor
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-29**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.7
C (99.8
   HR: 75 (66 - 93) bpm
   BP: 122/65(79) {99/54(69) - 172/77(99)} mmHg
   RR: 15 (9 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108.5 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  6,213 mL
                                                                  1,533 mL
   PO:
             TF:
                                                                  1,687 mL
                                                                     39 mL
   IVF:
                                                                  2,606 mL
                                                                  1,044 mL
   Blood products:
   Total out:
                                                                  1,640 mL
                                                                    860 mL
   Urine:
                                                                  1,640 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,573 mL
                                                                    673 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 486 (486 - 1,329) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 33
   PIP: 11 cmH2O
   Plateau: 14 cmH2O
   SpO2: 98%
   Ve: 4.1 L/min
   PaO2 / FiO2: 303
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, No(t) Oriented (to): , Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   8.9 g/dL
   316 K/uL
   96 mg/dL
   0.7 mg/dL
   34 mEq/L
   3.8 mEq/L
   34 mg/dL
   108 mEq/L
   147 mEq/L
   27.8 %
   9.5 K/uL
        [image002.jpg]
                             [**2154-7-25**]  11:19 AM
                             [**2154-7-25**]  03:59 PM
                             [**2154-7-25**]  08:02 PM
                             [**2154-7-26**]  05:11 AM
                             [**2154-7-26**]  03:48 PM
                             [**2154-7-27**]  03:36 AM
                             [**2154-7-27**]  03:30 PM
                             [**2154-7-28**]  03:21 AM
                             [**2154-7-28**]  06:03 PM
                             [**2154-7-29**]  05:03 AM
   WBC
   10.8
   10.9
   10.3
   9.5
   Hct
   26.3
   24.1
   22.9
   27.8
   27.9
   27.7
   27.8
   Plt
   266
   283
   288
   316
   Cr
   0.7
   0.9
   0.9
   0.7
   TCO2
   35
   37
   35
   Glucose
   154
   143
   129
   96
   Other labs: PT / PTT / INR:13.2/27.5/1.1, CK / CKMB /
   Troponin-T:80/14/0.07, Alk Phos / T Bili:/0.3, Differential-Neuts:94.9
   %, Band:0.0 %, Lymph:1.8 %, Mono:2.9 %, Eos:0.2 %, Lactic Acid:0.8
   mmol/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:2.7 mg/dL
   Imaging: [**7-28**] CXR- RLL infiltrate
   Microbiology: [**7-28**] pan culture- pending
   Assessment and Plan
   65 M with brainstem encephalitis and prolonged hosp stay, w/ acute
   respiratory failure, now w/ GI bleed and acute blood loss anemia.
   1. Acute respiratory failure
  likely multifactorial.  Patient
   continues to have apneic spells due to brainstem involvement of the
   encephalitis amd didn
t tolerate pressure support/MMV yesterday. Now w/
   VAP
   -VAP tx as below
   -PSV trials daily as tolerated
   2. VAP - BAL on [**7-20**] w/ GN diplococci but neg culture.  Currently on
   cipro/cefipime until [**7-30**].  Not currently covered for GPC.  Low grade
   temp may be [**2-11**] untreated GP but neg lower tract sampling makes less
   likely.
   3. GI bleed with acute blood loss anemia
 episodes of coffee grounds
   several weeks ago.  Grossly Guaiac stools.  Likely UGIB, at risk for
   [**Location (un) **]
s ulcer.
   -Holding plavix (PCI 2 yrs prior).
   -Access is PICC and PIV.
   -Type and screen.
   -Plan for EGD today.
   4. Hypernatremia -Continue free water flushes and D5.  F/u lytes
   today.  Possibly component of DI.
   5. Brainstem encephalitis
 EEG shows widespread encephalopathy.  s/p
   IVIG and high dose steroids.  Has been steadily improving.  ? if low
   grade temps [**2-11**] brainstem
   6.  HTN
 metoprolol [**Hospital1 7**]
   7.  NSTEMI
 statin/bb/continued on ASA given recent event.  Holding
   plavix.
   ICU Care
   Nutrition:
   Comments: D5 @ 100cc/hr
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I was physically present with the resident team on this date for
   discussion of the above history, exam and assessment and plan with
   which I agree.  I independently examined the patient and would add the
   following comments : 65 yo male with brainstem encephalitis, question
   [**Last Name (un) 8426**] encephalitis, with prolonged hospital course. More recent
   events  have included VAP, in the context of which he developed
   worsening respiratory failure requiring mechanical ventilation. He has
   also had ongoing GI bleed , but with no obvious bleeding source by EGD
   today. Plan is for continued AC ventilation with continued PSV or MMV
   trials as tolerated, trend Hct
s daily and assess need for additional
   evaluation. His hypernatremia is improving on free water. Critical care
   time 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2154-7-29**] 17:05 ------

2154-07-30 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2154-7-29**] 03:45 PM
   - stopped celexa and plavix
   - afebrile for last 24 hours
   - GI did EGD, no signs of bleeding:
   Medium hiatal hernia, PEG, Retained fluids in stomach
   Erythema in the pylorus compatible with gastritis,
   Otherwise normal EGD to third part of the duodenum
   - Hct stable, do not recommend further GI workup for now
   - SBPs to 80s post procedure, responded to 1L NS bolus
   - still on AC but increased PEEP from 5 to 8
   - having copious but clear secretions
   - Na from 147 to 137 in 12 hours, stopped D5W and decreased free water
   flushes from 400 cc to 50 cc H20, then repeat Na 145 and switched to
   free water flushes at 200 cc q4hrs
   Patient unable to provide history: Sedated
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2154-7-30**] 02:08 AM
   Ciprofloxacin - [**2154-7-30**] 02:09 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2154-7-29**] 03:45 PM
   Fentanyl - [**2154-7-29**] 03:45 PM
   Pantoprazole (Protonix) - [**2154-7-29**] 08:23 PM
   Lorazepam (Ativan) - [**2154-7-29**] 09:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-30**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.8
C (100
   HR: 74 (63 - 101) bpm
   BP: 123/59(74) {74/36(44) - 187/92(116)} mmHg
   RR: 15 (10 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108.5 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  4,054 mL
                                                                  1,010 mL
   PO:
             TF:
                                                                    529 mL
                                                                    525 mL
   IVF:
                                                                  2,996 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  1,710 mL
                                                                    400 mL
   Urine:
                                                                  1,710 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,344 mL
                                                                    610 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 781 (781 - 781) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 6
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 67
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///31/
   Ve: 8.2 L/min
   Physical Examination
   Gen: NAD, able to answer yes/no questions appropriately
   Skin:  Not assessed
   HEENT: nc/at,  MMM, trach in place without drainage
   Chest: b/l ae no w/c/r
   Heart:s1s2 rrr no m/r/g
   Abd:+bs, soft, Nt, ND
   Ext:no c/c/e 2+pulses
   Labs / Radiology
   264 K/uL
   8.0 g/dL
   110 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.6 mEq/L
   33 mg/dL
   110 mEq/L
   146 mEq/L
   24.0 %
   8.0 K/uL
        [image002.jpg]
                             [**2154-7-25**]  03:59 PM
                             [**2154-7-25**]  08:02 PM
                             [**2154-7-26**]  05:11 AM
                             [**2154-7-26**]  03:48 PM
                             [**2154-7-27**]  03:36 AM
                             [**2154-7-27**]  03:30 PM
                             [**2154-7-28**]  03:21 AM
                             [**2154-7-28**]  06:03 PM
                             [**2154-7-29**]  05:03 AM
                             [**2154-7-30**]  03:11 AM
   WBC
   10.8
   10.9
   10.3
   9.5
   8.0
   Hct
   26.3
   24.1
   22.9
   27.8
   27.9
   27.7
   27.8
   24.0
   Plt
   266
   283
   288
   316
   264
   Cr
   0.7
   0.9
   0.9
   0.7
   0.8
   TCO2
   37
   35
   Glucose
   154
   143
   129
   96
   110
   Other labs: PT / PTT / INR:14.3/29.9/1.2, CK / CKMB /
   Troponin-T:80/14/0.07, ALT / AST:76/58, Alk Phos / T Bili:58/0.4,
   Differential-Neuts:79.8 %, Band:0.0 %, Lymph:12.9 %, Mono:3.6 %,
   Eos:3.3 %, Lactic Acid:0.8 mmol/L, Albumin:2.5 g/dL, LDH:398 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   65 year old male with acute neurologic decline currently attributed to
   [**Last Name (un) 8413**] encephalitis now s/p aspiration event and intubation.
   Aspiration Pneumonia RLL/Respiratory Failure: Thought to be secondary
   to aspiration and pooling secretions with frequent desats resolved with
   suctioning. S/p trach/PEG on [**7-19**]. Concern for mucous plugging on [**7-19**]
   given thick secretions; [**7-20**] BAL and bronch washings with gram neg
   diplococci on gram stain, cx with OP Flora x2. [**Month (only) 51**] also have component
   from neurologic disease.
   - finished cefepime/cipro today.
   - continue suction, chest PT
   - DC to rehab today.
   - d/c
ed hyoscyamine
   -attempted to wean vent from CMV to PS
   Fever: WBC stable but with grade fever of unclear etiology. Treating
   pneumonia.
   - panculture (blood, urine, endotracheal)-NGTD
   - completed cefepime and cipro as above; would add vanc for gram
   positive coverage if spikes fever > 101 and can consider repeat sputum
   cx.
   Anemia:  Unclear etiology for slow downtrend in Hct over 2 weeks. Did
   have two episodes of coffee ground emesis as well as one episode of
   perirectal bleeding thought [**2-11**] flexiseal irritation. B12, folate, iron
   labs nl on [**7-9**]; no e/o hemolysis on [**7-16**]. Received 1 unit [**2154-7-16**] and
   [**2154-7-24**] with initially appropriate hematocrit bump, but down again to
   20.4 -> 2 more U PRBC on [**2154-7-26**] with appropriate bump.  Have d/c
   plavix and heparin.   Continues to be grossly guaiac positive on exam.
   - continue IV PPI [**Hospital1 7**]
   - daily Hct, active T&S, transfuse < 21
   - continue iron supplements and multivitamin
   - off heparin and plavix
   - EGD without explaination for anemia.
   Constipation: Now resolved
   - [**Doctor Last Name **] down bowel regimen (d/c reglan, lactulose)
   Hypernatremia:  Likely [**2-11**] post-ATN diuresis of urea and insensible
   free water losses. Less likely component of diabetes insipidus. Unclear
   why patient has had worsening of his hypernatremia over the past 24
   hours.  [**Month (only) 51**] be secondary to gastrointestinal bleeding.  Na now near
   [**Doctor First Name **].
   - changedd free water flushes.
   - PM sodium check
   .
   s/p Neurologic decline: EEG on [**2154-7-5**] c/w widespread encephalopathy
   but no epileptiform features. Thought to have [**Last Name (un) 8413**] encephalitis
   but GQ1B Ab neg. Repeat LP [**2154-7-10**] cx neg. Flow cytometry with
   non-specific T cell dominant lymphoid profile; cytology neg for
   malignant cells. Now s/p 5 day course of both IVIG and high dose
   steroids with nonspecific MRI finding. Neuro significantly improved,
   following commands, alert.
   - f/u neuro recs
   - fentanyl prn for pain
   - zydis PRN for agitation
   Acute Renal Failure:  ATN likely [**2-11**] hypotension now resolved.
   - blood pressure management as above
   - trend creatinine
   ACS: NSTEMI
   - cont ASA, statin, beta blocker
   - d/c plavix as stent placed [**1-16**]
   Thrush: nystatin
   Hyperglycemia: In setting of high dose steroids (now completed)
   - titrate ISS prn
   Depression:
   - Zoloft.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-30**] 06:39 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU to rehab

2154-07-30 11:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   EGD without evidence of bleeding yest
   Allergies:
   Eptifibatide
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2154-7-30**] 02:08 AM
   Ciprofloxacin - [**2154-7-30**] 02:09 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2154-7-29**] 03:45 PM
   Fentanyl - [**2154-7-29**] 03:45 PM
   Pantoprazole (Protonix) - [**2154-7-30**] 08:00 AM
   Lorazepam (Ativan) - [**2154-7-30**] 09:40 AM
   Other medications:
   lopressor, MVI, thiamine, folate
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-7-30**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.7
C (99.8
   HR: 72 (63 - 101) bpm
   BP: 132/65(82) {74/36(44) - 187/92(116)} mmHg
   RR: 22 (10 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108.5 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  4,054 mL
                                                                  1,788 mL
   PO:
             TF:
                                                                    529 mL
                                                                    771 mL
   IVF:
                                                                  2,996 mL
                                                                    207 mL
   Blood products:
   Total out:
                                                                  1,710 mL
                                                                    645 mL
   Urine:
                                                                  1,710 mL
                                                                    645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,344 mL
                                                                  1,143 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 781 (781 - 781) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 3
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 67
   PIP: 17 cmH2O
   SpO2: 97%
   ABG: ///31/
   Ve: 9.5 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : ant, No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   264 K/uL
   110 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.6 mEq/L
   33 mg/dL
   110 mEq/L
   146 mEq/L
   24.0 %
   8.0 K/uL
         [image002.jpg]
                             [**2154-7-25**]  03:59 PM
                             [**2154-7-25**]  08:02 PM
                             [**2154-7-26**]  05:11 AM
                             [**2154-7-26**]  03:48 PM
                             [**2154-7-27**]  03:36 AM
                             [**2154-7-27**]  03:30 PM
                             [**2154-7-28**]  03:21 AM
                             [**2154-7-28**]  06:03 PM
                             [**2154-7-29**]  05:03 AM
                             [**2154-7-30**]  03:11 AM
   WBC
   10.8
   10.9
   10.3
   9.5
   8.0
   Hct
   26.3
   24.1
   22.9
   27.8
   27.9
   27.7
   27.8
   24.0
   Plt
   266
   283
   288
   316
   264
   Cr
   0.7
   0.9
   0.9
   0.7
   0.8
   TCO2
   37
   35
   Glucose
   154
   143
   129
   96
   110
   Other labs: PT / PTT / INR:14.3/29.9/1.2, CK / CKMB /
   Troponin-T:80/14/0.07, ALT / AST:76/58, Alk Phos / T Bili:58/0.4,
   Differential-Neuts:79.8 %, Band:0.0 %, Lymph:12.9 %, Mono:3.6 %,
   Eos:3.3 %, Lactic Acid:0.8 mmol/L, Albumin:2.5 g/dL, LDH:398 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Imaging:
   Assessment and Plan
   65 M with brainstem encephalitis and prolonged hosp stay, w/ acute
   respiratory failure, now w/ GI bleed and presumed acute blood loss
   anemia.
   1. Acute respiratory failure
  likely multifactorial.  Patient
   continues to have apneic spells due to brainstem involvement of the
   encephalitis amd didn
t tolerate pressure support/MMV yesterday. VAP,
   on ABX
   -VAP tx as below
   -change back to PSV and assess for apneic spells
   2. VAP - BAL on [**7-20**] w/ GN diplococci but neg culture. completing ABX
   course today
   3. Anemia- likely chronic disease + slow GI bleed (guaiac positive but
   neg EGD). brown stools.
   -dc'd Plavix (has been greater than 1 yr since PCI)
   -follow hct
   4. Hypernatremia -Continue free water flushes and D5.  F/u lytes
   today.  Possibly component of DI.
   5. Brainstem encephalitis
 EEG shows widespread encephalopathy.  s/p
   IVIG and high dose steroids.  Has been steadily improving.  ? if low
   grade temps [**2-11**] brainstem
   6.  HTN
 metoprolol [**Hospital1 7**]
   7.  NSTEMI
 statin/bb/continued on ASA given recent event.  Dc'd
   Plavix
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2154-7-30**] 06:39 AM 70 mL/hour
   Comments: free h2o flushes 200cc q4
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2154-7-2**] 04:43 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes
   ------ Protected Section ------
   I was physically present with the MICU housestaff  team on this date
   for discussion of the above history, exam and assessment and plan with
   which I agree.  I independently examined the patient and would add the
   following comments : 65 yo male with brainstem encephalitis, question
   [**Last Name (un) 8426**] encephalitis,course notable for acute respiratory failure
   requiring trach, VAP
s, hypernatremia, slow decrease in hct without
   obvious bleeding source by EGD yesterday. Issues include:
   1. Acute respiratory failure: has been maintained on AC ventilation and
   intermittently tolerating PSVMMV.
   2. VAP: to complete a course of abx with cipro and clinda today
   3. Hypernatremia: has responded to free water which will be continued.
   Na
s should continue to be followed.
   4. Brainstem encephalitis
   Appears appropriate for transfer to long care facility.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2154-7-30**] 13:54 ------